2121-12-31 06:20:00 Physician Resident Progress Note
Chief Complaint:
   24Hr
   events:
     * febrile with low grade temp
     * hypotensive to maps in 50's -> given 1L LR
     * hypokalemic to K+ 3.1 -> repleted w/IV KCl
     * ID recs: hepatitis panel (ordered), HIV, follow outside hospital
       viral csf studies, MRI if not better, d/c doxy (done), murmur ->
       needs echo (ordered)
     * Neuro recs: 100TID dilantin, continuous EEG, consider MRI if does
       not improve, follow csf viral studies.
     * Brief apneic episodes overnight, no seizures on EEG per neuro
     * Concern for cord impingement per ID -> CT scan of neck
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2121-12-30**] 01:13 PM
   Acyclovir - [**2121-12-30**] 03:44 PM
   Vancomycin - [**2121-12-30**] 08:50 PM
   Ampicillin - [**2121-12-31**] 12:00 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2121-12-30**] 10:00 PM
   Dilantin - [**2121-12-31**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2121-12-31**] 06:20 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.3
C (100.9
   Tcurrent: 38.2
C (100.7
   HR: 91 (89 - 105) bpm
   BP: 99/63(71) {89/46(55) - 142/95(108)} mmHg
   RR: 16 (15 - 29) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  4,328 mL
                                                                    600 mL
   PO:
             TF:
   IVF:
                                                                  1,828 mL
                                                                    600 mL
   Blood products:
   Total out:
                                                                  2,535 mL
                                                                    705 mL
   Urine:
                                                                  2,535 mL
                                                                    705 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,793 mL
                                                                   -105 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: 7.42/41/139/27/2
   Physical Examination
   Gen: Lethargic, not responding to questions.
   HEENT: NC AT, Pupils 4mm, equal and reactive bilaterally, EEG leads in
   place
   CV: regular rate & rhythm, no appreciable murmur
   Lungs: scattered ronchi, no wheezing or crackles, breathing comfortably
   Abd: normoactive BS, soft, NT ND
   Skin: no rash or lesions noted
   Ext: warm, no edema
   Neuro: intermittently sleeping and occasionally opens eyes to voice.
   Not reliably following commands.  reflexes 3+ and symmetric in upper
   and lower extremitites, etremities amenable to passive motion; clonus
   in feet bilaterally, decreased from yesterday; clonus in right hand but
   not left.  Withdraws to painful stimulus.
   Labs / Radiology
   317 K/uL
   9.7 g/dL
   103 mg/dL
   0.7 mg/dL
   27 mEq/L
   4.0 mEq/L
   4 mg/dL
   109 mEq/L
   141 mEq/L
   27.2 %
   7.8 K/uL
        [image002.jpg]
                            [**2121-12-30**]  02:16 PM
                            [**2121-12-30**]  11:40 PM
                            [**2121-12-31**]  04:31 AM
   WBC
   8.0
   7.8
   Hct
   26.7
   27.2
   Plt
   299
   317
   Cr
   0.7
   TCO2
   28
   Glucose
   102
   103
   Other labs: PT / PTT / INR:13.8/33.3/1.2, ALT / AST:125/96,
   Differential-Neuts:77.8 %, Lymph:15.4 %, Mono:5.5 %, Eos:0.3 %, Lactic
   Acid:0.6 mmol/L, Ca++:7.8 mg/dL, Mg++:1.8 mg/dL, PO4:2.4 mg/dL; Lactate
   0.6; phenytoin level 11.0
   CT C-spine: No fracture, malignment, or paravertebral soft tissue
   swelling.
   Assessment and Plan
   [**Known firstname 1125**] [**Known lastname 3689**] is 41 yo F with no significant [**Hospital 3690**] transferred from OSH
   with seizure and LP c/w meningitis vs encephalitis.
   .
   # Meningitis vs Encephalitis: thus far seems most c/w viral meningitis
   given lymphocyte predominance and normal protein/glucose on CSF from
   OSH.  G-stain from [**Location (un) **] shows no organisms, only polys.  HSV
   encephalitis is also on ddx at this time pending further data from CSF
   PCR and planned MRI imaging.  No focal neurologic defecits on exam at
   this time.  Currently covered broadly for both bacterial and viral
   meningitis as well as mycoplasma with Vancomycin, Ceftriaxone,
   Ampicillin, Doxycyclin, and Acyclovir.
   -f/u ID reccs
   - MRI ordered to evaluate for temporal lobe edema/enhancing lesion to
   further eval for evidence of HSV encephalitis
   - f/u lab results from [**Location (un) **]
   - blood cx, still pending, ngtd
   - labs for other possible causes: toxo, lyme, bartonella, mycoplasma
   .
   #Seizure - tonic clonic per report likely [**3-15**] meningitis vs
   encephalitis as above.  Treated with ativan/dilatin at OSH with no
   obvious seizure activity since arrival here although persistant AMS
   possibly [**3-15**] subclinical seizure vs infection.  CT scan reassuring for
   no c-spine fracture or cord compression.
   -c-spine MRI to clear c-spine; c-collar until clear
   -f/u neurology recs
   -continue dilantin, extra dose today given low normal level, will
   recheck level tomorrow.
   -continuous EEG to evaluate for subclinical seizures
   .
   #Anemia
 Currently Stable.  Likely hemodilutional.  Will continue to
   monitor.
   -guaiac stools
   -follow serial HCT's to be sure stable
   .
   #Mild Transaminitis - likely [**3-15**] seizure, though could be related to
   viral infection.
   -daily LFT's
   -CMV viral load, EBV Ab panel, HCV Ab, HBV Abs
   .
   #Non-Gap metabolic acidosis - likely [**3-15**] agressive IVF with NS prior to
   arrival.  Gap now 3.
   -maint IVF w/ D51/2NS for now
   .
   #FEN - NPO until after MRI scan; will consider NGT placement for
   feeding as MS not improving, replete lytes prn, maintenance IVF with
   D51/2 NS
   #PPX: Heparin sc, bowel regimen
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2121-12-30**] 10:59 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2121-12-31 10:28:00 Physician Attending Progress Note
Chief Complaint: Seizure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Patient with mild improvement in mental status over past 24 hours with
   capacity to maintain interaction but with significant confusion.
   Patient had persistent hyper-reflexia noted in LE's--no fracture or
   cord compression noted on CT
   24 Hour Events:
 EEG - At [**2121-12-30**] 02:30 PM
 BLOOD CULTURED - At [**2121-12-31**] 12:15 AM
 URINE CULTURE - At [**2121-12-31**] 12:15 AM
 BLOOD CULTURED - At [**2121-12-31**] 04:30 AM
   History obtained from [**Hospital 15**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2121-12-30**] 01:13 PM
   Acyclovir - [**2121-12-31**] 06:00 AM
   Ampicillin - [**2121-12-31**] 06:00 AM
   Vancomycin - [**2121-12-31**] 08:00 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2121-12-31**] 06:00 AM
   Dilantin - [**2121-12-31**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2121-12-31**] 10:15 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.3
C (100.9
   Tcurrent: 37.5
C (99.5
   HR: 95 (89 - 105) bpm
   BP: 103/56(67) {89/46(55) - 142/95(108)} mmHg
   RR: 16 (15 - 29) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  4,428 mL
                                                                  2,000 mL
   PO:
             TF:
   IVF:
                                                                  1,928 mL
                                                                  2,000 mL
   Blood products:
   Total out:
                                                                  2,535 mL
                                                                  1,180 mL
   Urine:
                                                                  2,535 mL
                                                                  1,180 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,893 mL
                                                                    820 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 99%
   ABG: 7.42/41/139/27/2
   Physical Examination
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Diminished: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent
   Skin:  Not assessed
   Neurologic: Responds to: Verbal stimuli, Movement: Not assessed, Tone:
   Not assessed, Confused, persistent LE bilateral increased reflexes but
   diminished from yesterday.  We do not have clear differential response
   side to side.
   Labs / Radiology
   9.7 g/dL
   317 K/uL
   103 mg/dL
   0.7 mg/dL
   27 mEq/L
   4.0 mEq/L
   4 mg/dL
   109 mEq/L
   141 mEq/L
   27.2 %
   7.8 K/uL
        [image002.jpg]
                            [**2121-12-30**]  02:16 PM
                            [**2121-12-30**]  11:40 PM
                            [**2121-12-31**]  04:31 AM
   WBC
   8.0
   7.8
   Hct
   26.7
   27.2
   Plt
   299
   317
   Cr
   0.7
   TCO2
   28
   Glucose
   102
   103
   Other labs: PT / PTT / INR:13.8/33.3/1.2, ALT / AST:125/96,
   Differential-Neuts:77.8 %, Lymph:15.4 %, Mono:5.5 %, Eos:0.3 %, Lactic
   Acid:0.6 mmol/L, Ca++:7.8 mg/dL, Mg++:1.8 mg/dL, PO4:2.4 mg/dL
   Fluid analysis / Other labs: 7.42/41/139
   Assessment and Plan
   41 yo female admitted with new onset seizures and presenting to the ICU
   with post ictal state but with a suggestion of some asymmetry in right
   to left in upper extremities.
   Seizure-
   -Continue with Dilantin dosing
   -Will continue with EEG monitoring
   -Appreciate neurology input and guidance with management ongoing
   -Dilantin levels this morning and level=11 and will clarify dosing with
   neurology
   Possible Meningitis-This is a setting of remaining to be defined
   possible infectious trigger with cultures yet to be defined.
   Acyclovir
for possible HSV
   Will check CMV load today
   Vancomycin/Ampicillin/CTX
this is in place for possible bacterial
   meningitis, will increase Ampicillin dosing
   Ceftriaxone
   Elevated transaminases-
   -Check CMV viral load
   -Will consider HIV status check when patient able to consider consent
   ICU Care
   Nutrition: npo for now
   Glycemic Control:
   Lines:
   18 Gauge - [**2121-12-30**] 10:59 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments: Family updated on plan this morning
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes

2122-01-01 06:03:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 BLOOD CULTURED - At [**2121-12-31**] 06:55 PM
 URINE CULTURE - At [**2121-12-31**] 06:56 PM
   - ECHO wnl
   - additional tests ordered per ID: toxo, bartonella, lyme, mycoplasma
   - MRI brain & c-spine performed
   - am CXR ordered
   - SW c/s for family coping requested
   - consider NGT & TF
   - insulin sliding scale?
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Doxycycline - [**2121-12-31**] 12:35 PM
   Vancomycin - [**2121-12-31**] 08:00 PM
   Ampicillin - [**2121-12-31**] 08:00 PM
   Acyclovir - [**2121-12-31**] 10:00 PM
   Ceftriaxone - [**2121-12-31**] 10:00 PM
   Infusions:
   Other ICU medications:
   Dilantin - [**2121-12-31**] 06:00 PM
   Heparin Sodium (Prophylaxis) - [**2121-12-31**] 08:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2122-1-1**] 06:01 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.3
C (101
   Tcurrent: 37.7
C (99.9
   HR: 90 (90 - 113) bpm
   BP: 113/58(71) {95/50(60) - 125/72(84)} mmHg
   RR: 25 (12 - 27) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  3,844 mL
                                                                     13 mL
   PO:
             TF:
   IVF:
                                                                  3,844 mL
                                                                     13 mL
   Blood products:
   Total out:
                                                                  2,185 mL
                                                                    300 mL
   Urine:
                                                                  2,185 mL
                                                                    300 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,659 mL
                                                                   -288 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: ///32/
   Physical Examination
   Gen: Lethargic, not responding to questions.
   HEENT: NC AT, Pupils 4mm, equal and reactive bilaterally, EEG leads in
   place but not currently attached to EEG monitor.
   CV: regular rate & rhythm, no appreciable murmur
   Lungs: scattered ronchi, no wheezing or crackles, breathing comfortably
   Abd: normoactive BS, soft, NT ND
   Skin: no rash or lesions noted
   Ext: warm, no edema
   Neuro: intermittently sleeping and occasionally opens eyes to voice.
   Not reliably following commands.  Clonus in right hand, but not left.
   Clonus in feet bilaterally, R > L .
   Labs / Radiology
   406 K/uL
   10.4 g/dL
   169 mg/dL
   0.7 mg/dL
   32 mEq/L
   4.0 mEq/L
   7 mg/dL
   100 mEq/L
   137 mEq/L
   29.8 %
   10.1 K/uL
         [image002.jpg]
                            [**2121-12-30**]  02:16 PM
                            [**2121-12-30**]  11:40 PM
                            [**2121-12-31**]  04:31 AM
                            [**2122-1-1**]  03:44 AM
   WBC
   8.0
   7.8
   10.1
   Hct
   26.7
   27.2
   29.8
   Plt
   299
   317
   406
   Cr
   0.7
   0.7
   TCO2
   28
   Glucose
   102
   103
   169
   Other labs: PT / PTT / INR:13.8/33.3/1.2, ALT / AST:119/102, Alk Phos /
   T Bili:47/0.1, Differential-Neuts:88.1 %, Lymph:8.2 %, Mono:3.3 %,
   Eos:0.1 %, Lactic Acid:0.6 mmol/L, LDH:439 IU/L, Ca++:7.6 mg/dL,
   Mg++:2.3 mg/dL, PO4:3.7 mg/dL
   B12 & folic acid pending; retic count 2.1; Fe labs pending; UA rare
   bacteria (urine culture neg.); ketones 150; phenytoin 10.8
   CSF from [**Location (un) **]: EBV and enterovirus PCRs are negative
   CSR from this morning concerning for possible aspiration.
   Assessment and Plan
   [**Known firstname 1125**] [**Known lastname 3689**] is 41 yo F with no significant [**Hospital 3690**] transferred from OSH
   with seizure and LP c/w meningitis vs encephalitis.
   .
   # Meningitis vs Encephalitis: thus far seems most c/w viral meningitis
   given lymphocyte predominance and normal protein/glucose on CSF from
   OSH.  G-stain from [**Location (un) **] shows no organisms, only polys and PCR
   negative for EBV and enterovirus.  HSV encephalitis is also on ddx at
   this time pending further data from CSF PCR and MRI imaging.  No focal
   neurologic defecits on exam at this time.  Currently covered broadly
   for both bacterial and viral meningitis as well as mycoplasma with
   Vancomycin, Ceftriaxone, Ampicillin, Doxycyclin, and Acyclovir.  MRI
   was performed early this morning; final read pending.
   - f/u ID recs
   - f/u MRI [**Location (un) **]
   - f/u lab results from [**Location (un) **]
   - blood cx, still pending, ngtd
   - labs for other possible causes: toxo, lyme, bartonella, mycoplasma,
   CMV, etc.
   .
   #Seizure - tonic clonic per report likely [**3-15**] meningitis vs
   encephalitis as above.  Treated with ativan/dilatin at OSH with no
   obvious seizure activity since arrival here although persistant AMS
   possibly [**3-15**] subclinical seizure vs infection.  CT scan reassuring for
   no c-spine fracture or cord compression.  Discussed with EEG attending
   yesterday and no evidence of seizures on EEG monitoring from [**12-30**] or
   am of [**12-31**].  Discussed with neuro and need to resume continuous EEG
   monitoring given that patient still has persistent AMS.
   -f/u MRI c-spine & remove c-collar if clear
   -f/u neurology recs
   -stop dilantin and start keppra 1000 mg [**Hospital1 **] d/t low dilantin level and
   elevated LFTs
   -continuous EEG to evaluate for subclinical seizures
   .
   # ? Aspiration
 Patient had multiple episodes of gagging on her own
   secretions yesterday, despite frequent suctioning.  She is currently
   broadly covered on antibiotics for aspiration pneumonia.
   - good pulmonary toilet with frequent suctioning, keeping HOB elevated
   - cont. abx as above
   - f/u CXR if pulmonary status worsens
   .
   #Anemia
 Currently Stable.  Likely hemodilutional.  Will continue to
   monitor.
   -guaiac stools
   -follow serial HCT's to be sure stable
   .
   #Mild Transaminitis
 Stable today, likely [**3-15**] seizure, though could be
   related to viral infection.
   -daily LFT's
   -CMV viral load, EBV Ab panel, HCV Ab, HBV Abs
   .
   #Non-Gap metabolic acidosis - likely [**3-15**] agressive IVF with NS prior to
   arrival.  Gap now 5.
   -maint IVF w/ D51/2NS for now
   .
   #FEN
 Maintenance fluids with D51/2NS.  Given ketones in urine, will
   consider NGT placement or PPN for feeding as MS not improving.  [**Month (only) 51**]
   need insulin sliding scale for elevated glucose, will monitor.  Replete
   lytes prn
   #PPX: Heparin sc, bowel regimen, droplet precautions
   # Access: PIV
   # Code: Presumed full
   # Dispo: ICU level of care.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2121-12-30**] 10:59 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2122-01-01 09:58:00 Physician Attending Progress Note
Chief Complaint: Seizure
   Altered Mental Status
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   ECHO--no significant cardiac disease
   Additional serologies sent to evaluate for possible infectious insult
   No seizure activity x >24 hours
   MRI performed--on prelim read--diffuse enhancement of meninges--no
   evidence of cord insult.
   [**Location (un) **]--no growth on bacterial cultures, HSV still pending
   Patient with recurrent fevers yesterday
   24 Hour Events:
 BLOOD CULTURED - At [**2121-12-31**] 06:55 PM
 URINE CULTURE - At [**2121-12-31**] 06:56 PM
 BLOOD CULTURED - At [**2122-1-1**] 04:45 AM
   History obtained from [**Hospital 15**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Doxycycline - [**2121-12-31**] 12:35 PM
   Ceftriaxone - [**2121-12-31**] 10:00 PM
   Acyclovir - [**2122-1-1**] 06:00 AM
   Ampicillin - [**2122-1-1**] 07:49 AM
   Vancomycin - [**2122-1-1**] 08:28 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2122-1-1**] 05:00 AM
   Dilantin - [**2122-1-1**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Flowsheet Data as of  [**2122-1-1**] 09:50 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.3
C (101
   Tcurrent: 38.3
C (101
   HR: 90 (90 - 113) bpm
   BP: 112/61(70) {95/50(60) - 125/72(84)} mmHg
   RR: 19 (12 - 27) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  3,859 mL
                                                                  1,567 mL
   PO:
             TF:
   IVF:
                                                                  3,859 mL
                                                                  1,567 mL
   Blood products:
   Total out:
                                                                  2,185 mL
                                                                    565 mL
   Urine:
                                                                  2,185 mL
                                                                    565 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,674 mL
                                                                  1,002 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   ABG: ///32/
   Physical Examination
   General Appearance: Thin
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Crackles : , Diminished: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Trace, Left: Trace
   Skin:  Not assessed
   Neurologic: No(t) Follows simple commands, Responds to: Verbal stimuli,
   Movement: Not assessed, Tone: Not assessed, Clonus in L and R LE's
   Labs / Radiology
   10.4 g/dL
   406 K/uL
   169 mg/dL
   0.7 mg/dL
   32 mEq/L
   4.0 mEq/L
   7 mg/dL
   100 mEq/L
   137 mEq/L
   29.8 %
   10.1 K/uL
        [image002.jpg]
                            [**2121-12-30**]  02:16 PM
                            [**2121-12-30**]  11:40 PM
                            [**2121-12-31**]  04:31 AM
                            [**2122-1-1**]  03:44 AM
   WBC
   8.0
   7.8
   10.1
   Hct
   26.7
   27.2
   29.8
   Plt
   299
   317
   406
   Cr
   0.7
   0.7
   TCO2
   28
   Glucose
   102
   103
   169
   Other labs: PT / PTT / INR:13.8/33.3/1.2, ALT / AST:119/102, Alk Phos /
   T Bili:47/0.1, Differential-Neuts:88.1 %, Lymph:8.2 %, Mono:3.3 %,
   Eos:0.1 %, Lactic Acid:0.6 mmol/L, LDH:439 IU/L, Ca++:7.6 mg/dL,
   Mg++:2.3 mg/dL, PO4:3.7 mg/dL
   Fluid analysis / Other labs: Retic==2.1
   Imaging: CXR--
   Suggestion of intermittent aspiration and upon review patient with
   clear LLL infiltrate
   Assessment and Plan
   41 yo female admitted to ICU following seizure--new onset and
   generalized tonic/clonic seizure activity.  She has a suggestion of
   viral infection with diffuse changes on laboratory pannels and has
   findings on preliminary MRI review to suggest meningitis.  She has been
   covered with Acyclovir since presentation and full viral pannel has
   been sent in concert with the ID consultants to look for any possible,
   identifiable source.  Of concern is recurrent fever which in the
   setting of persistent altered mental status is concerning for
   aspiration penumonitis without evidence to date of evolution of
   aspiration pneumonia.
   1)Seizure--working diagnosis is new onset seizure in the setting of
   viral meningitis but the final diagnosis has yet to be established
   -Continue with Dilantin and dose by level-_Dila
   -Will follow up on MRI [**Location (un) **]
   -Follow up on all CSF testing at [**Location (un) **]
   -Will treat for meningitis as defined below
   2)Meningitis
presumptive diagnosis
   -Amp/Doxycycline/Vanco/CTX/Acyclovir to cover
   -Will look to CMV testing for guidance on the choice of anti-virals
   3)Fever
Aspiration
   -This is likely related
   -Elevate HOB
   -If possible, will move to D/C C-collar
   -NPO to continue
   Additional issues to be addressed as defined in the housestaff note of
   this date and appreciate the close and thoughtful input of neurology
   and ID consultants.
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
 HYPOTENSION (NOT SHOCK)
 HYPOKALEMIA (LOW POTASSIUM, HYPOPOTASSEMIA)
 ALTERED MENTAL STATUS (NOT DELIRIUM)
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2121-12-30**] 10:59 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes

2122-01-02 06:13:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 EEG - At [**2122-1-1**] 01:13 PM
 INVASIVE VENTILATION - START [**2122-1-1**] 07:31 PM
 BLOOD CULTURED - At [**2122-1-2**] 02:25 AM
 FEVER - 102.7
F - [**2122-1-2**] 05:00 AM
   Pt was intubated last night electively for airway protection and
   secretions
   ID is recommending a repeat LP to assess lymphocytosis and check for
   EEE, WNV, CMV, opening pressures
   Dilantin stopped per neurology and pt was started on Keppra
   MRI read showed increased intensity in sulci, ?SAH
   Low Uop overnight, given 500cc bolus
   Per [**Location (un) **], no growth in culture in 2 days, HSV VZV pending, parvo
   virus pending, (EEE, WNV, CMV no ordered due to no more CSF)
   Vent rate decreased
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2122-1-1**] 08:10 PM
   Acyclovir - [**2122-1-1**] 10:03 PM
   Ceftriaxone - [**2122-1-1**] 10:03 PM
   Ampicillin - [**2122-1-2**] 12:26 AM
   Doxycycline - [**2122-1-2**] 12:26 AM
   Infusions:
   Propofol - 10 mcg/Kg/min
   Other ICU medications:
   Dilantin - [**2122-1-1**] 08:00 AM
   Heparin Sodium (Prophylaxis) - [**2122-1-1**] 02:18 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2122-1-2**] 06:11 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.3
C (102.7
   Tcurrent: 39.3
C (102.7
   HR: 99 (89 - 128) bpm
   BP: 131/72(85) {106/47(68) - 138/83(89)} mmHg
   RR: 12 (8 - 27) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  4,124 mL
                                                                  1,349 mL
   PO:
             TF:
   IVF:
                                                                  4,124 mL
                                                                  1,349 mL
   Blood products:
   Total out:
                                                                  1,150 mL
                                                                    250 mL
   Urine:
                                                                  1,150 mL
                                                                    250 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,974 mL
                                                                  1,099 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 12
   PEEP: 5 cmH2O
   FiO2: 70%
   RSBI Deferred: Unstable Airway
   PIP: 18 cmH2O
   Plateau: 16 cmH2O
   SpO2: 100%
   ABG: 7.48/45/187/29/9
   Ve: 7.5 L/min
   PaO2 / FiO2: 267
   Physical Examination
   Gen: Lethargic, not responding to questions.
   HEENT: NC AT, Pupils 4mm, equal and reactive bilaterally, EEG leads in
   place hooked up to EEG machine.
   CV: regular rate & rhythm, no appreciable murmur
   Lungs: scattered ronchi, no wheezing or crackles, breathing comfortably
   Abd: normoactive BS, soft, NT ND
   Skin: no rash or lesions noted
   Ext: warm, no edema
   Neuro: intermittently sleeping, not responding to verbal or painful
   stimuli.  Clonus in right hand, but not left.  Clonus in feet
   bilaterally..
   Labs / Radiology
   472 K/uL
   10.0 g/dL
   147 mg/dL
   0.6 mg/dL
   29 mEq/L
   3.5 mEq/L
   8 mg/dL
   98 mEq/L
   135 mEq/L
   27.7 %
   11.4 K/uL
        [image002.jpg]
                            [**2121-12-30**]  02:16 PM
                            [**2121-12-30**]  11:40 PM
                            [**2121-12-31**]  04:31 AM
                            [**2122-1-1**]  03:44 AM
                            [**2122-1-1**]  05:31 PM
                            [**2122-1-2**]  02:24 AM
                            [**2122-1-2**]  02:33 AM
                            [**2122-1-2**]  03:10 AM
                            [**2122-1-2**]  05:50 AM
   WBC
   8.0
   7.8
   10.1
   11.4
   Hct
   26.7
   27.2
   29.8
   27.7
   Plt
   299
   317
   406
   472
   Cr
   0.7
   0.7
   0.6
   TCO2
   28
   34
   34
   34
   34
   Glucose
   102
   103
   169
   147
   Other labs: PT / PTT / INR:14.2/29.5/1.2, ALT / AST:120/131, Alk Phos /
   T Bili:43/0.2, Differential-Neuts:83.9 %, Lymph:9.2 %, Mono:6.2 %,
   Eos:0.2 %, Lactic Acid:1.4 mmol/L, LDH:476 IU/L, Ca++:7.5 mg/dL,
   Mg++:2.0 mg/dL, PO4:0.9 mg/dL
   Assessment and Plan
   [**Known firstname 1125**] [**Known lastname 3689**] is 41 yo F with no significant [**Hospital 3690**] transferred from OSH
   with seizure and LP c/w meningitis vs encephalitis.  No clear
   improvement, mental status appears to be declining.  Neurologic exam
   otherwise unchanged.  No clear organism.
   .
   # Meningitis vs Encephalitis: thus far seems most c/w viral meningitis
   given lymphocyte predominance and normal protein/glucose on CSF from
   OSH.  G-stain from [**Location (un) **] shows no organisms, only polys and PCR
   negative for EBV and enterovirus.  HSV encephalitis is also on ddx at
   this time pending further data from CSF PCR and MRI imaging.  No focal
   neurologic defecits on exam at this time.  Currently covered broadly
   for both bacterial and viral meningitis as well as mycoplasma with
   Vancomycin, Ceftriaxone, Ampicillin, Doxycyclin, and Acyclovir.  MRI
   was performed yesterday, preliminary read shows increased signal in
   sulci, ?SAH.  LP and CT scan do not show evidence of SAH.
   - f/u lab results from [**Location (un) **]
        - per [**Location (un) **], pending CSF studies are parvovirus B19, HSV VZV and
   final cultures
        - as of [**2122-1-1**], CSF culture data is no growth to date
        - CSF at [**Location (un) **] NOT sent for EEE, WNV, CMV because they have no
   more CSF to send
   - will repeat LP today for opening pressure, gram stain and culture,
   CMV, EBV, enterovirus, HSV, VZV, EEE, WNV, parvovirus
   - blood and urine cultures still negative
   - labs for other possible causes: toxo, lyme, bartonella, mycoplasma,
   CMV, LCMV ordered
   .
   #Seizure - tonic clonic per report likely [**3-15**] meningitis vs
   encephalitis as above.  Treated with ativan/dilatin at OSH with no
   obvious seizure activity since arrival here although persistant AMS
   possibly [**3-15**] subclinical seizure vs infection.  CT scan reassuring for
   no c-spine fracture or cord compression.  Discussed with EEG attending
   yesterday and no evidence of seizures on EEG monitoring from [**12-30**] or
   am of [**12-31**].  Discussed with neuro and need to resume continuous EEG
   monitoring given that patient still has persistent AMS.
   -f/u neurology recs
   -continue Keppra (changed from Dilantin on [**2122-1-1**])
   -continuous EEG to evaluate for subclinical seizures
   - minimal sedation to monitor frequent neuro checks
   .
   # Aspiration Pneumonitis
  Now intubated for airway protection.
   Likely aspiration pneumonitis given improvement on CXR today.
   - continue to monitor and wean vent settings as tolerated
   - minimal sedation to assess neuron status
   - continue current antibiotic coverage
   #MRI findings
 enhancement of sulci with ?SAH.  Not seen on CT or LP
   results.  Likely abnormal.
   .
   #Mild Transaminitis
 Stable today, likely [**3-15**] seizure, though could be
   related to viral infection.
   -daily LFT's
   -CMV viral load, EBV Ab panel, HCV Ab, HBV Abs
   .
   #Non-Gap metabolic acidosis - likely [**3-15**] agressive IVF with NS prior to
   arrival.  Gap now 5.
   -maint IVF w/ D51/2NS for now
   .
   #FEN
 Maintenance fluids with D51/2NS.  Given ketones in urine, will
   consider NGT placement or PPN for feeding as MS not improving.  [**Month (only) 51**]
   need insulin sliding scale for elevated glucose, will monitor.  Replete
   lytes prn
   #PPX: Heparin sc, bowel regimen, droplet precautions
   # Access: PIV
   # Code: Presumed full
   # Dispo: ICU level of care.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2122-1-2**] 04:42 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2122-01-02 09:33:00 Physician Attending Progress Note
Chief Complaint: Seizure
   Altered Mental Status
   Respiratory Failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Patient with progressive decrease in altertness and worsening hypoxemia
   in the setting of evolution of LLL infiltrate.
   Concern raised with incomplete CSF test for repeat LP
   -EEE, CMV, West [**Doctor First Name **] desired for CSF and trend with leukocytosis
   desired and with MRI read reassuring will move to LP today
   24 Hour Events:
 EEG - At [**2122-1-1**] 01:13 PM
 INVASIVE VENTILATION - START [**2122-1-1**] 07:31 PM
 BLOOD CULTURED - At [**2122-1-2**] 02:25 AM
 FEVER - 102.7
F - [**2122-1-2**] 05:00 AM
   History obtained from [**Hospital 15**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Acyclovir - [**2122-1-1**] 10:03 PM
   Ceftriaxone - [**2122-1-1**] 10:03 PM
   Doxycycline - [**2122-1-2**] 12:26 AM
   Vancomycin - [**2122-1-2**] 08:18 AM
   Ampicillin - [**2122-1-2**] 08:18 AM
   Infusions:
   Propofol - 10 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2122-1-1**] 02:18 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2122-1-2**] 09:18 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.3
C (102.7
   Tcurrent: 38.4
C (101.2
   HR: 95 (89 - 128) bpm
   BP: 117/63(75) {106/47(68) - 138/83(89)} mmHg
   RR: 13 (8 - 27) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 66 Inch
             Total In:
                                                                  4,126 mL
                                                                  2,027 mL
   PO:
             TF:
   IVF:
                                                                  4,126 mL
                                                                  2,027 mL
   Blood products:
   Total out:
                                                                  1,150 mL
                                                                    495 mL
   Urine:
                                                                  1,150 mL
                                                                    495 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,976 mL
                                                                  1,532 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 12
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: Unstable Airway
   PIP: 17 cmH2O
   Plateau: 12 cmH2O
   Compliance: 71.4 cmH2O/mL
   SpO2: 99%
   ABG: 7.48/45/187/29/9
   Ve: 7.4 L/min
   PaO2 / FiO2: 468
   Physical Examination
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ,
   No(t) Dullness : ), (Breath Sounds: Clear : )
   Extremities: Right: Absent, Left: Absent
   Skin:  Not assessed, No(t) Rash:
   Neurologic: Responds to: Verbal stimuli, Movement: Not assessed, Tone:
   Not assessed, Clonus pesists
   Labs / Radiology
   10.0 g/dL
   472 K/uL
   147 mg/dL
   0.6 mg/dL
   29 mEq/L
   3.5 mEq/L
   8 mg/dL
   98 mEq/L
   135 mEq/L
   27.7 %
   11.4 K/uL
        [image002.jpg]
                            [**2121-12-30**]  02:16 PM
                            [**2121-12-30**]  11:40 PM
                            [**2121-12-31**]  04:31 AM
                            [**2122-1-1**]  03:44 AM
                            [**2122-1-1**]  05:31 PM
                            [**2122-1-2**]  02:24 AM
                            [**2122-1-2**]  02:33 AM
                            [**2122-1-2**]  03:10 AM
                            [**2122-1-2**]  05:50 AM
   WBC
   8.0
   7.8
   10.1
   11.4
   Hct
   26.7
   27.2
   29.8
   27.7
   Plt
   299
   317
   406
   472
   Cr
   0.7
   0.7
   0.6
   TCO2
   28
   34
   34
   34
   34
   Glucose
   102
   103
   169
   147
   Other labs: PT / PTT / INR:14.2/29.5/1.2, ALT / AST:120/131, Alk Phos /
   T Bili:43/0.2, Differential-Neuts:83.9 %, Lymph:9.2 %, Mono:6.2 %,
   Eos:0.2 %, Lactic Acid:1.4 mmol/L, LDH:476 IU/L, Ca++:7.5 mg/dL,
   Mg++:2.0 mg/dL, PO4:0.9 mg/dL
   Fluid analysis / Other labs: 7.48/45/187
   Imaging: CXR-Post intubation
   -ETT, NGT good position
   -Mild improvement in LLL opacity
   Microbiology: Lyme-Neg
   Urine/Blood-Neg
   Enterovirus-neg
   HSV-Pending
   Assessment and Plan
   41 yo female admitted with new onset seizures without status
   epilepticus.  She now had prolonged course to recovery of baseline
   mental function which may well represent continued insult with
   hypecarbia, mild transaminitis, possible aspiration
   pneumonitis/pneumonia and ongoing investigations to establish trend in
   CSF changes and complete diagnostic evaluation in the setting of
   treating all possible sources.  She has provocative metabolic changes
   with hypophosphatemia and transient hypocalcemia.
   1)Respiratory Failure-
   -Propofol
   -Change to PSV today to allow spontaneous respiration in most
   comfortable mode of support
   -Encouraging minimum of persistence of infiltrate
   -Extubation limited by mental status as this time
   2)Seizure-
   -Keppra for medications
   -C-Collar D/C
d with mechanisms of events
found in bed and MRI without
   changes in C-spine as clinical decision with team and neurology who had
   initially suggested its placement.
   3)Meningitis-
   -Acyclovir
   -Vanco/CTX/Ampicillin
   -Doxy
   -Will repeat LP today to eval for possible sources
   -Will review MRI final report today but through multiple consult
   services and discussions with radiology we have no evidence of
   intra-cranial pathology
   4)Hypocalcamia-
   -Will check albumin today
   -Have severe hypophosphatemia as well.
   -Will replete but will need to consider further evaluation in the
   setting of albumin results based upon findings.
   5)Fever-
   -Recurrent fever may be aspiration pneumonitis
   -Infiltrate is improved
   -Will need to re-send cultures
   -Will check CSF
   -[**Month (only) 51**] represent persistence of viral insult at 3 days out from initial
   insult
   Additional issues to be managed as being defined in the housestaff note
   of this date.
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
 HYPOTENSION (NOT SHOCK)
 HYPOKALEMIA (LOW POTASSIUM, HYPOPOTASSEMIA)
 ALTERED MENTAL STATUS (NOT DELIRIUM)
   ICU Care
   Nutrition: Tube Feeds to start today, continue maintenance IVF
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   18 Gauge - [**2122-1-2**] 04:42 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes

2122-01-03 05:50:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
     * Fever overnight to 102.3, not controlled w/anitpyretics
     * family meeting to address concerns
     * on cooling blanket for fevers (w/continuous rectal temp monitoring)
     * tube feeds started at night
     * diarrhea in am
 sent stool for Cdiff
     * SVT in am to 160
 started and stopped spontaneously
 lasted <1
       minute, patient agitated when nurse went in (seizing?)
     * keppra increased from 1000 [**Hospital1 7**] to [**2113**] [**Hospital1 7**] per neuro
     * LP w/12cc CSF sent for studies per ID recommendations. Clarified
       w/ID which studies needed to be sent.
     * seen by optho - no retinitis, no papilledema. dilated [**Hospital1 3811**] at
       4pm, team not aware.  nurse [**First Name (Titles) 3812**] [**Last Name (Titles) 3811**] after LP and were b/l
       fixed and dilated. initially concerned for herniation w/LP, but
       patient with no change in neuro exam. ordered and then canceled ct
       after d/w opthomologist who stated effects of dilation meds can
       have lasting effects several hours later
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin
   Doxycycline
   Acyclovir
   Ceftriaxone
   Ampicillin
   Infusions:
   Propofol - 17.1 mcg/Kg/min
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2122-1-3**] 05:48 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.1
C (102.3
   Tcurrent: 38.4
C (101.2
   HR: 92 (85 - 109) bpm
   BP: 118/69(89) {106/58(72) - 137/77(90)} mmHg
   RR: 25 (7 - 26) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 66 Inch
             Total In:
                                                                  6,164 mL
                                                                  1,599 mL
   PO:
             TF:
             21 mL
   IVF:
                                                                  5,824 mL
                                                                  1,258 mL
   Blood products:
   Total out:
                                                                  2,115 mL
                                                                    905 mL
   Urine:
                                                                  2,115 mL
                                                                    905 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  4,049 mL
                                                                    694 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: MMV/PSV
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 358 (358 - 561) mL
   PS : 10 cmH2O
   RR (Set): 8
   RR (Spontaneous): 12
   PEEP: 5 cmH2O
   FiO2: 50%
   PIP: 17 cmH2O
   Plateau: 12 cmH2O
   Compliance: 71.4 cmH2O/mL
   SpO2: 100%
   ABG: 7.48/45/187/29/9
   Ve: 9.7 L/min
   PaO2 / FiO2: 374
   Physical Examination
   Gen: Lethargic, not responding to questions.
   HEENT: NC AT, discordant gaze. [**Year (4 digits) **] 4mm, equal and reactive
   bilaterally, EEG leads in place hooked up to EEG machine.
   CV: regular rate & rhythm, no appreciable murmur
   Lungs: scattered ronchi, no wheezing or crackles, breathing comfortably
   Abd: normoactive BS, soft, NT ND
   Skin: no rash or lesions noted
   Ext: warm, no edema
   Neuro: intermittently sleeping, intermittently responding to painful
   stimuli.  Extinguishing clonus in feet bilaterally.
   Labs / Radiology
   417 K/uL
   10.4 g/dL
   111 mg/dL
   0.6 mg/dL
   29 mEq/L
   3.4 mEq/L
   5 mg/dL
   98 mEq/L
   136 mEq/L
   29.1 %
   8.8 K/uL
        [image002.jpg]
                            [**2121-12-30**]  11:40 PM
                            [**2121-12-31**]  04:31 AM
                            [**2122-1-1**]  03:44 AM
                            [**2122-1-1**]  05:31 PM
                            [**2122-1-2**]  02:24 AM
                            [**2122-1-2**]  02:33 AM
                            [**2122-1-2**]  03:10 AM
                            [**2122-1-2**]  05:50 AM
                            [**2122-1-2**]  05:07 PM
                            [**2122-1-3**]  02:01 AM
   WBC
   7.8
   10.1
   11.4
   8.8
   Hct
   27.2
   29.8
   27.7
   29.1
   Plt
   [**Telephone/Fax (3) 3813**]17
   Cr
   0.7
   0.7
   0.6
   0.5
   0.6
   TCO2
   28
   34
   34
   34
   34
   Glucose
   102
   103
   169
   147
   104
   111
   Other labs:
   ALT / AST:155/210, Alk Phos / T Bili:47/0.3,
   Differential-Neuts:84.0 %, Lymph:8.6 %, Mono:6.3 %, Eos:0.7 %,
   Lactic Acid:1.4 mmol/L,
   Ca++:7.8 mg/dL, Mg++:2.3 mg/dL, PO4:2.2 mg/dL
   Repeat LP: Tube 1: 73 WBC, 425 RBC, w/97% lymphocytes.  Tube 4: 59 WBC,
   81 RBC, w/98% lymphs. Prot 21, Glc 69, Gram stain negative for PMNs and
   organisms, negative for cryptococcal Ag.
   UCx negative x3
   BCx [**12-30**]
 [**1-2**] pending
   CMV viral load negative
   Lyme negative
   EBV c/w prior infection
   Toxo negative
   Assessment and Plan
   [**Known firstname 1125**] [**Known lastname 3689**] is 41 yo F with no significant [**Hospital 3690**] transferred from OSH
   with seizure and LP c/w meningitis vs encephalitis.  No clear
   improvement, mental status appears to be stable and depressed.
   Electively intubated on [**12-31**] for airway protection and periods of
   apnea. Neurologic exam otherwise unchanged.  No clear organism.
   .
   # Meningitis vs Encephalitis: thus far seems most c/w viral meningitis
   given lymphocyte predominance and normal protein/glucose on CSF from
   OSH and here.  G-stain from [**Location (un) **] shows no organisms, only polys and
   PCR negative for EBV and enterovirus.  HSV encephalitis is also on ddx
   at this time pending further data from CSF PCR and MRI imaging.  No
   focal neurologic defecits on exam at this time.  Currently covered
   broadly for both bacterial and viral meningitis as well as mycoplasma
   with Vancomycin, Ceftriaxone, Ampicillin, Doxycyclin, and Acyclovir.
   MRI shows increased signal in sulci of unclear significance.  LP and CT
   scan do not show evidence of SAH.  CSF at [**Location (un) **] NOT sent for EEE,
   WNV, CMV because they have no more CSF to send. Collected and ordered
   on CSF from [**1-1**] LP in [**Hospital1 19**] MICU.   OP on repeat LP was 29.
   - f/u lab results from [**Location (un) **]
        - per [**Location (un) **], pending CSF studies are parvovirus B19, HSV VZV and
   final cultures
        - as of [**2122-1-1**], CSF culture data is no growth to date
   - blood and urine cultures still negative
   - serum toxo, lyme, cmv negative; ebv labs show evidence of prior
   infection.
   - labs for other possible causes: bartonella, mycoplasma, LCMV, histo,
   anaplasma, erlichia, WNV, Qfever pending.
   -d/w ID to d/c vanco, possibly other abx?
   -d/c droplet precautions b/c very unlikely bacterial meningitis.
   .
   #Seizure - tonic clonic per report likely [**3-15**] meningitis vs
   encephalitis as above.  Treated with ativan/dilatin at OSH with no
   obvious seizure activity since arrival here although persistant AMS
   possibly [**3-15**] subclinical seizure vs infection.  CT scan reassuring for
   no c-spine fracture or cord compression.  Discussed with EEG attending
   yesterday and no evidence of seizures on EEG monitoring from [**12-30**] or
   am of [**12-31**].  Discussed with neuro and need to resume continuous EEG
   monitoring given that patient still has persistent AMS. Keppra
   increased to [**2113**] [**Hospital1 7**] yesterday.
   -f/u neurology recs
   -continue Keppra (changed from Dilantin on [**2122-1-1**])
   -continuous EEG to evaluate for subclinical seizures
   - change sedation to ativan, fentanyl, give sedation breaks to assess
   MS.
   .
   # Aspiration Pneumonitis
  Now intubated for airway protection.
   Likely aspiration pneumonitis given improvement on CXR today.
   - continue to monitor and wean vent settings as tolerated
   - minimal sedation to assess neuro status
   - continue current antibiotic coverage
   #diarrhea
 antibiotic SE vs CDiff
   -f/u CDiff
   #MRI findings
 enhancement of sulci with ?SAH.  Not seen on CT or LP
   results.  Low likelihood of SAH given CT and LP results.
   .
   #Mild Transaminitis
 Stable today, likely [**3-15**] seizure, though could be
   related to viral infection.  Hepatitis panel shows prior immunization.
   Pt currently on Tylenol.
   - will try Ibuprofen before Tylenol to manage fevers
   -daily LFT's
   - check abdominal u/s.
   .
   #FEN - Tube feeds started yesterday.  Replete lytes PRN
   #PPX: Heparin sc, bowel regimen, contact precautions for r/o cdiff
   # Access: PIV
   # Code: Presumed full
   # Dispo: ICU level of care.
   )
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2122-1-2**] 12:00 PM
   20 Gauge - [**2122-1-2**] 09:47 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2122-01-04 05:16:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 EEG - At [**2122-1-3**] 09:00 AM
   EEG leads reapplied by tech
 ULTRASOUND - At [**2122-1-3**] 11:00 AM
   abd
 URINE CULTURE - At [**2122-1-3**] 11:00 AM
 STOOL CULTURE - At [**2122-1-3**] 01:00 PM
 PICC LINE - START [**2122-1-3**] 04:00 PM
 STOOL CULTURE - At [**2122-1-4**] 12:37 AM
 FEVER - 102.5
F - [**2122-1-3**] 01:30 PM
   - PICC line placed
   - tachycardic to 140s, more alert, bit tongue
   - ~0440 rhythmic L hand movements, lip smacking, spikey EEG? - given
   ativan 2 mg & resolved; another episode later in the am; neuro - ?
   focal motor seizure?
   - Vancomycin stopped
   - lyrica started per neuro recs
   - r/o for respiratory viruses
   - lasix 10 mg IV to diurese
   - changed to fentanyl & ativan boluses for sedation
   - contact precautions pending stool studies
   - contact[**Name (NI) **] dermatologist per husband's request, no procedure performed
   - stool trace guaiac positive
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2122-1-3**] 08:10 PM
   Doxycycline - [**2122-1-3**] 08:11 PM
   Acyclovir - [**2122-1-3**] 10:23 PM
   Ceftriaxone - [**2122-1-3**] 10:23 PM
   Ampicillin - [**2122-1-4**] 12:32 AM
   Infusions:
   Other ICU medications:
   Ranitidine (Prophylaxis) - [**2122-1-3**] 08:00 AM
   Propofol - [**2122-1-3**] 12:00 PM
   Lorazepam (Ativan) - [**2122-1-3**] 03:00 PM
   Furosemide (Lasix) - [**2122-1-3**] 06:00 PM
   Heparin Sodium (Prophylaxis) - [**2122-1-3**] 10:23 PM
   Fentanyl - [**2122-1-4**] 02:34 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2122-1-4**] 05:14 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.2
C (102.5
   Tcurrent: 38.7
C (101.7
   HR: 107 (80 - 134) bpm
   BP: 135/85(95) {104/55(67) - 155/85(118)} mmHg
   RR: 22 (8 - 25) insp/min
   SpO2: 97%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 66 Inch
             Total In:
                                                                  5,757 mL
                                                                    617 mL
   PO:
             TF:
                                                                    456 mL
                                                                    313 mL
   IVF:
                                                                  4,341 mL
                                                                    304 mL
   Blood products:
   Total out:
                                                                  5,500 mL
                                                                    580 mL
   Urine:
                                                                  5,200 mL
                                                                    580 mL
   NG:
   Stool:
                                                                    300 mL
   Drains:
   Balance:
                                                                    257 mL
                                                                     37 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 612 (612 - 612) mL
   PS : 0 cmH2O
   RR (Set): 12
   RR (Spontaneous): 5
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 194
   PIP: 11 cmH2O
   Plateau: 14 cmH2O
   SpO2: 97%
   ABG: ///28/
   Ve: 6.1 L/min
   Physical Examination
   Gen: Lethargic, not responding to questions.
   HEENT: NC AT, discordant gaze. Pupils 4mm, equal and reactive
   bilaterally, EEG leads in place hooked up to EEG machine.
   CV: regular rate & rhythm, no appreciable murmur
   Lungs: scattered ronchi, no wheezing or crackles, breathing comfortably
   Abd: normoactive BS, soft, NT ND
   Skin: no rash or lesions noted
   Ext: warm, no edema
   Neuro: intermittently sleeping, intermittently responding to painful
   stimuli.  Extinguishing clonus in feet bilaterally.
   Labs / Radiology
   340 K/uL
   8.6   g/dL
   113 mg/dL
   0.5 mg/dL
   28 mEq/L
   4.2 mEq/L
   8 mg/dL
   104 mEq/L
   138 mEq/L
   24.5 %
   9.4 K/uL
        [image002.jpg]
                            [**2122-1-1**]  03:44 AM
                            [**2122-1-1**]  05:31 PM
                            [**2122-1-2**]  02:24 AM
                            [**2122-1-2**]  02:33 AM
                            [**2122-1-2**]  03:10 AM
                            [**2122-1-2**]  05:50 AM
                            [**2122-1-2**]  05:07 PM
                            [**2122-1-3**]  02:01 AM
                            [**2122-1-3**]  05:30 AM
                            [**2122-1-3**]  04:15 PM
   WBC
   10.1
   11.4
   8.8
   Hct
   29.8
   27.7
   29.1
   Plt
   [**Telephone/Fax (3) 3842**]
   Cr
   0.7
   0.6
   0.5
   0.6
   0.6
   0.5
   TCO2
   34
   34
   34
   34
   Glucose
   169
   147
   104
   111
   136
   107
   Other labs: PT / PTT / INR:13.7/28.3/1.2, ALT / AST:153/166, Alk Phos /
   T Bili:41/0.2, Ca++:7.7 mg/dL, Mg++:2.3 mg/dL, PO4:2.7 mg/dL
   Micro: Mycoplasma pneumoniae Ab +, CSF cryptococcal Ag negative
   RUQ ultrasound: small gallbladder polyp, liver echotexture wnl w/o
   focal lesion
   Assessment and Plan
   [**Known firstname 1125**] [**Known lastname 3689**] is 41 yo F with no significant [**Hospital 3690**] transferred from OSH
   with seizure and LP c/w meningitis vs encephalitis.  No clear
   improvement, mental status appears to be stable and depressed.
   Electively intubated on [**12-31**] for airway protection and periods of
   apnea.  No clear organism.
   .
   # Meningitis vs Encephalitis: thus far seems most c/w viral meningitis
   given lymphocyte predominance and normal protein/glucose on CSF from
   OSH and here.  G-stain from [**Location (un) **] shows no organisms, only polys and
   PCR negative for EBV and enterovirus.  HSV encephalitis is also on ddx
   at this time pending further data from CSF PCR and MRI imaging.  No
   focal neurologic defecits on exam at this time.  Currently covered
   broadly for both bacterial and viral meningitis as well as mycoplasma
   with Ampicillin, Doxycyclin, and Acyclovir.  MRI shows increased signal
   in sulci of unclear significance.  LP and CT scan do not show evidence
   of SAH.  CSF at [**Location (un) **] NOT sent for EEE, WNV, CMV because they have no
   more CSF to send. Collected and ordered on CSF from [**1-1**] LP in [**Hospital1 19**]
   MICU.   OP on repeat LP was 29.  Vanco stopped [**1-3**] and Ceftriaxone to
   stop [**1-4**] given lack of evidence for bacterial meningitis.
   - f/u lab results from [**Location (un) **]
        - per [**Location (un) **], pending CSF studies are parvovirus B19, HSV VZV and
   final cultures
        - as of [**2122-1-1**], CSF culture data is no growth to date
   - f/u ID recs
   - serum toxo, lyme, cmv negative; ebv labs show evidence of prior
   infection.
   - labs for other possible causes: bartonella, mycoplasma, LCMV, histo,
   anaplasma, erlichia, WNV, Qfever pending.
   - respiratory virus studies pending, will d/c droplet precautions if
   negative.
   .
   #Seizure - tonic clonic per report likely [**3-15**] meningitis vs
   encephalitis as above.  Treated with ativan/dilantin at OSH with no
   obvious seizure activity since arrival here although persistant AMS
   possibly [**3-15**] subclinical seizure vs infection.  CT scan reassuring for
   no c-spine fracture or cord compression.  Discussed with EEG attending
   and no evidence of seizures on EEG monitoring from [**12-30**] or am of
   [**12-31**].  Discussed with neuro and need to resume continuous EEG
   monitoring given that patient still has persistent AMS. On Keppra and
   Lyrica for seizure prophylaxis.  Has had some rhythmic muscle movements
   over the last 24 hours concerning for possible focal motor seizure
   activity per neurology
   -f/u neurology recs
   -continue Keppra (changed from Dilantin on [**2122-1-1**]) & Lyrica (started
   [**1-3**])
   -continuous EEG to evaluate for subclinical seizures
   -ativan prn for presumed forcal motor seziures
   - sedation with ativan & fentanyl, give sedation breaks to assess MS.
   .
   # Aspiration Pneumonitis
  Now intubated for airway protection.
   Likely aspiration pneumonitis given improvement on CXR.
   - continue to monitor and wean vent settings as tolerated
   - minimal sedation to assess neuro status
   - continue current antibiotic coverage
   #diarrhea
 antibiotic side effect vs CDiff
   -f/u stool CDiff
   #MRI findings
 enhancement of sulci with ?SAH.  Not seen on CT or LP
   results.  Low likelihood of SAH given CT and LP results.
   .
   #Mild Transaminitis
 Stable today, likely [**3-15**] seizure, though could be
   related to viral infection.  Hepatitis panel shows prior immunization.
   Pt currently on Tylenol.
   - will try Ibuprofen before Tylenol to manage fevers
   -daily LFT's
   - check abdominal u/s.
   .
   #FEN - Tube feeds started yesterday.  Replete lytes PRN
   #PPX: Heparin sc, bowel regimen, contact precautions for r/o cdiff
   # Access: PIV
   # Code: Presumed full
   # Dispo: ICU level of care.
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2122-1-3**] 12:45 PM 60 mL/hour
   Glycemic Control:
   Lines:
   18 Gauge - [**2122-1-2**] 12:00 PM
   20 Gauge - [**2122-1-2**] 09:47 PM
   PICC Line - [**2122-1-3**] 04:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:
   ------ Protected Section ------
   # Acute hematocrit drop: Unclear source, and repeat hct is also low.
   Patient is trace guaiac positive but no frank blood per rectum
   currently.  Volume status is essentially equivalent to yesterday.
   Patient could be hemolyzing
   - active type & screen
   - check repeat hct in 6 hours
   - consider hemolysis labs
   - would like to avoid transfusion if possible to prevent adding
   confounding factors to current AMS and fever evaluation.
   ------ Protected Section Addendum Entered By:[**Name (NI) 914**] [**Last Name (NamePattern1) 3143**], MD
   on:[**2122-1-4**] 13:06 ------

2122-01-05 05:26:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
          Pt had some neck twitching with staring, not responsive,
   thought to be seizure activity, given Ativan and EEG monitor button
   pushed
          Pt much more alert in evening, answering questions
   appropriately with family present
          Per neuro recs, Lyrica increased to 100mg PO BID, starting
   today
          HCT drop yesterday stable, felt to be secondary to
   phlebotomy, not c/w hemolysis.
          Pt continues to be febrile despite Ibuprofen, cooling
   blankets (no Tylenol)
          Discuss utility of adding Rifampin (ID suggestion) for
   synergy with doxy against coxiella, bartonella
   Also recommended total IgG
 discussed on rounds and felt likely not to
   be helpful
   Call micro lab in AM to send serum VDRL (also felt not to be likely to
   contribute)
   Allergies:
   No Known Drug Allergies
   Antibiotics:
   Vancomycin
   Ceftriaxone
   Doxycycline
   Ampicillin
   Acyclovir
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2122-1-4**] 10:21 PM
   Fentanyl - [**2122-1-5**] 03:30 AM
   Lorazepam (Ativan) - [**2122-1-5**] 04:45 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems: unable to assess
   Flowsheet Data as of  [**2122-1-5**] 05:20 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.1
C (102.3
   Tcurrent: 38.6
C (101.5
   HR: 94 (89 - 160) bpm
   BP: 137/82(94) {105/56(68) - 153/85(99)} mmHg
   RR: 12 (12 - 28) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 66 Inch
             Total In:
                                                                  4,030 mL
                                                                    625 mL
   PO:
             TF:
                                                                  1,440 mL
                                                                    319 mL
   IVF:
                                                                  2,030 mL
                                                                    306 mL
   Blood products:
   Total out:
                                                                  4,015 mL
                                                                    960 mL
   Urine:
                                                                  3,735 mL
                                                                    960 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                     15 mL
                                                                   -333 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 12
   RR (Spontaneous): 5
   PEEP: 5 cmH2O
   FiO2: 40%
   PIP: 15 cmH2O
   Plateau: 14 cmH2O
   SpO2: 100%
   ABG:
   Ve: 6.5 L/min
   Physical Examination
   Gen: Lethargic, opens eyes when asked. In no acute distress
   HEENT: NC AT. Pupils 4mm, equal and reactive bilaterally, EEG leads in
   place.
   CV: regular rate & rhythm, no appreciable murmur
   Lungs: scattered ronchi, no wheezing or crackles, breathing comfortably
   Abd: normoactive BS, soft, NT ND
   Skin: no rash or lesions noted
   Ext: warm, no edema
   Neuro: intermittently sleeping, intermittently responding to painful
   stimuli.  Extinguishing clonus in feet bilaterally. 2+ b/l patellar
   reflexes, 1+ b/l biceps reflexes.
   Labs / Radiology
   392 K/uL
   9.2 g/dL
   113 mg/dL
   0.5 mg/dL
   26 mEq/L
   4.0 mEq/L
   8 mg/dL
   104 mEq/L
   136 mEq/L
   26.3 %
   8.7 K/uL
         [image002.jpg]
                            [**2122-1-2**]  03:10 AM
                            [**2122-1-2**]  05:50 AM
                            [**2122-1-2**]  05:07 PM
                            [**2122-1-3**]  02:01 AM
                            [**2122-1-3**]  05:30 AM
                            [**2122-1-3**]  04:15 PM
                            [**2122-1-4**]  06:12 AM
                            [**2122-1-4**]  08:14 AM
                            [**2122-1-4**]  02:30 PM
                            [**2122-1-5**]  02:44 AM
   WBC
   8.8
   9.4
   8.7
   Hct
   29.1
   24.5
   23.8
   24.2
   26.3
   Plt
   [**Telephone/Fax (3) 3878**]
   Cr
   0.5
   0.6
   0.6
   0.5
   0.5
   0.5
   TCO2
   34
   34
   Glucose
   104
   111
   136
   107
   113
   113
   Other labs:
   Ca++:8.2 mg/dL, Mg++:2.1 mg/dL, PO4:3.4 mg/dL
   ALT: 166 (from 153); AST:130 (from 166); AP 44 (from 41); TBili 0.3 (
   from 0.2)
   Hapto 253, FDP 10-40, Fibrinongen 285
   Micro: BCx: [**12-30**], [**12-31**], [**1-1**] pending; Blood fungal Cx pending
   CDiff negative x3
   RPR negative
   CSF fungal, viral, afb pending
   [**1-3**] sputum gram stain negative for micro-organisms
   Viral nasopharyngeal aspirate negative for viral antigens, viral
   culture pending
   Mycoplasma IgG positive, IgM negative
   Assessment and Plan
   [**Known firstname 1125**] [**Known lastname 3689**] is 41 yo F with no significant [**Hospital 3690**] transferred from OSH
   with seizure and LP c/w meningitis vs encephalitis.  No clear
   improvement, mental status appears to be stable and depressed.
   Electively intubated on [**12-31**] for airway protection and periods of
   apnea.  No clear organism.
   .
   # Meningitis vs Encephalitis: thus far seems most c/w viral meningitis
   given lymphocyte predominance and normal protein/glucose on CSF from
   OSH and here.  G-stain from [**Location (un) **] shows no organisms, only polys and
   PCR negative for EBV and enterovirus.  HSV encephalitis is also on ddx
   at this time pending further data from CSF PCR. Neuro exam inconsistent
   and difficult to assess when patient sedated.  Currently covered
   broadly for both bacterial and viral meningitis as well as mycoplasma
   with Ampicillin, Doxycyclin, and Acyclovir.  Unlikely given 2 LPs with
   lymphocytosis and negative gram stains that patient has a bacterial
   meningitis so ABx can be scaled back.  MRI shows increased signal in
   sulci of unclear significance but c/w SAH.  LP and CT scan do not show
   evidence of SAH.  CSF at [**Location (un) **] NOT sent for EEE, WNV, CMV because
   they had no more CSF to send. Collected and ordered on CSF from [**1-1**]
   LP in [**Hospital1 19**] MICU.   OP on repeat LP was 29.  Vanco stopped [**1-3**] and
   Ceftriaxone to stop [**1-4**] given lack of evidence for bacterial
   meningitis. Ampicillin d/c today.
   - continue doxycycline, acyclovir
   - daily f/u lab results from [**Location (un) **]
        - per [**Location (un) **], pending CSF studies are parvovirus B19, HSV VZV and
   final cultures
        - as of [**2122-1-5**], CSF culture data is no growth to date
   - f/u ID recs.  Will not start rifampin at this time b/c of unclear
   added benefit. ID recommended adding VZV to CSF
 called lab but not
   enough CSF to send.  Also recommended total IgG
 discussed on rounds
   yesterday and felt likely not to be helpful and want to limit
   phlebotomy given patients low Hct.
   - serum toxo, lyme, cmv negative; ebv labs show evidence of prior
   infection, mycoplasma labs show evidence of prior exposure to
   mycoplasma but no active infection.
   - labs for other possible causes: bartonella, LCMV, histo, anaplasma,
   erlichia, WNV, Qfever pending.
   - respiratory virus studies Ag negative, can d/c droplet precautions.
   .
   #Seizure - tonic clonic per report likely [**3-15**] meningitis vs
   encephalitis as above.  Treated with ativan/dilantin at OSH with no
   obvious seizure activity since arrival here although persistant AMS
   possibly [**3-15**] subclinical seizure vs infection.  CT scan reassuring for
   no c-spine fracture or cord compression.  Discussed with EEG attending
   and no evidence of seizures on EEG monitoring from [**12-30**] or am of
   [**12-31**].  Discussed with neuro and need to resume continuous EEG
   monitoring given that patient still has persistent AMS. On Keppra and
   Lyrica for seizure prophylaxis.  Has had some rhythmic muscle movements
   over the last 24 hours concerning for possible focal motor seizure
   activity per neurology. As per neurology recs, should d/c keppra and
   load w/phosphenytoin. Should check phenytoin level 1 hr after load.
   -f/u neurology recs
   -continue Lyrica (started [**1-3**])
   - d/c Keppra
   - phosphenytoin load, check level 1 hr later
   -continuous EEG to evaluate for subclinical seizures
   -ativan prn for presumed forcal motor seziures
   - sedation with ativan & fentanyl, give sedation breaks to assess MS.
   .
   # Aspiration Pneumonitis
 Now intubated for airway protection.  Likely
   aspiration pneumonitis given improvement on CXR, clinically.
   - continue to monitor and wean vent settings as tolerated
   - minimal sedation to assess neuro status
   - continue current antibiotic coverage
   .
   #Diarrhea
 CDiff negative x3.  Could be med SE.  Will hopefully clear
   up now that most antibiotics are d/c. Bowel regimen is prn.
   .
   #MRI findings
 enhancement of sulci with ?SAH.  Not seen on CT or LP
   results.  Low likelihood of SAH given CT and LP results.
   .
   # [**Name (NI) 3899**]
 Unclear etiology but relatively stable today.
   Hepatitis panel shows prior immunization.  Tylenol d/c. did not improve
   when dilantin was d/c earlier so likely not due to dilantin. Could be
   SE from other medicine. Abdominal u/s normal (small inconsequential
   polyp in GB).
   - will try Ibuprofen before Tylenol to manage fevers
   - daily LFT's
   .
   #FEN - Tube feeds.  Replete lytes PRN
   #PPX: Heparin sc, bowel regimen prn, pneumoboots, ranitidine.
   # Access: PICC
   # Code: Full
   # Dispo: ICU level of care.
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2122-1-5**] 12:18 AM 60 mL/hour
   Glycemic Control:
   Lines:
   20 Gauge - [**2122-1-2**] 09:47 PM
   PICC Line - [**2122-1-3**] 04:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2122-01-05 12:55:00 Physician Attending Progress Note
Chief Complaint: status epilepticus
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   41 yo physician, [**Name10 (NameIs) 3889**] to be post-ictal at OSH.  Came to ED LP with
   lymphocytic predominance.  Very poor MS.  MRI with ? of SAH.  Has been
   on EEG monitoring, increasing doses of keppra and lyrica.  Most recent
   EEG eval by neuro with monitor shows left temporal and right frontal
   seizures not seen clinically.  Is also having apparent right facial
   twitching seizures that are different from them.    Has been
   intubated.  Impression is that she had viral encephalitis with unclear
   cause.  Has had cooling blanket for fevers.
   24 Hour Events:
 STOOL CULTURE - At [**2122-1-4**] 03:00 PM
   c-diff
 FEVER - 102.3
F - [**2122-1-5**] 01:00 AM
   Continued seizure activity
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2122-1-3**] 08:10 PM
   Ceftriaxone - [**2122-1-4**] 09:27 AM
   Acyclovir - [**2122-1-5**] 06:12 AM
   Doxycycline - [**2122-1-5**] 08:30 AM
   Ampicillin - [**2122-1-5**] 12:01 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2122-1-4**] 10:21 PM
   Fentanyl - [**2122-1-5**] 08:30 AM
   Lorazepam (Ativan) - [**2122-1-5**] 09:00 AM
   Other medications:
   ranitidine
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2122-1-5**] 12:55 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.1
C (102.3
   Tcurrent: 38.4
C (101.2
   HR: 90 (90 - 160) bpm
   BP: 128/69(82) {105/56(68) - 153/85(99)} mmHg
   RR: 23 (12 - 28) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 66 Inch
             Total In:
                                                                  4,030 mL
                                                                  1,848 mL
   PO:
             TF:
                                                                  1,440 mL
                                                                    756 mL
   IVF:
                                                                  2,030 mL
                                                                  1,002 mL
   Blood products:
   Total out:
                                                                  4,015 mL
                                                                  2,450 mL
   Urine:
                                                                  3,735 mL
                                                                  2,450 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                     15 mL
                                                                   -602 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 12
   RR (Spontaneous): 5
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 126
   PIP: 19 cmH2O
   Plateau: 14 cmH2O
   SpO2: 100%
   ABG: ///26/
   Ve: 9.8 L/min
   Physical Examination
   General Appearance: No acute distress, Thin
   Eyes / Conjunctiva: PERRL
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed, opened eyes to voice, closed eyes on commands but did not
   move limbs.
   Labs / Radiology
   9.2 g/dL
   392 K/uL
   113 mg/dL
   0.5 mg/dL
   26 mEq/L
   4.0 mEq/L
   8 mg/dL
   104 mEq/L
   136 mEq/L
   26.3 %
   8.7 K/uL
        [image002.jpg]
                            [**2122-1-2**]  03:10 AM
                            [**2122-1-2**]  05:50 AM
                            [**2122-1-2**]  05:07 PM
                            [**2122-1-3**]  02:01 AM
                            [**2122-1-3**]  05:30 AM
                            [**2122-1-3**]  04:15 PM
                            [**2122-1-4**]  06:12 AM
                            [**2122-1-4**]  08:14 AM
                            [**2122-1-4**]  02:30 PM
                            [**2122-1-5**]  02:44 AM
   WBC
   8.8
   9.4
   8.7
   Hct
   29.1
   24.5
   23.8
   24.2
   26.3
   Plt
   [**Telephone/Fax (3) 3878**]
   Cr
   0.5
   0.6
   0.6
   0.5
   0.5
   0.5
   TCO2
   34
   34
   Glucose
   104
   111
   136
   107
   113
   113
   Other labs: PT / PTT / INR:13.7/28.3/1.2, ALT / AST:166/130, Alk Phos /
   T Bili:44/0.3, Differential-Neuts:84.0 %, Lymph:8.6 %, Mono:6.3 %,
   Eos:0.7 %, Fibrinogen:285 mg/dL, Lactic Acid:1.4 mmol/L, Albumin:3.1
   g/dL, LDH:476 IU/L, Ca++:8.2 mg/dL, Mg++:2.1 mg/dL, PO4:3.4 mg/dL
   Assessment and Plan
 [**Last Name 12**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**]):  Due to status epilepticus
   Status epilepticus.
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
 HYPOKALEMIA (LOW POTASSIUM, HYPOPOTASSEMIA)
 ALTERED MENTAL STATUS (NOT DELIRIUM)
   Most likely viral meningoencephalitis with some breakthrough seizures.
   On Keppra.  Neuro recommends restarting dilantin, follow LFTs
   closely.   D/C amp.
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2122-1-5**] 12:18 AM 60 mL/hour
   Glycemic Control:
   Lines:
   20 Gauge - [**2122-1-2**] 09:47 PM
   PICC Line - [**2122-1-3**] 04:00 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2122-01-06 05:35:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 FEVER - 102.2
F - [**2122-1-5**] 04:00 PM
     * [**Location (un) **] results: CSF neg for VZV, HSV, enterovirus; Bacterial Cx 0
       growth at 3 days. EBV (CSF? serum?) negative
     * Phosphenytoin loaded: Dilantin level 15.9 but pt still w/seizures,
       gave additional Dilantin 100mg, now will repeat Q8h w/ativan prn.
     * Having facial seizures that don't show on EEG, EEG seizures that
       don't clinically manifest.
     * Intermittently awake, can blink eyes but cannot move hands/legs
     * Started Midazolam 0.1mg/kg x1dose followed by 0.1mg/kg/hr until
       tomorrow am, then will reassess.
     * Fever curve improved
 temp 99.3 this am
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2122-1-3**] 08:10 PM
   Ceftriaxone - [**2122-1-4**] 09:27 AM
   Ampicillin - [**2122-1-5**] 12:01 PM
   Doxycycline - [**2122-1-5**] 08:02 PM
   Acyclovir - [**2122-1-5**] 10:00 PM
   Infusions:
   Midazolam (Versed) - 8 mg/hour
   Other ICU medications:
   Fentanyl - [**2122-1-5**] 08:30 AM
   Ranitidine (Prophylaxis) - [**2122-1-5**] 08:01 PM
   Lorazepam (Ativan) - [**2122-1-5**] 08:15 PM
   Heparin Sodium (Prophylaxis) - [**2122-1-5**] 09:56 PM
   Midazolam (Versed) - [**2122-1-6**] 02:44 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2122-1-6**] 05:34 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39
C (102.2
   Tcurrent: 37.4
C (99.3
   HR: 77 (77 - 115) bpm
   BP: 105/60(70) {101/55(65) - 133/78(88)} mmHg
   RR: 12 (12 - 27) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 66 Inch
             Total In:
                                                                  3,440 mL
                                                                    570 mL
   PO:
             TF:
                                                                  1,440 mL
                                                                    334 mL
   IVF:
                                                                  1,780 mL
                                                                    196 mL
   Blood products:
   Total out:
                                                                  4,205 mL
                                                                    570 mL
   Urine:
                                                                  4,205 mL
                                                                    570 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -765 mL
                                                                      0 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 12
   RR (Spontaneous): 15
   PEEP: 5 cmH2O
   FiO2: 40%
   PIP: 19 cmH2O
   Plateau: 14 cmH2O
   SpO2: 100%
   ABG: ///28/
   Ve: 9.7 L/min
   Physical Examination
   Gen: Lethargic, opens eyes when asked. In no acute distress
   HEENT: NC AT. Pupils 4mm, equal and reactive bilaterally, EEG leads in
   place.
   CV: regular rate & rhythm, no appreciable murmur
   Lungs: scattered ronchi, no wheezing or crackles, breathing comfortably
   Abd: normoactive BS, soft, NT ND
   Skin: no rash or lesions noted
   Ext: warm, no edema
   Neuro: intermittently sleeping, intermittently responding to painful
   stimuli.  Extinguishing clonus in feet bilaterally. 2+ b/l patellar
   reflexes, 1+ b/l biceps reflexes.
   Labs / Radiology
   375 K/uL
   9.4 g/dL
   110 mg/dL
   0.5 mg/dL
   28 mEq/L
   3.7 mEq/L
   10 mg/dL
   104 mEq/L
   139 mEq/L
   26.6 %
   10.0 K/uL
        [image002.jpg]
                            [**2122-1-2**]  05:50 AM
                            [**2122-1-2**]  05:07 PM
                            [**2122-1-3**]  02:01 AM
                            [**2122-1-3**]  05:30 AM
                            [**2122-1-3**]  04:15 PM
                            [**2122-1-4**]  06:12 AM
                            [**2122-1-4**]  08:14 AM
                            [**2122-1-4**]  02:30 PM
                            [**2122-1-5**]  02:44 AM
                            [**2122-1-6**]  03:45 AM
   WBC
   8.8
   9.4
   8.7
   10.0
   Hct
   29.1
   24.5
   23.8
   24.2
   26.3
   26.6
   Plt
   [**Telephone/Fax (3) 3904**]75
   Cr
   0.5
   0.6
   0.6
   0.5
   0.5
   0.5
   0.5
   TCO2
   34
   Glucose
   104
   111
   136
   107
   113
   113
   110
   Other labs: PT / PTT / INR:14.0/31.0/1.2, ALT / AST:154/79, Alk Phos /
   T Bili:43/0.2, Differential-Neuts:84.0 %, Lymph:8.6 %, Mono:6.3 %,
   Eos:0.7 %, Fibrinogen:285 mg/dL, Lactic Acid:1.4 mmol/L, Albumin:3.1
   g/dL, LDH:476 IU/L, Ca++:8.3 mg/dL, Mg++:2.0 mg/dL, PO4:4.2 mg/dL
   Assessment and Plan
   [**Known firstname 1125**] [**Known lastname 3689**] is 41 yo F with no significant [**Hospital 3690**] transferred from OSH
   with seizure and LP c/w meningitis vs encephalitis.  No clear
   improvement, mental status appears to be stable and depressed.
   Electively intubated on [**12-31**] for airway protection and periods of
   apnea.  No clear organism.
   .
   # Meningitis vs Encephalitis: thus far seems most c/w viral meningitis
   given lymphocyte predominance and normal protein/glucose on CSF from
   OSH and here.  G-stain from [**Location (un) **] shows no organisms, only polys and
   PCR negative for EBV and enterovirus.  HSV encephalitis is also on ddx
   at this time pending further data from CSF PCR. Neuro exam inconsistent
   and difficult to assess when patient sedated.  Currently covered
   broadly for both bacterial and viral meningitis as well as mycoplasma
   with Ampicillin, Doxycyclin, and Acyclovir.  Unlikely given 2 LPs with
   lymphocytosis and negative gram stains that patient has a bacterial
   meningitis so ABx can be scaled back.  MRI shows increased signal in
   sulci of unclear significance but c/w SAH.  LP and CT scan do not show
   evidence of SAH.  CSF at [**Location (un) **] NOT sent for EEE, WNV, CMV because
   they had no more CSF to send. Collected and ordered on CSF from [**1-1**]
   LP in [**Hospital1 19**] MICU.   OP on repeat LP was 29.  Vanco stopped [**1-3**] and
   Ceftriaxone to stop [**1-4**] given lack of evidence for bacterial
   meningitis. Ampicillin d/c today.
   - continue doxycycline, acyclovir
   - daily f/u lab results from [**Location (un) **]
        - per [**Location (un) **], pending CSF studies are parvovirus B19, HSV VZV and
   final cultures
        - as of [**2122-1-5**], CSF culture data is no growth to date
   - f/u ID recs.  Will not start rifampin at this time b/c of unclear
   added benefit. ID recommended adding VZV to CSF
 called lab but not
   enough CSF to send.  Also recommended total IgG
 discussed on rounds
   yesterday and felt likely not to be helpful and want to limit
   phlebotomy given patients low Hct.
   - serum toxo, lyme, cmv negative; ebv labs show evidence of prior
   infection, mycoplasma labs show evidence of prior exposure to
   mycoplasma but no active infection.
   - labs for other possible causes: bartonella, LCMV, histo, anaplasma,
   erlichia, WNV, Qfever pending.
   - respiratory virus studies Ag negative, can d/c droplet precautions.
   .
   #Seizure - tonic clonic per report likely [**3-15**] meningitis vs
   encephalitis as above.  Treated with ativan/dilantin at OSH with no
   obvious seizure activity since arrival here although persistant AMS
   possibly [**3-15**] subclinical seizure vs infection.  CT scan reassuring for
   no c-spine fracture or cord compression.  Discussed with EEG attending
   and no evidence of seizures on EEG monitoring from [**12-30**] or am of
   [**12-31**].  Discussed with neuro and need to resume continuous EEG
   monitoring given that patient still has persistent AMS. On Keppra and
   Lyrica for seizure prophylaxis.  Has had some rhythmic muscle movements
   over the last 24 hours concerning for possible focal motor seizure
   activity per neurology. As per neurology recs, should d/c keppra and
   load w/phosphenytoin. Should check phenytoin level 1 hr after load.
   -f/u neurology recs
   -continue Lyrica (started [**1-3**])
   - d/c Keppra
   - phosphenytoin load, check level 1 hr later
   -continuous EEG to evaluate for subclinical seizures
   -ativan prn for presumed forcal motor seziures
   - sedation with ativan & fentanyl, give sedation breaks to assess MS.
   .
   # Aspiration Pneumonitis
 Now intubated for airway protection.  Likely
   aspiration pneumonitis given improvement on CXR, clinically.
   - continue to monitor and wean vent settings as tolerated
   - minimal sedation to assess neuro status
   - continue current antibiotic coverage
   .
   #Diarrhea
 CDiff negative x3.  Could be med SE.  Will hopefully clear
   up now that most antibiotics are d/c. Bowel regimen is prn.
   .
   #MRI findings
 enhancement of sulci with ?SAH.  Not seen on CT or LP
   results.  Low likelihood of SAH given CT and LP results.
   .
   # [**Name (NI) 3899**]
 Unclear etiology but relatively stable today.
   Hepatitis panel shows prior immunization.  Tylenol d/c. did not improve
   when dilantin was d/c earlier so likely not due to dilantin. Could be
   SE from other medicine. Abdominal u/s normal (small inconsequential
   polyp in GB).
   - will try Ibuprofen before Tylenol to manage fevers
   - daily LFT's
   .
   #FEN - Tube feeds.  Replete lytes PRN
   #PPX: Heparin sc, bowel regimen prn, pneumoboots, ranitidine.
   # Access: PICC
   # Code: Full
   # Dispo: ICU level of care.
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2122-1-5**] 11:38 PM 60 mL/hour
   Glycemic Control:
   Lines:
   20 Gauge - [**2122-1-2**] 09:47 PM
   PICC Line - [**2122-1-3**] 04:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2122-01-06 10:40:00 Physician Attending Progress Note
Chief Complaint: respiratory failure
   I saw and examined the patient, and was physically present with the
   for key portions of the services provided.  I agree with his / her note
   above, including assessment and plan.
   HPI:
   41 yo women with encephalitis, seizures with status.
   24 Hour Events:
 FEVER - 102.2
F - [**2122-1-5**] 04:00 PM
   OSH CSF results negative for enterovirus, VZV, HSV.
   Loaded on dilantin yesterday, still having seizures (neck and mouth
   twitching).  Started on versed.
   Fever down today.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2122-1-3**] 08:10 PM
   Ceftriaxone - [**2122-1-4**] 09:27 AM
   Ampicillin - [**2122-1-5**] 12:01 PM
   Acyclovir - [**2122-1-6**] 05:47 AM
   Doxycycline - [**2122-1-6**] 08:04 AM
   Infusions:
   Midazolam (Versed) - 8 mg/hour
   Other ICU medications:
   Ranitidine (Prophylaxis) - [**2122-1-5**] 08:01 PM
   Lorazepam (Ativan) - [**2122-1-5**] 08:15 PM
   Midazolam (Versed) - [**2122-1-6**] 02:44 AM
   Heparin Sodium (Prophylaxis) - [**2122-1-6**] 05:46 AM
   Fosphenytoin - [**2122-1-6**] 09:30 AM
   Other medications:
   zantac
   doxycycline
   keppra
   dilantin
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2122-1-6**] 10:40 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39
C (102.2
   Tcurrent: 36.7
C (98
   HR: 98 (71 - 115) bpm
   BP: 110/65(76) {91/54(63) - 133/78(87)} mmHg
   RR: 21 (12 - 27) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 66 Inch
             Total In:
                                                                  3,440 mL
                                                                  1,559 mL
   PO:
             TF:
                                                                  1,440 mL
                                                                    626 mL
   IVF:
                                                                  1,780 mL
                                                                    633 mL
   Blood products:
   Total out:
                                                                  4,205 mL
                                                                  1,235 mL
   Urine:
                                                                  4,205 mL
                                                                  1,235 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -765 mL
                                                                    324 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 418 (418 - 418) mL
   PS : 0 cmH2O
   RR (Set): 12
   RR (Spontaneous): 17
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 63
   PIP: 13 cmH2O
   Plateau: 14 cmH2O
   SpO2: 100%
   ABG: ///28/
   Ve: 8.4 L/min
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent
   Musculoskeletal: Unable to stand
   Skin:  Warm, No(t) Rash:
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   9.4 g/dL
   375 K/uL
   110 mg/dL
   0.5 mg/dL
   28 mEq/L
   3.7 mEq/L
   10 mg/dL
   104 mEq/L
   139 mEq/L
   26.6 %
   10.0 K/uL
        [image002.jpg]
                            [**2122-1-2**]  05:50 AM
                            [**2122-1-2**]  05:07 PM
                            [**2122-1-3**]  02:01 AM
                            [**2122-1-3**]  05:30 AM
                            [**2122-1-3**]  04:15 PM
                            [**2122-1-4**]  06:12 AM
                            [**2122-1-4**]  08:14 AM
                            [**2122-1-4**]  02:30 PM
                            [**2122-1-5**]  02:44 AM
                            [**2122-1-6**]  03:45 AM
   WBC
   8.8
   9.4
   8.7
   10.0
   Hct
   29.1
   24.5
   23.8
   24.2
   26.3
   26.6
   Plt
   [**Telephone/Fax (3) 3904**]75
   Cr
   0.5
   0.6
   0.6
   0.5
   0.5
   0.5
   0.5
   TCO2
   34
   Glucose
   104
   111
   136
   107
   113
   113
   110
   Other labs: PT / PTT / INR:14.0/31.0/1.2, ALT / AST:154/79, Alk Phos /
   T Bili:43/0.2, Differential-Neuts:84.0 %, Lymph:8.6 %, Mono:6.3 %,
   Eos:0.7 %, Fibrinogen:285 mg/dL, Lactic Acid:1.4 mmol/L, Albumin:3.1
   g/dL, LDH:476 IU/L, Ca++:8.3 mg/dL, Mg++:2.0 mg/dL, PO4:4.2 mg/dL
   Assessment and Plan
 [**Last Name 12**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**]):  Tried PSV, became apneic
   after a while, so not ready to wean yet.
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
 HYPOKALEMIA (LOW POTASSIUM, HYPOPOTASSEMIA)
   Encephalitis:  Studies thus far negative.  Being treated for treatable
   causes of encephalitis.
   Seizures with status:  Still having episodic twitching.
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2122-1-5**] 11:38 PM 60 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2122-1-3**] 04:00 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2122-01-07 05:14:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - still seizing, dilantin bolus, versed increased, patient more alert
   - MRI/MRV ordered per ID recs & d/w neuro
   - need to ask neuro attending to speak with husband re paraneoplastic
   workup
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2122-1-4**] 09:27 AM
   Ampicillin - [**2122-1-5**] 12:01 PM
   Doxycycline - [**2122-1-6**] 08:00 PM
   Acyclovir - [**2122-1-6**] 10:15 PM
   Infusions:
   Midazolam (Versed) - 14 mg/hour
   Other ICU medications:
   Fosphenytoin - [**2122-1-6**] 05:05 PM
   Heparin Sodium (Prophylaxis) - [**2122-1-6**] 10:00 PM
   Fentanyl - [**2122-1-7**] 04:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Nodded yes to abdominal pain
   Flowsheet Data as of  [**2122-1-7**] 05:13 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100
   Tcurrent: 37.2
C (99
   HR: 85 (69 - 101) bpm
   BP: 97/59(67) {82/44(52) - 119/72(87)} mmHg
   RR: 16 (12 - 22) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 66 Inch
             Total In:
                                                                  3,660 mL
                                                                    568 mL
   PO:
             TF:
                                                                  1,440 mL
                                                                    313 mL
   IVF:
                                                                  1,870 mL
                                                                    225 mL
   Blood products:
   Total out:
                                                                  3,155 mL
                                                                    425 mL
   Urine:
                                                                  3,155 mL
                                                                    425 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    505 mL
                                                                    143 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 418 (418 - 418) mL
   PS : 0 cmH2O
   RR (Set): 12
   RR (Spontaneous): 8
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 168
   RSBI Deferred: Agitated
   PIP: 18 cmH2O
   Plateau: 14 cmH2O
   SpO2: 100%
   ABG: ///27/
   Ve: 11.7 L/min
   Physical Examination
   Gen: Lethargic, opens eyes spontaneously. In no acute distress, follows
   commands to wiggle toes and squeeze fingers.
   HEENT: NC AT. Pupils 4mm, equal and reactive bilaterally, EEG leads in
   place.
   CV: regular rate & rhythm, no appreciable murmur
   Lungs: CTAB anteriorly, breathing comfortably
   Abd: normoactive BS, soft, NT ND
   Skin: no rash or lesions noted
   Ext: warm, no edema
   Neuro: Opens eyes to voice, closes eyes on command, nods in response to
   questions; moving hands or feet on command. EOMI. + horizontal
   nystagmus bilaterally.
   Labs / Radiology
   375 K/uL
   9.5 g/dL
   115 mg/dL
   0.5 mg/dL
   27 mEq/L
   4.0 mEq/L
   11 mg/dL
   107 mEq/L
   142 mEq/L
   27.9 %
   7.1 K/uL
        [image002.jpg]
                            [**2122-1-2**]  05:07 PM
                            [**2122-1-3**]  02:01 AM
                            [**2122-1-3**]  05:30 AM
                            [**2122-1-3**]  04:15 PM
                            [**2122-1-4**]  06:12 AM
                            [**2122-1-4**]  08:14 AM
                            [**2122-1-4**]  02:30 PM
                            [**2122-1-5**]  02:44 AM
                            [**2122-1-6**]  03:45 AM
                            [**2122-1-7**]  03:00 AM
   WBC
   8.8
   9.4
   8.7
   10.0
   7.1
   Hct
   29.1
   24.5
   23.8
   24.2
   26.3
   26.6
   27.9
   Plt
   [**Telephone/Fax (3) 3904**]75
   375
   Cr
   0.5
   0.6
   0.6
   0.5
   0.5
   0.5
   0.5
   0.5
   Glucose
   104
   111
   136
   107
   113
   113
   110
   115
   Other labs: PT / PTT / INR:14.0/31.0/1.2, ALT / AST:129/49, Alk Phos /
   T Bili:43/0.2, Differential-Neuts:84.0 %, Lymph:8.6 %, Mono:6.3 %,
   Eos:0.7 %, Fibrinogen:285 mg/dL, Lactic Acid:1.4 mmol/L, Albumin:3.1
   g/dL, LDH:476 IU/L, Ca++:8.6 mg/dL, Mg++:2.1 mg/dL, PO4:4.2 mg/dL
   Assessment and Plan
   [**Known firstname 1125**] [**Known lastname 3689**] is 41 yo F with no significant [**Hospital 3690**] transferred from OSH
   with seizure and LP c/w meningoencephalitis.  Now with  clear
   improvement, mental status appears to be improving.  Electively
   intubated on [**12-31**] for airway protection and periods of apnea. HSV
   pending at [**Location (un) **], negative at [**Hospital1 19**].
   .
   # Meningitis vs Encephalitis: Clinical picture most consistent with
   viral meningoencephalitis given lymphocyte predominance and normal
   protein/glucose on CSF from OSH and here. So far HSV PCR, bartonella,
   respiratory viruses, RPR are negative so far. CSF Cx and Bcx are
   pending.  [**Month (only) 51**] be consistent with west [**Doctor First Name **] encephalitis given flaccid
   paralysis.
   - continue doxycycline and acyclovir d/c acyclovir if MRI is
   reassuring.
   - continue to supportive care
   - f/u ID recs
   .
   #Seizures: Per neuro yesterday ([**1-5**]) patient was continuing to have
   seizures on EEG that were not apparent clinically as well as focal
   motor seizures that were not registering on EEG.  Continuing Keppra,
   Lyrica was stopped, patient was reloaded with Dilantin (therapeutic
   level overnight), and versed drip started to control seizure activity.
    Per neuro, EEG is now improved.  Patient is more alert and responding
   to team this morning, but not able to move extremities on command.
   - continuous EEG to evaluate for subclinical seizures
   - sedation with ativan & fentanyl, give sedation breaks to assess MS.
   .
   # Intubation
 Patient was intubated for airway protection (copious
   secretions) and periods of apnea.  Secretions improved, though patient
   continues to have periods of apnea.
   - continue to monitor and wean vent settings as tolerated with daily
   PSV trials
   - minimize sedation as tolerated while still suppressing seizures to
   assess neuro status
   .
   # [**Name (NI) 3899**]
 Unclear etiology but trending downward.  Hepatitis
   panel shows prior immunization.  Tylenol d/c. Abdominal u/s normal
   (small inconsequential polyp in GB).
   - Ibuprofen for  fevers
   - cont. to monitor LFT's while on Dilantin.
   .
   #FEN - Tube feeds.  Replete lytes PRN
   #PPX: Heparin sc, bowel regimen prn, pneumoboots, ranitidine.
   # Access: PICC
   # Code: Full
   # Dispo: ICU level of care.
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2122-1-6**] 10:57 PM 60 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2122-1-3**] 04:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2122-01-07 10:56:00 Physician Attending Progress Note
Chief Complaint: encephalitis
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   41 yo women with encephalitis, status epilepticus.
   24 Hour Events:
   Versed increased overnight because of seizures.  Dilantin was
   rebolused.
   Seizure activity diminished.
   Patient unable to provide history: Sedated, Encephalopathy
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ampicillin - [**2122-1-5**] 12:01 PM
   Acyclovir - [**2122-1-7**] 06:00 AM
   Doxycycline - [**2122-1-7**] 08:00 AM
   Infusions:
   Midazolam (Versed) - 14 mg/hour
   Other ICU medications:
   Fosphenytoin - [**2122-1-6**] 05:05 PM
   Fentanyl - [**2122-1-7**] 04:00 AM
   Heparin Sodium (Prophylaxis) - [**2122-1-7**] 06:00 AM
   Other medications:
   zantac
   kepra
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2122-1-7**] 10:55 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100.1
   Tcurrent: 37.8
C (100.1
   HR: 112 (69 - 112) bpm
   BP: 111/65(76) {82/44(52) - 119/72(87)} mmHg
   RR: 18 (12 - 22) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 66 Inch
             Total In:
                                                                  3,660 mL
                                                                  1,561 mL
   PO:
             TF:
                                                                  1,440 mL
                                                                    636 mL
   IVF:
                                                                  1,870 mL
                                                                    804 mL
   Blood products:
   Total out:
                                                                  3,155 mL
                                                                    540 mL
   Urine:
                                                                  3,155 mL
                                                                    540 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    505 mL
                                                                  1,021 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 12
   RR (Spontaneous): 8
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 168
   RSBI Deferred: Agitated
   PIP: 19 cmH2O
   Plateau: 13 cmH2O
   SpO2: 100%
   ABG: ///27/
   Ve: 11.7 L/min
   Physical Examination
   General Appearance: No acute distress
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Clear : b/l)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent
   Musculoskeletal: Unable to stand
   Skin:  Warm, No(t) Rash:
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed, moving hands and
   toes on command
   Labs / Radiology
   9.5 g/dL
   375 K/uL
   115 mg/dL
   0.5 mg/dL
   27 mEq/L
   4.0 mEq/L
   11 mg/dL
   107 mEq/L
   142 mEq/L
   27.9 %
   7.1 K/uL
        [image002.jpg]
                            [**2122-1-2**]  05:07 PM
                            [**2122-1-3**]  02:01 AM
                            [**2122-1-3**]  05:30 AM
                            [**2122-1-3**]  04:15 PM
                            [**2122-1-4**]  06:12 AM
                            [**2122-1-4**]  08:14 AM
                            [**2122-1-4**]  02:30 PM
                            [**2122-1-5**]  02:44 AM
                            [**2122-1-6**]  03:45 AM
                            [**2122-1-7**]  03:00 AM
   WBC
   8.8
   9.4
   8.7
   10.0
   7.1
   Hct
   29.1
   24.5
   23.8
   24.2
   26.3
   26.6
   27.9
   Plt
   [**Telephone/Fax (3) 3904**]75
   375
   Cr
   0.5
   0.6
   0.6
   0.5
   0.5
   0.5
   0.5
   0.5
   Glucose
   104
   111
   136
   107
   113
   113
   110
   115
   Other labs: PT / PTT / INR:14.0/31.0/1.2, ALT / AST:129/49, Alk Phos /
   T Bili:43/0.2, Differential-Neuts:84.0 %, Lymph:8.6 %, Mono:6.3 %,
   Eos:0.7 %, Fibrinogen:285 mg/dL, Lactic Acid:1.4 mmol/L, Albumin:3.1
   g/dL, LDH:476 IU/L, Ca++:8.6 mg/dL, Mg++:2.1 mg/dL, PO4:4.2 mg/dL
   Fluid analysis / Other labs: dilantin 11
   Microbiology: RPR neg
   C. Diff neg
   HSV PCR negative
   histo negative
   bartonella negative
   Assessment and Plan
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])  Tried on PSV today and
   looks good, will try to switch her over.
   Encephalitis:  Improving fever curve.  More awake, now moving all
   limbs.  On dilantin, but lower end of therapeutic scale, LFTs stable.
   Will discuss with neuro re: switching to phenobarb.
   Will discuss with ID and neuro re: need for MRI given clinical
   improvement.
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2122-1-6**] 10:57 PM 60 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2122-1-3**] 04:00 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2122-01-08 05:43:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
          MAGNETIC RESONANCE IMAGING/MRV done
 prelim read back
          Failed SBT (apneic)
          Started Phenobarbital 5mg/kg x 4 doses and then wean
   midazolam after phenobarbital is loaded per neuron
   Allergies:
   No Known Drug Allergies
   Antibiotics:
   Doxycycline
   Acyclovir
   Infusions:
   Midazolam (Versed) - 10 mg/hour
   Other ICU medications:
   Fentanyl - [**2122-1-7**] 09:27 PM
   Heparin Sodium (Prophylaxis) - [**2122-1-7**] 10:27 PM
   Midazolam (Versed) - [**2122-1-7**] 10:30 PM
   Fosphenytoin - [**2122-1-8**] 12:23 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems: patient denies pain
   Flowsheet Data as of  [**2122-1-8**] 05:41 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.3
   Tcurrent: 36.4
C (97.5
   HR: 87 (80 - 117) bpm
   BP: 93/43(54) {93/43(54) - 130/78(89)} mmHg
   RR: 18 (12 - 21) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 66 Inch
             Total In:
                                                                  2,449 mL
                                                                    592 mL
   PO:
             TF:
                                                                    479 mL
   IVF:
                                                                  1,700 mL
                                                                    592 mL
   Blood products:
   Total out:
                                                                  2,210 mL
                                                                    540 mL
   Urine:
                                                                  2,210 mL
                                                                    540 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    239 mL
                                                                     52 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 12
   RR (Spontaneous): 5
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 87
   PIP: 17 cmH2O
   Plateau: 13 cmH2O
   Compliance: 62.5 cmH2O/mL
   SpO2: 100%
   ABG:
   Ve: 8.6 L/min
   Physical Examination
   Gen: Awake, alert. Appears uncomfortable but denies pain.
   HEENT: NCAT. Pupils 4mm, equal and reactive bilaterally, EOM intact.
   Anicteric sclera. EEG leads in place.
   Neck: limited ROM.
   CV: regular rate & rhythm, no appreciable murmur
   Lungs: CTAB anteriorly, breathing comfortably
   Abd: normoactive BS, soft, NT ND
   Skin: no rash or lesions noted
   Ext: warm, no edema
   Neuro: Opens eyes spontaneously, smiles and reacts appropriately to
   comments/questions.  Closes eyes on command, nods in response to
   questions; moving hands very slightly and feet (more than hands) on
   command. 3+ reflexes B/L LE and 1+reflexes B/L UE.  Extinguishing
   clonus B/L.
   Labs / Radiology
   353
   8.8
   97
   0.5 mg/dL
   27 mEq/L
   3.7
   11 mg/dL
   108
   139
   24.3
   5.9
        [image002.jpg]
                            [**2122-1-2**]  05:07 PM
                            [**2122-1-3**]  02:01 AM
                            [**2122-1-3**]  05:30 AM
                            [**2122-1-3**]  04:15 PM
                            [**2122-1-4**]  06:12 AM
                            [**2122-1-4**]  08:14 AM
                            [**2122-1-4**]  02:30 PM
                            [**2122-1-5**]  02:44 AM
                            [**2122-1-6**]  03:45 AM
                            [**2122-1-7**]  03:00 AM
   WBC
   8.8
   9.4
   8.7
   10.0
   7.1
   Hct
   29.1
   24.5
   23.8
   24.2
   26.3
   26.6
   27.9
   Plt
   [**Telephone/Fax (3) 3904**]75
   375
   Cr
   0.5
   0.6
   0.6
   0.5
   0.5
   0.5
   0.5
   0.5
   Glucose
   104
   111
   136
   107
   113
   113
   110
   115
   Other labs: Ca:8.0/Mg:2.0/Phos4.4
   Respiratory virus nasal swab negative
   Assessment and Plan
   [**Known firstname 1125**] [**Known lastname 3689**] is 41 yo F with no significant [**Hospital 3690**] transferred from OSH
   with seizure and LP c/w meningoencephalitis.  Now with  clear
   improvement, mental status appears to be improving.  Electively
   intubated on [**12-31**] for airway protection and periods of apnea. HSV
   pending at [**Location (un) **], negative at [**Hospital1 19**].
   .
   # Meningitis vs Encephalitis: Mental status improved today, able to
   follow commands and move all 4 extremities. Clinical picture most
   consistent with viral meningoencephalitis given lymphocyte predominance
   and normal protein/glucose on CSF from OSH and here.  Initial MRI/MRV
   was basically normal but repeat MRI showed significant change with a
   preliminary read of multifocal gyroform swelling of the B/L cerebral
   cortices that are patchy and non-specific, along with swelling of the
   right orbital frontal gyrus, the insular cortex B/L, and B/L
   medial/temporal gyri.  According to the neuroradiologist, these
   findings are classic for HSV encephalitis and certain other herpetic
mimics.
  Some of these changes could also be c/w protracted seizures
   (which we know she has had), although this should be a Dx of
   exclusion.  Of note, the venous sinuses were normal and her brainstem
   was unaffected.  She did have one temp of 100.3, but has been otherwise
   febrile for almost 3 days now.  ID and neuro recs appreciated. Mental
   status much improved tomorrow.
   ID studies:
          [**Location (un) **]: CSF: neg for HSV, VZV, enterovirus. Pending for
   parvovirus. Blood:
          [**Hospital1 19**]: CSF: neg CMV pcr, neg HSV pcr, neg toxo, neg
   cryptoccocal Ag, neg final bacterial culture.  Fungal and viral prelim
   CSF cultures are negative. CSF AFB culture is pending.  Blood: Negative
   for Histo, Bartonella, Mycoplasma, toxo, CMV, Lyme, EBV. Blood Cx
   negative for [**12-30**], [**12-31**], [**1-1**].
   - continue doxycycline and acyclovir
   - add ampicillin 2g IV Q4h as per neurology recs to cover listeria.
   - continue supportive care
   .
   #Seizures: Patient had been having seizure activity on EEG that was not
   apparent clinically.  Patient currently on Dilantin and Keppra, now
   started on Phenobarbital overnight as per neurology recommendations.
   - Phenobarbital level after 4^th dose as per neuron and base standing
   dose on level.  Once therapeutic may decrease midaz (or if patient is
   too sleepy)
   - continuous EEG to evaluate for subclinical seizures
   - sedation with midazolam & fentanyl
   .
   # Intubation: Patient was intubated for airway protection (copious
   secretions) and periods of apnea.  Secretions improved, though patient
   continues to have periods of apnea on spontaneous breathing trial
   today.  Likely midazolam is contributing to apneic episodes.
   - continue to monitor and wean vent settings as tolerated with daily
   PSV trials
   - minimize sedation as tolerated while still suppressing seizures to
   assess neuro status
   .
   # Transaminitis: Continues trending downward, probable mild viral
   hepatitis.  Hepatitis panel shows prior immunization.  Tylenol d/c.
   Abdominal u/s normal (small inconsequential polyp in GB).
   - Ibuprofen for  fevers
   - cont. to monitor LFT's while on Dilantin.
   .
   #Tachycardia: Sinus tach on monitor. Checked EKG, also sinus
   tachycardia.  EKG during period of tachycardia to 160 showed SVT.
   Patient denies pain, but appears anxious.  Seems to correlate well
   w/stimulation/agitation and trends down with improved sedation.
   .
   #FEN - Tube feeds.  Replete lytes PRN
   .
   #PPX: Heparin sc, bowel regimen prn, pneumoboots, Zantac.
   # Access: PICC
   # Code: Full
   # Dispo: ICU level of care.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2122-1-3**] 04:00 PM
   20 Gauge - [**2122-1-7**] 08:47 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2122-01-08 09:53:00 Physician Attending Progress Note
Chief Complaint: encephalitis.
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   41 yo women with encephalitis
   24 Hour Events:
 MAGNETIC RESONANCE IMAGING - At [**2122-1-7**] 09:00 PM
   Phenobarb started for continued seizures.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ampicillin - [**2122-1-5**] 12:01 PM
   Doxycycline - [**2122-1-7**] 08:00 AM
   Acyclovir - [**2122-1-7**] 02:00 PM
   Infusions:
   Midazolam (Versed) - 10 mg/hour
   Other ICU medications:
   Fentanyl - [**2122-1-7**] 09:27 PM
   Midazolam (Versed) - [**2122-1-7**] 10:30 PM
   Heparin Sodium (Prophylaxis) - [**2122-1-8**] 06:11 AM
   Fosphenytoin - [**2122-1-8**] 07:58 AM
   Other medications:
   zantac
   SSI
   keppra
   lyrica
   phosphenytoin
   phenobarbital
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2122-1-8**] 09:52 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.3
   Tcurrent: 37.2
C (99
   HR: 92 (80 - 117) bpm
   BP: 106/66(74) {93/43(54) - 130/78(89)} mmHg
   RR: 13 (12 - 22) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 66 Inch
             Total In:
                                                                  2,539 mL
                                                                  1,862 mL
   PO:
             TF:
                                                                    569 mL
                                                                    568 mL
   IVF:
                                                                  1,700 mL
                                                                  1,294 mL
   Blood products:
   Total out:
                                                                  2,210 mL
                                                                    660 mL
   Urine:
                                                                  2,210 mL
                                                                    660 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    329 mL
                                                                  1,202 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 12
   RR (Spontaneous): 5
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 87
   PIP: 17 cmH2O
   Plateau: 13 cmH2O
   Compliance: 62.5 cmH2O/mL
   SpO2: 100%
   ABG: ///27/
   Ve: 6.5 L/min
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent
   Musculoskeletal: Unable to stand
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, Tone: Not assessed, hyporeflexic on
   left,  minimal movement in hands, moves toes.  Moves left arm more than
   right.
   Labs / Radiology
   8.8 g/dL
   353 K/uL
   97 mg/dL
   0.5 mg/dL
   27 mEq/L
   3.7 mEq/L
   11 mg/dL
   108 mEq/L
   139 mEq/L
   24.3 %
   5.9 K/uL
        [image002.jpg]
                            [**2122-1-3**]  02:01 AM
                            [**2122-1-3**]  05:30 AM
                            [**2122-1-3**]  04:15 PM
                            [**2122-1-4**]  06:12 AM
                            [**2122-1-4**]  08:14 AM
                            [**2122-1-4**]  02:30 PM
                            [**2122-1-5**]  02:44 AM
                            [**2122-1-6**]  03:45 AM
                            [**2122-1-7**]  03:00 AM
                            [**2122-1-8**]  02:53 AM
   WBC
   8.8
   9.4
   8.7
   10.0
   7.1
   5.9
   Hct
   29.1
   24.5
   23.8
   24.2
   26.3
   26.6
   27.9
   24.3
   Plt
   [**Telephone/Fax (3) 3904**]75
   375
   353
   Cr
   0.6
   0.6
   0.5
   0.5
   0.5
   0.5
   0.5
   0.5
   Glucose
   111
   136
   107
   113
   113
   110
   115
   97
   Other labs: PT / PTT / INR:14.0/31.0/1.2, ALT / AST:129/49, Alk Phos /
   T Bili:43/0.2, Differential-Neuts:84.0 %, Lymph:8.6 %, Mono:6.3 %,
   Eos:0.7 %, Fibrinogen:285 mg/dL, Lactic Acid:1.4 mmol/L, Albumin:3.1
   g/dL, LDH:476 IU/L, Ca++:8.0 mg/dL, Mg++:2.0 mg/dL, PO4:4.4 mg/dL
   Assessment and Plan
   Encephalitis:  No clear etiology yet.  Await serologies,  [**Doctor First Name **] positive,
   but titre is pending.
              Await results of MRI, MRV, and C-spine.  If MRI negative
   will d/c acyclovir.
   Respiratory failure:  try MMV
   status epilepticus:  Will follow up with neuro on seizure status with
   addition of phenobarb.
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2122-1-7**] 10:30 PM 60 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2122-1-3**] 04:00 PM
   20 Gauge - [**2122-1-7**] 08:47 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2122-01-09 05:08:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
     *
 EKG - At 11/27/200
     * MRI/MRV results: 1. overall appearance is sig worse since the [**1-1**]
       MRI. Has multifocal gyriform FLAIR abnormality involving
       bihemispheric cerebral ctx and b/l insular and medial temporal and
       R orbital frontal and rectal gyri w/o restricted diffusion,
       enhancement or hemorrhage and sparing the [**Doctor Last Name **] matter nuclei and
       posterior fossa structures. While some of the cortical abnormality
       may relate to the pt
s apparently protracted course of seizures,
       the overall appearance favors underlying viral meningoencephalitis,
       particularly due to the herpes family. 2.No pathologic focus of
       enhancement elsewhere. 3. No evidence of cerebral venous
       thrombosis. 4. Mastoid and sphenoid sinus opacification likely
       secondary to protracted intubation and supine positioning.
     * re-started ampicillin for listeria coverage
     * kept acyclovir on in light of MR findings
     * now on phenobarbitol, phosphenytoin, keppra, and midazolam for
       seizure control
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Doxycycline - [**2122-1-8**] 08:44 PM
   Acyclovir - [**2122-1-8**] 10:08 PM
   Ampicillin - [**2122-1-9**] 03:49 AM
   Infusions:
   Midazolam (Versed) - 12 mg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2122-1-8**] 08:44 PM
   Fosphenytoin - [**2122-1-8**] 11:41 PM
   Fentanyl - [**2122-1-9**] 03:49 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2122-1-9**] 05:01 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.8
   Tcurrent: 37.4
C (99.3
   HR: 99 (92 - 119) bpm
   BP: 115/73(82) {88/48(58) - 134/80(90)} mmHg
   RR: 14 (12 - 26) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 66 Inch
             Total In:
                                                                  4,913 mL
                                                                    562 mL
   PO:
             TF:
                                                                  1,445 mL
                                                                    301 mL
   IVF:
                                                                  3,258 mL
                                                                    261 mL
   Blood products:
   Total out:
                                                                  3,930 mL
                                                                  1,000 mL
   Urine:
                                                                  3,930 mL
                                                                  1,000 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    983 mL
                                                                   -438 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 600 (600 - 600) mL
   PS : 10 cmH2O
   RR (Set): 12
   RR (Spontaneous): 15
   PEEP: 5 cmH2O
   FiO2: 40%
   PIP: 17 cmH2O
   Plateau: 14 cmH2O
   SpO2: 100%
   ABG: ///28/
   Ve: 8.1 L/min
   Physical Examination
   Gen: Awake, alert. Appears anxious, denies pain.
   HEENT: NCAT. Pupils 4mm, equal and reactive bilaterally, EOM intact.
   Anicteric sclera. EEG leads in place.
   Neck: limited ROM.
   CV: regular rate & rhythm, no appreciable murmur
   Lungs: CTAB anteriorly, breathing comfortably
   Abd: normoactive BS, soft, NT ND
   Skin: no rash or lesions noted
   Ext: warm, no edema
   Neuro: Opens eyes spontaneously, smiles and reacts appropriately to
   comments/questions.  Closes eyes on command, nods in response to
   questions; moving hands very slightly and feet (more than hands) on
   command. 3+ reflexes B/L LE and 1+reflexes B/L UE.  Extinguishing
   clonus B/L.
   Labs / Radiology
   372 K/uL
   9.3 g/dL
   119 mg/dL
   0.6 mg/dL
   28 mEq/L
   4.0 mEq/L
   12 mg/dL
   104 mEq/L
   139 mEq/L
   26.8 %
   7.7 K/uL
        [image002.jpg]
                            [**2122-1-3**]  05:30 AM
                            [**2122-1-3**]  04:15 PM
                            [**2122-1-4**]  06:12 AM
                            [**2122-1-4**]  08:14 AM
                            [**2122-1-4**]  02:30 PM
                            [**2122-1-5**]  02:44 AM
                            [**2122-1-6**]  03:45 AM
                            [**2122-1-7**]  03:00 AM
                            [**2122-1-8**]  02:53 AM
                            [**2122-1-9**]  03:18 AM
   WBC
   9.4
   8.7
   10.0
   7.1
   5.9
   7.7
   Hct
   24.5
   23.8
   24.2
   26.3
   26.6
   27.9
   24.3
   26.8
   Plt
   [**Telephone/Fax (3) 3983**]75
   353
   372
   Cr
   0.6
   0.5
   0.5
   0.5
   0.5
   0.5
   0.5
   0.6
   Glucose
   136
   107
   113
   113
   110
   115
   97
   119
   Other labs: PT / PTT / INR:14.0/31.0/1.2, ALT / AST:88/33, Ca++:8.2
   mg/dL, Mg++:2.2 mg/dL, PO4:4.5 mg/dL
   Phenobart level 29.1 yesterday at 2 pm.
   Assessment and Plan
   [**Known firstname 1125**] [**Known lastname 3689**] is 41 yo F with no significant [**Hospital 3690**] transferred from OSH
   with seizure and LP c/w meningoencephalitis.  Now with  clear
   improvement, mental status appears to be improving.  Electively
   intubated on [**12-31**] for airway protection and periods of apnea. HSV
   pending at [**Location (un) **], negative at [**Hospital1 19**].
   .
   # Meningitis vs Encephalitis: Mental status remains stable, able to
   follow commands and move all 4 extremities in a limited fashion.
   Clinical picture most consistent with viral meningoencephalitis given
   lymphocyte predominance and normal protein/glucose on CSF from OSH and
   here.  Initial MRI/MRV was basically normal but repeat MRI showed
   significant change with a preliminary read of multifocal gyroform
   swelling of the B/L cerebral cortices that are patchy and non-specific,
   along with swelling of the right orbital frontal gyrus, the insular
   cortex B/L, and B/L medial/temporal gyri.  According to the
   neuroradiologist, these findings are classic for HSV encephalitis and
   certain other herpetic
mimics.
  Some of these changes could also be
   c/w protracted seizures (which we know she has had), although this
   should be a Dx of exclusion.  Of note, the venous sinuses were normal
   and her brainstem was unaffected.  ID and neuro recs appreciated.
   ID studies:
          [**Location (un) **]: CSF: neg for HSV, VZV, enterovirus. Pending for
   parvovirus. Blood:
          [**Hospital1 19**]: CSF: neg CMV pcr, neg HSV pcr, neg toxo, neg
   cryptoccocal Ag, neg final bacterial culture.  Fungal and viral prelim
   CSF cultures are negative. CSF AFB culture is pending.  Blood: Negative
   for Histo, Bartonella, Mycoplasma, toxo, CMV, Lyme, EBV. RPR negative.
   Blood Cx negative for [**12-30**], [**12-31**], [**1-1**].
          [**Hospital1 19**] pending: HHV-6, adenovirus, WNV, EEE, LCMV, coxiella,
   bartonella PCR, Erhlichia serology, VDRL
          [**Hospital1 19**]: [**Doctor First Name **] 1:80, speckled.
   - continue doxycycline, acyclovir, and ampicillin.
   - continue supportive care
   .
   #Seizures: Patient is on Keppra, phenytoin, versed, and loaded with
   Phenobarbital yesterday afternoon.  Per nursing report, she was very
   somnolent yesterday evening and not responding to sternal rub.   Versed
   had also been decreased to 10 yesterday morning.  Per neuro patient had
   decreased seizures the day before yesterday (prior to phenobarb with
   versed at 14-18), but may have been having increased seizures
   overnight, need to confirm.  Unclear whether somnolence was secondary
   to phenobarb or increased seizure activity.  Patient did have some
   twitching in her right hand on rounds this morning.
   - Will continue phenobarbital, phenytoin, Keppra at current doses,
   versed increased to 14.
   - will discuss with neuro today whether doses on phenobarb and
   phenytoin need adjustment and how often levels should be checked
   - will also check with neuro whether CT torso for paraneoplastic w/u is
   necessary in light of new MRI findings
   - will discuss brain biopsy with neuro as well.
   .
   # Intubation: Patient was intubated for airway protection (copious
   secretions) and periods of apnea.  Secretions improved.  Patient
   tolerated PSV x 3 hrs yesterday, but then became tachypnic and
   anxious.  Underlying neurologic process likely contributing to apnea.
   - continue to monitor and wean vent settings as tolerated with daily
   PSV trials; patient will not be able to be extubated until versed off
   and apnea resolved.
   - minimize sedation as tolerated while still suppressing seizures to
   assess neuro status
   .
   # Transaminitis: Continues trending downward, probable mild viral
   hepatitis.  Hepatitis panel shows prior immunization.  Tylenol d/c.
   Abdominal u/s normal (small inconsequential polyp in GB).
   - Ibuprofen for  fevers
   - cont. to monitor LFT's while on Dilantin.
   .
   #Tachycardia: Sinus tach on monitor. Checked EKG, also sinus
   tachycardia.  EKG during period of tachycardia to 160 showed SVT.
   Patient denies pain, but appears anxious.  Seems to correlate well
   w/stimulation/agitation and trends down with improved sedation.
   .
   #FEN - Tube feeds.  Replete lytes PRN
   .
   #PPX: Heparin sc, bowel regimen prn, pneumoboots, Zantac.
   # Access: PICC
   # Code: Full
   # Dispo: ICU level of care.
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2122-1-9**] 01:04 AM 60 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2122-1-3**] 04:00 PM
   20 Gauge - [**2122-1-7**] 08:47 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2122-01-09 10:58:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   41 yo women with viral encephalitis.   Was having multiple seizures
   overnight despite addition of phenobarbital.
   24 Hour Events:
 EKG - At [**2122-1-8**] 06:49 PM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Doxycycline - [**2122-1-8**] 08:44 PM
   Acyclovir - [**2122-1-9**] 05:21 AM
   Ampicillin - [**2122-1-9**] 08:07 AM
   Infusions:
   Midazolam (Versed) - 12 mg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2122-1-9**] 05:21 AM
   Fentanyl - [**2122-1-9**] 08:07 AM
   Fosphenytoin - [**2122-1-9**] 08:07 AM
   Other medications:
   SSI
   heparin
   zantac
   doxycycline
   keppra
   dilantin
   phenobarb
   nystatin
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2122-1-9**] 10:58 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.8
   Tcurrent: 37.5
C (99.5
   HR: 108 (96 - 119) bpm
   BP: 114/72(82) {88/48(58) - 134/80(90)} mmHg
   RR: 17 (13 - 26) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 66 Inch
             Total In:
                                                                  4,913 mL
                                                                  1,335 mL
   PO:
             TF:
                                                                  1,445 mL
                                                                    635 mL
   IVF:
                                                                  3,258 mL
                                                                    640 mL
   Blood products:
   Total out:
                                                                  3,930 mL
                                                                  2,210 mL
   Urine:
                                                                  3,930 mL
                                                                  2,210 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    983 mL
                                                                   -875 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 600 (600 - 600) mL
   PS : 10 cmH2O
   RR (Set): 12
   RR (Spontaneous): 15
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 68
   PIP: 16 cmH2O
   Plateau: 14 cmH2O
   SpO2: 100%
   ABG: ///28/
   Ve: 7.2 L/min
   Physical Examination
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : , Crackles : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, Tone: Not assessed, slight motion of
   right hand and left hand.  Moving both toes.  Twitching of right hand.
   Labs / Radiology
   9.3 g/dL
   372 K/uL
   119 mg/dL
   0.6 mg/dL
   28 mEq/L
   4.0 mEq/L
   12 mg/dL
   104 mEq/L
   139 mEq/L
   26.8 %
   7.7 K/uL
        [image002.jpg]
                            [**2122-1-3**]  05:30 AM
                            [**2122-1-3**]  04:15 PM
                            [**2122-1-4**]  06:12 AM
                            [**2122-1-4**]  08:14 AM
                            [**2122-1-4**]  02:30 PM
                            [**2122-1-5**]  02:44 AM
                            [**2122-1-6**]  03:45 AM
                            [**2122-1-7**]  03:00 AM
                            [**2122-1-8**]  02:53 AM
                            [**2122-1-9**]  03:18 AM
   WBC
   9.4
   8.7
   10.0
   7.1
   5.9
   7.7
   Hct
   24.5
   23.8
   24.2
   26.3
   26.6
   27.9
   24.3
   26.8
   Plt
   [**Telephone/Fax (3) 3983**]75
   353
   372
   Cr
   0.6
   0.5
   0.5
   0.5
   0.5
   0.5
   0.5
   0.6
   Glucose
   136
   107
   113
   113
   110
   115
   97
   119
   Other labs: PT / PTT / INR:14.0/31.0/1.2, ALT / AST:88/33, Alk Phos / T
   Bili:43/0.2, Differential-Neuts:84.0 %, Lymph:8.6 %, Mono:6.3 %,
   Eos:0.7 %, Fibrinogen:285 mg/dL, Lactic Acid:1.4 mmol/L, Albumin:3.1
   g/dL, LDH:476 IU/L, Ca++:8.2 mg/dL, Mg++:2.2 mg/dL, PO4:4.5 mg/dL
   Fluid analysis / Other labs: phenobarb level of 29
   Assessment and Plan
 SEIZURE, WITHOUT STATUS EPILEPTICUS:  Continued seizures.  Will
   discuss with neurology about further care.  ? Addition of propofol.
 [**Last Name 12**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**]):  Try PSV again for trial.
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN):  Has
   defervesced.
 RASH
 ALTERED MENTAL STATUS (NOT DELIRIUM)
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2122-1-9**] 01:04 AM 60 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2122-1-3**] 04:00 PM
   20 Gauge - [**2122-1-7**] 08:47 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 40 minutes
   Patient is critically ill

2122-01-10 05:34:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 LUMBAR PUNCTURE - At [**2122-1-10**] 12:40 AM
   - still seizing, but less per neuro
   - phenobarb bolus (given late) with peak check (once); needs daily
   troughs
   - dilantin stopped; continue keppra; cont. versed at 14
   - Neuro left multiple recs for further tests
   - CT torso for paraneoplastic work-up - prelim no malignancy
   - Repeat LP
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ampicillin - [**2122-1-9**] 08:00 PM
   Doxycycline - [**2122-1-9**] 08:30 PM
   Acyclovir - [**2122-1-9**] 10:00 PM
   Infusions:
   Other ICU medications:
   Fosphenytoin - [**2122-1-9**] 08:07 AM
   Heparin Sodium (Prophylaxis) - [**2122-1-9**] 02:16 PM
   Fentanyl - [**2122-1-9**] 11:23 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2122-1-10**] 05:34 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100.1
   Tcurrent: 37.6
C (99.6
   HR: 101 (92 - 117) bpm
   BP: 113/71(80) {96/56(66) - 134/94(102)} mmHg
   RR: 17 (12 - 24) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 66 Inch
             Total In:
                                                                  3,834 mL
                                                                    107 mL
   PO:
             TF:
                                                                    991 mL
   IVF:
                                                                  2,723 mL
                                                                    107 mL
   Blood products:
   Total out:
                                                                  4,000 mL
                                                                    700 mL
   Urine:
                                                                  4,000 mL
                                                                    700 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -166 mL
                                                                   -593 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 12
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 120
   PIP: 19 cmH2O
   Plateau: 15 cmH2O
   SpO2: 100%
   ABG: ////
   Ve: 8 L/min
   Physical Examination
   Gen: Somnolent, only responded by shaking head to deny pain.
   Intermittently following commands
   HEENT: NCAT. Pupils 4mm, equal and reactive bilaterally. Anicteric
   sclera. EEG leads in place.
   CV: regular rate & rhythm, no appreciable murmur
   Lungs: CTAB anteriorly, breathing comfortably
   Abd: normoactive BS, soft, NT ND, no rash noted
   Back: erythematous rash in gluteal area
   Ext: warm, no edema
   Neuro: Opens eyes spontaneously, smiles and reacts appropriately to
   comments/questions.  Closes eyes on command, nods in response to
   questions; moving hands very slightly and feet (more than hands) on
   command. No patellar reflexes noted in  B/L LE and 1+reflexes B/L UE.
   Extinguishing clonus B/L in feet.
   Labs / Radiology
   381 K/uL
   9.9 g/dL
   119 mg/dL
   0.6 mg/dL
   28 mEq/L
   4.0 mEq/L
   12 mg/dL
   104 mEq/L
   139 mEq/L
   28.6 %
   8.0 K/uL
        [image002.jpg]
                            [**2122-1-3**]  04:15 PM
                            [**2122-1-4**]  06:12 AM
                            [**2122-1-4**]  08:14 AM
                            [**2122-1-4**]  02:30 PM
                            [**2122-1-5**]  02:44 AM
                            [**2122-1-6**]  03:45 AM
                            [**2122-1-7**]  03:00 AM
                            [**2122-1-8**]  02:53 AM
                            [**2122-1-9**]  03:18 AM
                            [**2122-1-10**]  04:16 AM
   WBC
   9.4
   8.7
   10.0
   7.1
   5.9
   7.7
   8.0
   Hct
   24.5
   23.8
   24.2
   26.3
   26.6
   27.9
   24.3
   26.8
   28.6
   Plt
   [**Telephone/Fax (3) 3983**]75
   353
   372
   381
   Cr
   0.5
   0.5
   0.5
   0.5
   0.5
   0.5
   0.6
   Glucose
   107
   113
   113
   110
   115
   97
   119
   Other labs: PT / PTT / INR:14.0/31.0/1.2, CK / CKMB / Troponin-T:260//,
   ALT / AST:88/33, Alk Phos / T Bili:43/0.2, Differential-Neuts:78.1 %,
   Lymph:13.1 %, Mono:6.3 %, Eos:1.6 %, Fibrinogen:285 mg/dL, Lactic
   Acid:1.4 mmol/L, Albumin:3.1 g/dL, LDH:476 IU/L, Ca++:8.2 mg/dL,
   Mg++:2.2 mg/dL, PO4:4.5 mg/dL
   Assessment and Plan
   [**Known firstname 1125**] [**Known lastname 3689**] is 41 yo F with no significant [**Hospital 3690**] transferred from OSH
   with seizure and LP c/w meningoencephalitis. Mental status appears to
   be slowly improving. Workup has been negative so far other than MRI
   progression being suggestive of herpetic involvement vs. protracted
   seizures.
   .
   # Meningitis vs Encephalitis: Mental status improving slowly, able to
   follow commands and move all 4 extremities in a limited fashion.
   Clinical picture most consistent with viral meningoencephalitis given
   lymphocyte predominance and normal protein/glucose on CSF from OSH and
   here.  Initial MRI/MRV was basically normal but repeat MRI showed
   significant change with a preliminary read of multifocal gyroform
   swelling of the B/L cerebral cortices that are patchy and non-specific,
   along with swelling of the right orbital frontal gyrus, the insular
   cortex B/L, and B/L medial/temporal gyri.  According to the
   neuroradiologist, these findings are classic for HSV encephalitis and
   certain other herpetic
mimics.
  Some of these changes could also be
   c/w protracted seizures (which we know she has had), although this
   should be a Dx of exclusion.  Of note, the venous sinuses were normal
   and her brainstem was unaffected.  ID and neuro recs appreciated.
   ID studies:
          [**Location (un) **]: CSF: neg for HSV, VZV, enterovirus. Pending for
   parvovirus. Blood:
          [**Hospital1 19**]: CSF: neg CMV pcr, neg HSV pcr, neg toxo, neg
   cryptoccocal Ag, neg final bacterial culture.  Fungal and viral prelim
   CSF cultures are negative. CSF AFB culture is pending.  Blood: Negative
   for Histo, Bartonella, Mycoplasma, toxo, CMV, Lyme, EBV. RPR negative.
   Blood Cx negative for [**12-30**], [**12-31**], [**1-1**].
          [**Hospital1 19**] pending: HHV-6, adenovirus, WNV, EEE, LCMV, coxiella,
   bartonella PCR, Erhlichia serology, VDRL
          [**Hospital1 19**]: [**Doctor First Name **] 1:80, speckled.
   - continue doxycycline, acyclovir, and ampicillin.
   - continue supportive care
   .
   #Seizures: Patient is on Keppra, phenytoin, versed, and loaded with
   Phenobarbital yesterday afternoon.  Per nursing report, she was very
   somnolent yesterday evening and not responding to sternal rub.   Versed
   had also been decreased to 10 yesterday morning.  Per neuro patient had
   decreased seizures the day before yesterday (prior to phenobarb with
   versed at 14-18), but may have been having increased seizures
   overnight, need to confirm.  Unclear whether somnolence was secondary
   to phenobarb or increased seizure activity.  Patient did have some
   twitching in her right hand on rounds this morning.
   - Will continue phenobarbital, phenytoin, Keppra at current doses,
   versed increased to 14.
   - will discuss with neuro today whether doses on phenobarb and
   phenytoin need adjustment and how often levels should be checked
   - will also check with neuro whether CT torso for paraneoplastic w/u is
   necessary in light of new MRI findings
   - will discuss brain biopsy with neuro as well.
   .
   # Intubation: Patient was intubated for airway protection (copious
   secretions) and periods of apnea.  Secretions improved.  Patient
   tolerated PSV x 3 hrs yesterday, but then became tachypnic and
   anxious.  Underlying neurologic process likely contributing to apnea.
   - continue to monitor and wean vent settings as tolerated with daily
   PSV trials; patient will not be able to be extubated until versed off
   and apnea resolved.
   - minimize sedation as tolerated while still suppressing seizures to
   assess neuro status
   .
   # Transaminitis: Continues trending downward, probable mild viral
   hepatitis.  Hepatitis panel shows prior immunization.  Tylenol d/c.
   Abdominal u/s normal (small inconsequential polyp in GB).
   - Ibuprofen for  fevers
   - cont. to monitor LFT's while on Dilantin.
   .
   #Tachycardia: Sinus tach on monitor. Checked EKG, also sinus
   tachycardia.  EKG during period of tachycardia to 160 showed SVT.
   Patient denies pain, but appears anxious.  Seems to correlate well
   w/stimulation/agitation and trends down with improved sedation.
   .
   #FEN - Tube feeds.  Replete lytes PRN
   .
   #PPX: Heparin sc, bowel regimen prn, pneumoboots, Zantac.
   # Access: PICC
   # Code: Full
   # Dispo: ICU level of care.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2122-1-3**] 04:00 PM
   20 Gauge - [**2122-1-7**] 08:47 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2122-01-10 10:20:00 Physician Attending Progress Note
Chief Complaint: Seizure
   Persistent Altered Mental Status
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 LUMBAR PUNCTURE - At [**2122-1-10**] 12:40 AM
   -Uneventful
   -2 WBC's seen
   Phenobarbitol given and Dilantin stopped
   History obtained from [**Hospital 15**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Acyclovir - [**2122-1-10**] 06:00 AM
   Ampicillin - [**2122-1-10**] 07:58 AM
   Doxycycline - [**2122-1-10**] 08:56 AM
   Infusions:
   Midazolam (Versed) - 14.1 mg/hour
   Other ICU medications:
   Fentanyl - [**2122-1-9**] 11:23 PM
   Ranitidine (Prophylaxis) - [**2122-1-10**] 07:59 AM
   Heparin Sodium (Prophylaxis) - [**2122-1-10**] 07:59 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue, Fever, 100.1 only
   Cardiovascular: Tachycardia
   Flowsheet Data as of  [**2122-1-10**] 10:05 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100.1
   Tcurrent: 37.1
C (98.7
   HR: 104 (91 - 115) bpm
   BP: 102/74(78) {96/45(58) - 134/94(102)} mmHg
   RR: 17 (12 - 23) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 66 Inch
             Total In:
                                                                  3,835 mL
                                                                  1,393 mL
   PO:
             TF:
                                                                    991 mL
                                                                    263 mL
   IVF:
                                                                  2,724 mL
                                                                  1,040 mL
   Blood products:
   Total out:
                                                                  4,000 mL
                                                                  2,365 mL
   Urine:
                                                                  4,000 mL
                                                                  2,365 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -165 mL
                                                                   -972 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 12
   RR (Spontaneous): 4
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 120
   PIP: 21 cmH2O
   Plateau: 15 cmH2O
   SpO2: 100%
   ABG: ///27/
   Ve: 8.4 L/min
   Physical Examination
   General Appearance: Thin
   Eyes / Conjunctiva: PERRL
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Dullness : ),
   (Breath Sounds: Diminished: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Trace, Left: Trace
   Skin:  Not assessed
   Neurologic: Responds to: Noxious stimuli, Movement: Not assessed,
   Sedated, Tone: Not assessed, PT reflexes decreased, intermittent motor
   activation--unilateral and consistent with seizure activity per
   report
this morning patient with some rhythmic jerking of jaw in right
   side but patient able to follow commands quite briskly in LE and UE
   with decreased strength in left side.
   Labs / Radiology
   9.9 g/dL
   381 K/uL
   87 mg/dL
   0.6 mg/dL
   27 mEq/L
   4.1 mEq/L
   11 mg/dL
   106 mEq/L
   139 mEq/L
   28.6 %
   8.0 K/uL
        [image002.jpg]
                            [**2122-1-3**]  04:15 PM
                            [**2122-1-4**]  06:12 AM
                            [**2122-1-4**]  08:14 AM
                            [**2122-1-4**]  02:30 PM
                            [**2122-1-5**]  02:44 AM
                            [**2122-1-6**]  03:45 AM
                            [**2122-1-7**]  03:00 AM
                            [**2122-1-8**]  02:53 AM
                            [**2122-1-9**]  03:18 AM
                            [**2122-1-10**]  04:16 AM
   WBC
   9.4
   8.7
   10.0
   7.1
   5.9
   7.7
   8.0
   Hct
   24.5
   23.8
   24.2
   26.3
   26.6
   27.9
   24.3
   26.8
   28.6
   Plt
   [**Telephone/Fax (3) 3983**]75
   353
   372
   381
   Cr
   0.5
   0.5
   0.5
   0.5
   0.5
   0.5
   0.6
   0.6
   Glucose
   107
   113
   113
   110
   115
   97
   119
   87
   Other labs: PT / PTT / INR:14.0/31.0/1.2, CK / CKMB / Troponin-T:260//,
   ALT / AST:82/31, Alk Phos / T Bili:65/0.3, Differential-Neuts:78.1 %,
   Lymph:13.1 %, Mono:6.3 %, Eos:1.6 %, Fibrinogen:285 mg/dL, Lactic
   Acid:1.4 mmol/L, Albumin:3.1 g/dL, LDH:249 IU/L, Ca++:8.5 mg/dL,
   Mg++:2.3 mg/dL, PO4:3.7 mg/dL
   Fluid analysis / Other labs: ANCA-P
   Imaging: CT Chest/Abd--Preliminarily no evidence of malignancy
   Microbiology: Parvovirus--pending
   EEE-Pending
   CSF--[**1-2**]--NGTD on viral or bacterial
         --[**1-9**]--GS-Negative
   WBC=2
   Prot-38
   Assessment and Plan
   40 yo physician admitted with new onset seizures and persistent altered
   mental status and worsening findings on MRI, however, patient with LP
   showing substantial decrease in WBC count.
   RESPIRATORY FAILURE-
   -Background support in the setting of altered mental status
   -Has been maintained on Versed gtt at increasing doses to 14mg/hr
   -Fentanyl PRN (none since 11pm [**2122-1-9**])
   -Move to PSV reasonable today
   -Secretions may be limiting extubation and will need to follow over
   time
pulmonary exam and CT
will need to continue to monitor ventilatory
   drive in the setting of large doses of benzodiazepines and possible
   respiratory suppression.
   SEIZURE, WITHOUT STATUS EPILEPTICUS
   -Versed continuing
   -Still with intermittent cortical activity consistent with seizure
   activity
   -Keppra
   -Amp/Acyclovir/Doxycycline
   -Follow Exam
   -Follow up cultures
   -Consideration of brain biopsy has been generated with neurology and ID
   but will need to consider what possible diagnoses would be identified
   and what treatment may be altered by possible findings
   -Will need review of seizure activity over past 24 hours to consider
   medication dosing
 [**Last Name 12**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
 RASH
 ALTERED MENTAL STATUS (NOT DELIRIUM)
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2122-1-9**] 02:20 PM 60 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2122-1-3**] 04:00 PM
   20 Gauge - [**2122-1-7**] 08:47 PM
   Prophylaxis:
   DVT: Hep Sq
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes

2122-01-11 05:14:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   Final read head/chest/abdomen CT: no malignancy, no bowel obstruction
   PET ordered
   SBT failed for high RISB but no apnea
   Parvovirus still pending at [**Location (un) **]
   Neurosurgery consult (for biopsy) deferred for now
   Phenobarb level low
   Allergies:
   No Known Drug Allergies
   Antibiotics:
   Doxycycline
   Acyclovir
   Ampicillin
   Infusions:
   Other ICU medications:
   Ranitidine (Prophylaxis) - [**2122-1-10**] 07:59 AM
   Heparin Sodium (Prophylaxis) - [**2122-1-10**] 09:20 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2122-1-11**] 05:11 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100
   Tcurrent: 37
C (98.6
   HR: 88 (79 - 113) bpm
   BP: 99/64(69) {92/26(48) - 125/76(87)} mmHg
   RR: 16 (14 - 20) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 66 Inch
             Total In:
                                                                  3,792 mL
                                                                    812 mL
   PO:
             TF:
                                                                  1,106 mL
                                                                    310 mL
   IVF:
                                                                  2,476 mL
                                                                    252 mL
   Blood products:
   Total out:
                                                                  3,910 mL
                                                                    230 mL
   Urine:
                                                                  3,910 mL
                                                                    230 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -118 mL
                                                                    582 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 12
   RR (Spontaneous): 15
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 79
   PIP: 17 cmH2O
   Plateau: 15 cmH2O
   SpO2: 99%
   ABG:
   Ve: 7.4 L/min
   Physical Examination
   Gen: awake, alert, appears uncomforable
   HEENT: NCAT. Pupils 4mm, equal and reactive bilaterally. Anicteric
   sclera. EEG leads in place.
   CV: regular rate & rhythm, no appreciable murmur
   Lungs: course breath sounds b/l. no wheezing or rhonchi
   Abd: normoactive BS, soft, mildly TTP in RUQ and RLQ. ND, no rash noted
   Ext: warm, no edema
   Neuro: Opens eyes spontaneously, smiles and reacts appropriately to
   comments/questions.  Closes eyes on command, nods in response to
   questions; moving UE and LE spontaneously and on command.  w/occasional
   R sided SCM muscle twitching in neck (usually w/agitation) and episodes
   of agitation where she brings b/l flexed arms up w/hands toward her ET
   tube and shakes them
 unclear whether this is purposeful or could be
   seizure-related activity.  2+ patellar reflexes B/L LE and 1+reflexes
   B/L UE.
   Labs / Radiology
   370 K/uL
   9.0 g/dL
   83 mg/dL
   0.5 mg/dL
   28 mEq/L
   3.8 mEq/L
   19 mg/dL
   107 mEq/L
   139 mEq/L
   25.8 %
   6.1 K/uL
        [image002.jpg]
                            [**2122-1-4**]  06:12 AM
                            [**2122-1-4**]  08:14 AM
                            [**2122-1-4**]  02:30 PM
                            [**2122-1-5**]  02:44 AM
                            [**2122-1-6**]  03:45 AM
                            [**2122-1-7**]  03:00 AM
                            [**2122-1-8**]  02:53 AM
                            [**2122-1-9**]  03:18 AM
                            [**2122-1-10**]  04:16 AM
                            [**2122-1-11**]  02:35 AM
   WBC
   9.4
   8.7
   10.0
   7.1
   5.9
   7.7
   8.0
   6.1
   Hct
   24.5
   23.8
   24.2
   26.3
   26.6
   27.9
   24.3
   26.8
   28.6
   25.8
   Plt
   [**Telephone/Fax (3) 3983**]75
   353
   372
   381
   370
   Cr
   0.5
   0.5
   0.5
   0.5
   0.5
   0.6
   0.6
   0.5
   Glucose
   113
   113
   110
   115
   97
   119
   87
   83
   Other labs:
   Ca++:8.1 mg/dL, Mg++:2.3 mg/dL, PO4:3.4 mg/dL
   [**Doctor First Name **] 1:80, RF negative, DS DNA, ANCA, SPEP pending
   ESR 48, CRP 13
   CSF [**1-10**] LP: 2 WBC w/98% lymphocytes, Prot 37, Glc 65
   Phenobarbitol level 26.7
   Assessment and Plan
   [**Known firstname 1125**] [**Known lastname 3689**] is 41 yo F with no significant [**Hospital 3690**] transferred from OSH
   with seizure and LP c/w meningoencephalitis. Mental status appears to
   be slowly improving with improved seizure control. Workup has been
   negative so far other than MRI progression being suggestive of herpetic
   involvement vs. protracted seizures.
   .
   #1 Meningitis vs Encephalitis: She is slowly regaining motor function.
   Serial MRI showed progression of inflammation c/w herpetic involvement
   vs protracted seizure activity.  LP x 3 w/lymphocytosis. All studies
   negative so far, still waiting for HHV-6, adenovirus, WNV, EEE, LCMV,
   coxiella, VDRL.  Repeat HSV and VZV also added on to most recent CSF
   studies.  Also considering autoimmune phenomenon or paraneoplastic
   syndrome.  [**Doctor First Name **] positive but only 1:80.  ANCA, DSDNA, SPEP pending.
   Neuro considering brain Bx but on hold right now b/c patient is
   improving.  Other CSF studies pending: Purkinje Antibodies, RI
   autoantibodies, Neuronal nuclear (Anti [**Doctor Last Name **]) Antibody, [**Last Name (un) 4022**] antibody.
   ID studies:
          [**Location (un) **]: CSF: neg for HSV, VZV, enterovirus. Pending for
   parvovirus. Blood:
          [**Hospital1 19**]: CSF: neg CMV pcr, neg HSV pcr, neg toxo, neg
   cryptoccocal Ag, neg final bacterial culture.  Fungal and viral prelim
   CSF cultures are negative. CSF AFB culture is pending.  Blood: Negative
   for Histo, Bartonella, Mycoplasma, toxo, CMV, Lyme, EBV, ehrlichia, RPR
   negative. Blood Cx negative for [**12-30**], [**12-31**], [**1-1**].
          [**Hospital1 19**] pending: HHV-6, adenovirus, WNV, EEE, LCMV, coxiella,
   bartonella PCR, Erhlichia serology, VDRL. CSF pending: [**1-10**] HSV, VZV
   - continue doxycycline, acyclovir, and ampicillin.
   - continue supportive care including seizure treatment as below
   - repeat MRI on Monday, Tuesday to evaluate for interval change
   - Hold on calling Neurosurg for Bx as she appears to be improving
   .
   #2 Seizures: Pt. on keppra, Phenobarbital and midazolam. Still seizing,
   but less per neuron (note says now rare, brief L frontotemporal
   seizures).
   - 200mg phenobarb bolus today, re-check trough tomorrow
   - MRI mon/Tuesday in light of improved seizure control (if improved as
   well, could be evidence that interval MRI change was due to inadequate
   seizure control?)
   - Consider EMG Monday
 to discuss with neuro
   .
   #3 Intubation: No longer having apnea on SBT yesterday but unable to
   pull sufficient tidal volumes and subsequently had high RSBI
   - daily PSV trials
   .
   # Transaminitis: Still trending downward, probable mild viral hepatitis
   - re-check LFTs tomorrow
   .
   #Tachycardia: Likely volume depleted w/ elevated Hct. Improved
 now
   high 90
s to low 100
s with agitation. To follow.
   .
   #FEN - Tube feeds.  Replete lytes PRN
   .
   #PPX: Heparin sc, bowel regimen prn, pneumoboots, Zantac.
   # Access: PICC
   # Code: Full
   # Dispo: ICU level of care.
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2122-1-10**] 04:24 PM 60 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2122-1-3**] 04:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2122-01-11 10:38:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failure
   Seizure without Status
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   -Improved alertness
   -Phenobarbitol to be re-dosed
   -Mild intermittnet seizure activity
   -CNS driven apneas and ongonig secretions continue to limit wean
   History obtained from [**Hospital 15**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Acyclovir - [**2122-1-11**] 06:21 AM
   Ampicillin - [**2122-1-11**] 07:41 AM
   Doxycycline - [**2122-1-11**] 08:04 AM
   Infusions:
   Midazolam (Versed) - 14 mg/hour
   Other ICU medications:
   Ranitidine (Prophylaxis) - [**2122-1-11**] 07:42 AM
   Heparin Sodium (Prophylaxis) - [**2122-1-11**] 07:42 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2122-1-11**] 10:30 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100
   Tcurrent: 37.5
C (99.5
   HR: 97 (79 - 113) bpm
   BP: 117/70(80) {92/26(48) - 125/76(87)} mmHg
   RR: 14 (14 - 20) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 66 Inch
             Total In:
                                                                  3,794 mL
                                                                  2,355 mL
   PO:
             TF:
                                                                  1,106 mL
                                                                    621 mL
   IVF:
                                                                  2,478 mL
                                                                    899 mL
   Blood products:
   Total out:
                                                                  3,910 mL
                                                                  2,060 mL
   Urine:
                                                                  3,910 mL
                                                                  1,660 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -116 mL
                                                                    295 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 12
   RR (Spontaneous): 8
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 79
   PIP: 23 cmH2O
   Plateau: 13 cmH2O
   SpO2: 100%
   ABG: ///28/
   Ve: 9.3 L/min
   Physical Examination
   General Appearance: Thin
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Trace, Left: Trace
   Musculoskeletal: Muscle wasting
   Skin:  Not assessed
   Neurologic: Responds to: Verbal stimuli, Movement: Not assessed, Tone:
   Not assessed, Improved symmetry of reflexes, patient moves all
   extremities. Patient with neck twitching noted but fully responsive to
   voice and following commands and engaging in conversation about her
   treatment plan and specifically for plan in regards to endotracheal
   tube.
   Labs / Radiology
   9.0 g/dL
   370 K/uL
   83 mg/dL
   0.5 mg/dL
   28 mEq/L
   3.8 mEq/L
   19 mg/dL
   107 mEq/L
   139 mEq/L
   25.8 %
   6.1 K/uL
        [image002.jpg]
                            [**2122-1-4**]  06:12 AM
                            [**2122-1-4**]  08:14 AM
                            [**2122-1-4**]  02:30 PM
                            [**2122-1-5**]  02:44 AM
                            [**2122-1-6**]  03:45 AM
                            [**2122-1-7**]  03:00 AM
                            [**2122-1-8**]  02:53 AM
                            [**2122-1-9**]  03:18 AM
                            [**2122-1-10**]  04:16 AM
                            [**2122-1-11**]  02:35 AM
   WBC
   9.4
   8.7
   10.0
   7.1
   5.9
   7.7
   8.0
   6.1
   Hct
   24.5
   23.8
   24.2
   26.3
   26.6
   27.9
   24.3
   26.8
   28.6
   25.8
   Plt
   [**Telephone/Fax (3) 3983**]75
   353
   372
   381
   370
   Cr
   0.5
   0.5
   0.5
   0.5
   0.5
   0.6
   0.6
   0.5
   Glucose
   113
   113
   110
   115
   97
   119
   87
   83
   Other labs: PT / PTT / INR:14.0/31.0/1.2, CK / CKMB / Troponin-T:260//,
   ALT / AST:82/31, Alk Phos / T Bili:65/0.3, Differential-Neuts:78.1 %,
   Lymph:13.1 %, Mono:6.3 %, Eos:1.6 %, Fibrinogen:285 mg/dL, Lactic
   Acid:1.4 mmol/L, Albumin:3.1 g/dL, LDH:249 IU/L, Ca++:8.1 mg/dL,
   Mg++:2.3 mg/dL, PO4:3.4 mg/dL
   Assessment and Plan
   41 yo female found with new onset seizure disorder and despite
   extensive investigations single souce of either meningitis or
   encephalitis have failed to be defined.  She has had improved control
   of seizure activity with escalating doses of phenobarbitol.  In
   addition--repeat LP has been completed and further testing sent with
   encouraging findings of decreased CNS WBC's, however, MRI has shown
   persistent of sub-cortical white matter disease.
   1)Respiratory Failure--Limited in move to extubation be secretions
   (less so), mental status and need to maintain stability of ventilatory
   support in the setting of significant central suppression of
   respiratory drive.  She does have clear times of alertness and
   responsiveness.
   -Move to PSV today
   -Follow secretion volume
   -Trial of SBT if favorable RSBI seen in the setting of increased
   Phenobarbitol dosing
   2)Seizure-
   -Versed 14mg/hr
   -Phenobarbitol
additional 200mg dose today
   -Keppra
   -F/U MRI next week to consider elevation
   -Continuous EEG
suggestion of increased control
   3)Meningitis/Encephalitis-
   -Ongoing evaluations for possible source including vasculitis
   -Acyclovir
   -Amp
   -Doxy
   -All continuing and will follow up clinical exam
   -Issue of brain biopsy raised but do not see clear indication at this
   time given the extent of pending CSF tests and F/U MRI findings next
   week.
 SEIZURE, WITHOUT STATUS EPILEPTICUS
 [**Last Name 12**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 RASH
 ALTERED MENTAL STATUS (NOT DELIRIUM)
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2122-1-11**] 05:34 AM 60 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2122-1-3**] 04:00 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes

2122-01-12 05:59:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 URINE CULTURE - At [**2122-1-11**] 09:04 AM
   Given Phenobarb 200mg IV x 1 for subtheraputic range
   Multiple versed boluses for frequent seizure activity
   Tolerated PS for 1 hr, stoped [**3-15**] tachypnea to 40s.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Doxycycline - [**2122-1-11**] 08:46 PM
   Acyclovir - [**2122-1-11**] 10:27 PM
   Ampicillin - [**2122-1-12**] 03:24 AM
   Infusions:
   Midazolam (Versed) - 14 mg/hour
   Other ICU medications:
   Ranitidine (Prophylaxis) - [**2122-1-11**] 07:42 AM
   Heparin Sodium (Prophylaxis) - [**2122-1-12**] 12:08 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2122-1-12**] 05:58 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.5
C (99.5
   Tcurrent: 36.3
C (97.3
   HR: 88 (83 - 112) bpm
   BP: 107/67(75) {97/53(64) - 130/77(92)} mmHg
   RR: 16 (14 - 29) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 66 Inch
             Total In:
                                                                  5,223 mL
                                                                    949 mL
   PO:
             TF:
                                                                  1,440 mL
                                                                    356 mL
   IVF:
                                                                  2,578 mL
                                                                    343 mL
   Blood products:
   Total out:
                                                                  3,740 mL
                                                                    540 mL
   Urine:
                                                                  3,340 mL
                                                                    540 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,483 mL
                                                                    409 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 395 (395 - 395) mL
   PS : 10 cmH2O
   RR (Set): 12
   RR (Spontaneous): 5
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 127
   PIP: 25 cmH2O
   Plateau: 15 cmH2O
   SpO2: 99%
   ABG: ///25/
   Ve: 9.2 L/min
   Physical Examination
   Gen: awake, alert, appears uncomforable
   HEENT: NCAT. Pupils 4mm, equal and reactive bilaterally. Anicteric
   sclera. EEG leads in place.
   CV: regular rate & rhythm, no appreciable murmur
   Lungs: course breath sounds b/l. no wheezing or rhonchi
   Abd: normoactive BS, soft, mildly TTP in RUQ and RLQ. ND, no rash noted
   Ext: warm, no edema
   Neuro: Opens eyes spontaneously, smiles and reacts appropriately to
   comments/questions.  Closes eyes on command, nods in response to
   questions; moving UE and LE spontaneously and on command.  w/occasional
   R sided SCM muscle twitching in neck (usually w/agitation) and episodes
   of agitation where she brings b/l flexed arms up w/hands toward her ET
   tube and shakes them
 unclear whether this is purposeful or could be
   seizure-related activity.  2+ patellar reflexes B/L LE and 1+reflexes
   B/L UE.
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   323 K/uL
   9.5 g/dL
   93 mg/dL
   0.5 mg/dL
   25 mEq/L
   4.0 mEq/L
   16 mg/dL
   110 mEq/L
   141 mEq/L
   25.2 %
   4.3 K/uL
        [image002.jpg]
                            [**2122-1-4**]  08:14 AM
                            [**2122-1-4**]  02:30 PM
                            [**2122-1-5**]  02:44 AM
                            [**2122-1-6**]  03:45 AM
                            [**2122-1-7**]  03:00 AM
                            [**2122-1-8**]  02:53 AM
                            [**2122-1-9**]  03:18 AM
                            [**2122-1-10**]  04:16 AM
                            [**2122-1-11**]  02:35 AM
                             [**2122-1-12**]  03:08 AM
   WBC
   8.7
   10.0
   7.1
   5.9
   7.7
   8.0
   6.1
   4.3
   Hct
   23.8
   24.2
   26.3
   26.6
   27.9
   24.3
   26.8
   28.6
   25.8
   25.2
   Plt
   392
   375
   375
   353
   372
   381
   370
   323
   Cr
   0.5
   0.5
   0.5
   0.5
   0.6
   0.6
   0.5
   0.5
   Glucose
   113
   110
   115
   97
   119
   87
   83
   93
   Other labs: PT / PTT / INR:14.0/31.0/1.2, CK / CKMB / Troponin-T:260//,
   ALT / AST:55/24, Alk Phos / T Bili:58/0.2, Differential-Neuts:78.1 %,
   Lymph:13.1 %, Mono:6.3 %, Eos:1.6 %, Fibrinogen:285 mg/dL, Lactic
   Acid:1.4 mmol/L, Albumin:3.1 g/dL, LDH:203 IU/L, Ca++:7.8 mg/dL,
   Mg++:2.2 mg/dL, PO4:2.9 mg/dL
   Assessment and Plan
   [**Known firstname 1125**] [**Known lastname 3689**] is 41 yo F with no significant [**Hospital 3690**] transferred from OSH
   with seizure and LP c/w meningoencephalitis. Mental status appears to
   be slowly improving with improved seizure control. Workup has been
   negative so far other than MRI progression being suggestive of herpetic
   involvement vs. protracted seizures.
   .
   #1 Meningitis vs Encephalitis: She is slowly regaining motor function.
   Serial MRI showed progression of inflammation c/w herpetic involvement
   vs protracted seizure activity.  LP x 3 w/lymphocytosis. All studies
   negative so far, still waiting for HHV-6, adenovirus, WNV, EEE, LCMV,
   coxiella, VDRL.  Repeat HSV and VZV also added on to most recent CSF
   studies.  Also considering autoimmune phenomenon or paraneoplastic
   syndrome.  [**Doctor First Name **] positive but only 1:80.  ANCA, DSDNA, SPEP pending.
   Neuro considering brain Bx but on hold right now b/c patient is
   improving.  Other CSF studies pending: Purkinje Antibodies, RI
   autoantibodies, Neuronal nuclear (Anti [**Doctor Last Name **]) Antibody, [**Last Name (un) 4022**] antibody.
   ID studies:
          [**Location (un) **]: CSF: neg for HSV, VZV, enterovirus. Pending for
   parvovirus. Blood:
          [**Hospital1 19**]: CSF: neg CMV pcr, neg HSV pcr, neg toxo, neg
   cryptoccocal Ag, neg final bacterial culture.  Fungal and viral prelim
   CSF cultures are negative. CSF AFB culture is pending.  Blood: Negative
   for Histo, Bartonella, Mycoplasma, toxo, CMV, Lyme, EBV, ehrlichia, RPR
   negative. Blood Cx negative for [**12-30**], [**12-31**], [**1-1**].
          [**Hospital1 19**] pending: HHV-6, adenovirus, WNV, EEE, LCMV, coxiella,
   bartonella PCR, Erhlichia serology, VDRL. CSF pending: [**1-10**] HSV, VZV
   - continue doxycycline, acyclovir, and ampicillin.
   - continue supportive care including seizure treatment as below
   - repeat MRI on Monday, Tuesday to evaluate for interval change
   - Hold on calling Neurosurg for Bx as she appears to be improving
   .
   #2 Seizures: Pt. on keppra, Phenobarbital and midazolam. Still seizing,
   but less per neuron (note says now rare, brief L frontotemporal
   seizures).
   - 200mg phenobarb bolus today, re-check trough tomorrow
   - MRI mon/Tuesday in light of improved seizure control (if improved as
   well, could be evidence that interval MRI change was due to inadequate
   seizure control?)
   - Consider EMG Monday
 to discuss with neuro
   .
   #3 Intubation: No longer having apnea on SBT yesterday but unable to
   pull sufficient tidal volumes and subsequently had high RSBI
   - daily PSV trials
   .
   # Transaminitis: Still trending downward, probable mild viral hepatitis
   - re-check LFTs tomorrow
   .
   #Tachycardia: Likely volume depleted w/ elevated Hct. Improved
 now
   high 90
s to low 100
s with agitation. To follow.
   .
   #FEN - Tube feeds.  Replete lytes PRN
   .
   #PPX: Heparin sc, bowel regimen prn, pneumoboots, Zantac.
   # Access: PICC
   # Code: Full
   # Dispo: ICU level of care.
 IMPAIRED PHYSICAL MOBILITY
 SEIZURE, WITHOUT STATUS EPILEPTICUS
 RASH
 ALTERED MENTAL STATUS (NOT DELIRIUM)
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2122-1-11**] 04:59 PM 60 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2122-1-3**] 04:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2122-01-12 11:38:00 Physician Attending Progress Note
Chief Complaint: encephalitis, status epilepticus
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   41 yo with meningoencephalitis.
   24 Hour Events:
 URINE CULTURE - At [**2122-1-11**] 09:04 AM
   Vomitting this morning.  But having decreased seizures via EEG.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Acyclovir - [**2122-1-12**] 06:14 AM
   Ampicillin - [**2122-1-12**] 08:00 AM
   Doxycycline - [**2122-1-12**] 08:10 AM
   Infusions:
   Midazolam (Versed) - 14.3 mg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2122-1-12**] 08:00 AM
   Other medications:
   SSI
   chlorhex
   zantac
   keppra
   phenobarb
   free H20
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2122-1-12**] 11:38 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 37.2
C (98.9
   HR: 100 (83 - 112) bpm
   BP: 123/72(83) {97/50(62) - 130/77(92)} mmHg
   RR: 16 (14 - 29) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 66 Inch
             Total In:
                                                                  5,246 mL
                                                                  2,027 mL
   PO:
             TF:
                                                                  1,463 mL
                                                                    690 mL
   IVF:
                                                                  2,578 mL
                                                                    777 mL
   Blood products:
   Total out:
                                                                  3,740 mL
                                                                  1,640 mL
   Urine:
                                                                  3,340 mL
                                                                  1,640 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,506 mL
                                                                    387 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 395 (395 - 395) mL
   PS : 10 cmH2O
   RR (Set): 12
   RR (Spontaneous): 5
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 127
   PIP: 18 cmH2O
   Plateau: 12 cmH2O
   SpO2: 100%
   ABG: ///25/
   Ve: 13.9 L/min
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Trace, Left: Trace
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Oriented (to): knows that she is at [**Hospital3 **], Movement:
   Not assessed, Tone: Not assessed, moving all extremeties
   Labs / Radiology
   9.5 g/dL
   323 K/uL
   93 mg/dL
   0.5 mg/dL
   25 mEq/L
   4.0 mEq/L
   16 mg/dL
   110 mEq/L
   141 mEq/L
   25.2 %
   4.3 K/uL
        [image002.jpg]
                            [**2122-1-4**]  08:14 AM
                            [**2122-1-4**]  02:30 PM
                            [**2122-1-5**]  02:44 AM
                            [**2122-1-6**]  03:45 AM
                            [**2122-1-7**]  03:00 AM
                            [**2122-1-8**]  02:53 AM
                            [**2122-1-9**]  03:18 AM
                            [**2122-1-10**]  04:16 AM
                            [**2122-1-11**]  02:35 AM
                             [**2122-1-12**]  03:08 AM
   WBC
   8.7
   10.0
   7.1
   5.9
   7.7
   8.0
   6.1
   4.3
   Hct
   23.8
   24.2
   26.3
   26.6
   27.9
   24.3
   26.8
   28.6
   25.8
   25.2
   Plt
   392
   375
   375
   353
   372
   381
   370
   323
   Cr
   0.5
   0.5
   0.5
   0.5
   0.6
   0.6
   0.5
   0.5
   Glucose
   113
   110
   115
   97
   119
   87
   83
   93
   Other labs: PT / PTT / INR:14.0/31.0/1.2, CK / CKMB / Troponin-T:260//,
   ALT / AST:55/24, Alk Phos / T Bili:58/0.2, Differential-Neuts:78.1 %,
   Lymph:13.1 %, Mono:6.3 %, Eos:1.6 %, Fibrinogen:285 mg/dL, Lactic
   Acid:1.4 mmol/L, Albumin:3.1 g/dL, LDH:203 IU/L, Ca++:7.8 mg/dL,
   Mg++:2.2 mg/dL, PO4:2.9 mg/dL
   Fluid analysis / Other labs: CSF: CX and PCR thus far negative
   Assessment and Plan
 SEIZURE, WITHOUT STATUS EPILEPTICUS:  Adjust phenobarb as per neuro
   recommendations
 Encephalitis:  Definite improvement.  Following more commands, both
   arms.  More interactive, able to tell me that her oldest daughter is 8
   years old.    To get repeat MRI to assess progression., will
   start propofol to sedate her during scan.
   Respiratory failure:  will try weaning trials again after MRI.
   Vomitting:  TFs on hold.
   Rash:  Fluconazole for one dose
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2122-1-12**] 05:37 AM 60 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2122-1-3**] 04:00 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2122-01-13 05:39:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 MAGNETIC RESONANCE IMAGING - At [**2122-1-12**] 03:30 PM
     * Had repeat MRI - wet read: improvement in the FLAIR hyperintense
       areas seen before
 residual areas noted in the left insular, R
       frontal, b/l medial temporal areas. No enhancement/restricted
       diffusion.
     * Phenobarbitol subtherapeutic -> 1 additional bolus of 400mg, then
       to 200mg TID
     * LCMV IgG and IgM, Q fever (coxiella), Histoplasmosis, and
       Bartonella IgG and IgM negative
     * DSDNA negative, ANCA negative
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Doxycycline - [**2122-1-12**] 08:26 PM
   Ampicillin - [**2122-1-13**] 03:29 AM
   Acyclovir - [**2122-1-13**] 05:11 AM
   Infusions:
   Midazolam (Versed) - 14.3 mg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2122-1-12**] 08:00 AM
   Propofol - [**2122-1-12**] 04:15 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:   Today c/o pain in perineal area esp. rectal tube
   and discomfort with breathing tube.
   Flowsheet Data as of  [**2122-1-13**] 05:37 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.5
C (99.5
   Tcurrent: 36.4
C (97.6
   HR: 87 (78 - 102) bpm
   BP: 97/54(63) {79/41(51) - 138/79(91)} mmHg
   RR: 14 (12 - 23) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 66 Inch
             Total In:
                                                                  4,650 mL
                                                                    786 mL
   PO:
             TF:
                                                                  1,315 mL
                                                                    337 mL
   IVF:
                                                                  2,436 mL
                                                                    449 mL
   Blood products:
   Total out:
                                                                  4,100 mL
                                                                    120 mL
   Urine:
                                                                  3,900 mL
                                                                    120 mL
   NG:
                                                                    200 mL
   Stool:
   Drains:
   Balance:
                                                                    550 mL
                                                                    666 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 12
   RR (Spontaneous): 4
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 86
   PIP: 18 cmH2O
   Plateau: 15 cmH2O
   SpO2: 100%
   ABG: ///26/
   Ve: 8.8 L/min
   Physical Examination
   Gen: awake, alert, and interactive
   HEENT: NCAT. Pupils 4mm, equal and reactive bilaterally. Anicteric.
   CV: RRR, no m/r/g
   Lungs: course breath sounds b/l. no wheezing or rhonchi
   Abd: normoactive BS, soft, nontender, nondistended. Rash noted in
   perineal area, cream applied. No new lesions noted.
   Ext: warm, no edema
   Neuro: Opens eyes spontaneously, smiles and reacts appropriately to
   comments/questions.  Is able to point and express emotions w/hand
   signals. Moving UE and LE spontaneously and on command.  R sided SCM
   muscle twitching in neck which occurs with agitation or when emotional.
   2+ patellar reflexes B/L LE and 1+reflexes B/L UE. Able to squeeze with
   R hand>L hand.
   Labs / Radiology
   357 K/uL
   8.8 g/dL
   88 mg/dL
   0.5 mg/dL
   26 mEq/L
   4.1 mEq/L
   15 mg/dL
   110 mEq/L
   143 mEq/L
   25.5 %
   4.5 K/uL
        [image002.jpg]
                            [**2122-1-4**]  02:30 PM
                            [**2122-1-5**]  02:44 AM
                            [**2122-1-6**]  03:45 AM
                            [**2122-1-7**]  03:00 AM
                            [**2122-1-8**]  02:53 AM
                            [**2122-1-9**]  03:18 AM
                            [**2122-1-10**]  04:16 AM
                            [**2122-1-11**]  02:35 AM
                             [**2122-1-12**]  03:08 AM
                             [**2122-1-13**]  03:31 AM
   WBC
   8.7
   10.0
   7.1
   5.9
   7.7
   8.0
   6.1
   4.3
   4.5
   Hct
   24.2
   26.3
   26.6
   27.9
   24.3
   26.8
   28.6
   25.8
   25.2
   25.5
   Plt
   392
   375
   375
   353
   372
   381
   370
   323
   357
   Cr
   0.5
   0.5
   0.5
   0.5
   0.6
   0.6
   0.5
   0.5
   0.5
   Glucose
   113
   110
   115
   97
   119
   87
   83
   93
   88
   Other labs: PT / PTT / INR:14.0/31.0/1.2, CK / CKMB / Troponin-T:260//,
   ALT / AST:55/24, Alk Phos / T Bili:58/0.2, Differential-Neuts:78.1 %,
   Lymph:13.1 %, Mono:6.3 %, Eos:1.6 %, Fibrinogen:285 mg/dL, Lactic
   Acid:1.4 mmol/L, Albumin:3.1 g/dL, LDH:203 IU/L, Ca++:8.2 mg/dL,
   Mg++:2.2 mg/dL, PO4:3.6 mg/dL
   Assessment and Plan
   [**Known firstname 1125**] [**Known lastname 3689**] is 41 yo F with no significant [**Hospital 3690**] transferred from OSH
   with seizure and LP c/w meningoencephalitis. Mental status appears to
   be slowly improving with improved seizure control. Workup has been
   negative so far other than MRI progression being suggestive of herpetic
   involvement vs. protracted seizures.  Several viral cultures/labs
   pending.
   .
   #1 Meningitis vs Encephalitis: She is slowly improving both in
   mentation and strength daily. She continues to have some episodes of
   agitation but is better. Preliminary MRI shows some improvement from
   previous imaging, but final read is still pending. LP x 3
   w/lymphocytosis, last with far fewer WBC. All studies negative so far,
   still waiting for HHV-6, adenovirus, WNV, EEE, LCMV, coxiella, VDRL.
   Repeat HSV and VZV also added on to most recent CSF studies.  Also
   considering autoimmune phenomenon or paraneoplastic syndrome.  [**Doctor First Name **]
   positive but only 1:80.  ANCA, DSDNA, SPEP pending.  Other CSF studies
   pending: Purkinje Antibodies, RI autoantibodies, Neuronal nuclear (Anti
   [**Doctor Last Name **]) Antibody, [**Last Name (un) 4022**] antibody.
   ID studies:
          [**Location (un) **]: CSF: neg for HSV, VZV, enterovirus, cultures
   negative. CSF still pending for parvovirus. Blood: Final BCx negative.
          [**Hospital1 19**]: CSF: neg CMV pcr, neg HSV pcr, neg toxo, neg
   cryptoccocal Ag, neg final bacterial culture.  Fungal and viral prelim
   CSF cultures are negative. CSF AFB culture is pending.  Blood: Negative
   for Histo, Bartonella, Mycoplasma, toxo, CMV, Lyme, EBV, ehrlichia, RPR
   negative. Blood Cx negative for [**12-30**], [**12-31**], [**1-1**].
          [**Hospital1 19**] pending: CSF HHV-6, adenovirus, WNV, EEE, LCMV,
   coxiella, bartonella PCR, Erhlichia serology, VDRL. CSF pending: [**1-10**]
   HSV, VZV
   - continue doxycycline, acyclovir, and ampicillin.
   - continue supportive care including seizure treatment as below
   - follow-up final MRI read
   - If not improving, neuro might want to do brain bx. Hold off for now
   .
   #2 Seizures: Pt. on keppra, Phenobarbital and midazolam. Continues to
   have seizures but less frequently.  Phenobarb trough should be at 40-45
   per neuro. Continue with 200mg tid dosing.
   - 400mg  phenobarb bolus today, 8h later start 200mg TID (start at
   10pm)
   - f/u final MRI read
   -f/u neuro/EP recs
   .
   #3 Intubation: CPAP/PS trial today with good volume movement but low
   minute respirations. Has been intubated now for 2 weeks with concern
   for tracheomalacia. Will open up discussion with family whether trach
   is an option at this point, given that she is still under a good deal
   of sedation. However she is clearly improving slowly and may be able to
   wean off sedation by week
s end. [**Month (only) 51**] do trial MMV.
   - continue to wean midazolam
   - daily PSV trials
   .
   # Transaminitis: resolved
   .
   #Tachycardia: Likely volume depleted w/ elevated Hct. Improved
 now
   high 90
s to low 100
s with agitation. To follow.
   .
   #FEN - Tube feeds.  Replete lytes PRN. Free water boluses decreased to
   125cc Q6h.
   .
   #PPX: Heparin sc, bowel regimen prn, pneumoboots, Zantac.
   .
   # Access: PICC
   .
   # Code: Full
   .
   # Dispo: ICU level of care.
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2122-1-12**] 09:21 PM 60 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2122-1-3**] 04:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2122-01-13 10:48:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   41 yo women with encephalitis.   Has been more awake.  RSBI 86
   24 Hour Events:
 MAGNETIC RESONANCE IMAGING - At [**2122-1-12**] 03:30 PM - showed less
   hyperintensity on flair images.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Acyclovir - [**2122-1-13**] 05:11 AM
   Ampicillin - [**2122-1-13**] 08:00 AM
   Doxycycline - [**2122-1-13**] 08:00 AM
   Infusions:
   Midazolam (Versed) - 14.3 mg/hour
   Other ICU medications:
   Propofol - [**2122-1-12**] 04:15 PM
   Other medications:
   hep
   chlorhex
   keppra
   miconzole
   free H20
   phenobarb
   fentanyl
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2122-1-13**] 10:47 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.5
C (99.5
   Tcurrent: 36.6
C (97.8
   HR: 102 (78 - 102) bpm
   BP: 119/62(75) {79/41(51) - 138/79(91)} mmHg
   RR: 20 (12 - 24) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 66 Inch
             Total In:
                                                                  4,650 mL
                                                                  1,768 mL
   PO:
             TF:
                                                                  1,315 mL
                                                                    625 mL
   IVF:
                                                                  2,436 mL
                                                                  1,053 mL
   Blood products:
   Total out:
                                                                  4,100 mL
                                                                    970 mL
   Urine:
                                                                  3,900 mL
                                                                    970 mL
   NG:
                                                                    200 mL
   Stool:
   Drains:
   Balance:
                                                                    550 mL
                                                                    798 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 12
   RR (Spontaneous): 6
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 86
   PIP: 16 cmH2O
   Plateau: 14 cmH2O
   SpO2: 100%
   ABG: ///26/
   Ve: 8.3 L/min
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent
   Musculoskeletal: Unable to stand
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   8.8 g/dL
   357 K/uL
   88 mg/dL
   0.5 mg/dL
   26 mEq/L
   4.1 mEq/L
   15 mg/dL
   110 mEq/L
   143 mEq/L
   25.5 %
   4.5 K/uL
        [image002.jpg]
                            [**2122-1-4**]  02:30 PM
                            [**2122-1-5**]  02:44 AM
                            [**2122-1-6**]  03:45 AM
                            [**2122-1-7**]  03:00 AM
                            [**2122-1-8**]  02:53 AM
                            [**2122-1-9**]  03:18 AM
                            [**2122-1-10**]  04:16 AM
                            [**2122-1-11**]  02:35 AM
                             [**2122-1-12**]  03:08 AM
                             [**2122-1-13**]  03:31 AM
   WBC
   8.7
   10.0
   7.1
   5.9
   7.7
   8.0
   6.1
   4.3
   4.5
   Hct
   24.2
   26.3
   26.6
   27.9
   24.3
   26.8
   28.6
   25.8
   25.2
   25.5
   Plt
   392
   375
   375
   353
   372
   381
   370
   323
   357
   Cr
   0.5
   0.5
   0.5
   0.5
   0.6
   0.6
   0.5
   0.5
   0.5
   Glucose
   113
   110
   115
   97
   119
   87
   83
   93
   88
   Other labs: PT / PTT / INR:14.0/31.0/1.2, CK / CKMB / Troponin-T:260//,
   ALT / AST:55/24, Alk Phos / T Bili:58/0.2, Differential-Neuts:78.1 %,
   Lymph:13.1 %, Mono:6.3 %, Eos:1.6 %, Fibrinogen:285 mg/dL, Lactic
   Acid:1.4 mmol/L, Albumin:3.1 g/dL, LDH:203 IU/L, Ca++:8.2 mg/dL,
   Mg++:2.2 mg/dL, PO4:3.6 mg/dL
   Assessment and Plan
   Viral Encephalitis:  Overall clinical and radiographic improvement.
   Still with clinical seizure activity.  F/u on final MRI read.
   Respiratory failure:  Try MMV to see if she will tolerate PSV.  Will
   discuss with husband about tracheostomy.
   Seizures with status:  will discuss with neuro team about numbers of
   seizures and feasibility to wean versed.
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2122-1-12**] 09:21 PM 60 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2122-1-3**] 04:00 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2122-01-14 06:14:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   -phenobarb 33.9. per neuro give 300mg IV at 4pm plus 400mg bolus.
   Rechecked level in AM -> repeat was <1.2, was repeated and was <1.2
   again. Called lab, was error -> re-ran test and was 49.9. Now phenobarb
   300 TID starting today, to re-check level before tomorrow am dose.
   -per husband was taking effexor, ?abrupt stop causing seizure.
   - [**1-10**] CSF HCV was negative
   Allergies:
   No Known Drug Allergies
   Antibiotics:
   Doxycycline
   Ampicillin
   Acyclovir
   Infusions:
   Midazolam (Versed) - 14 mg/hour
   Other ICU medications:
   Ranitidine (Prophylaxis) - [**2122-1-13**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Patient denies pain, has no complaints
   Flowsheet Data as of  [**2122-1-14**] 06:13 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.3
   Tcurrent: 35.9
C (96.6
   HR: 87 (78 - 104) bpm
   BP: 97/65(72) {88/52(62) - 130/86(126)} mmHg
   RR: 15 (11 - 32) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 66 Inch
             Total In:
                                                                  4,032 mL
                                                                  1,063 mL
   PO:
             TF:
                                                                  1,442 mL
                                                                    364 mL
   IVF:
                                                                  2,379 mL
                                                                    699 mL
   Blood products:
   Total out:
                                                                  2,810 mL
                                                                  1,070 mL
   Urine:
                                                                  2,810 mL
                                                                  1,070 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,222 mL
                                                                     -7 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: MMV/PSV
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 545 (535 - 545) mL
   PS : 10 cmH2O
   RR (Set): 8
   RR (Spontaneous): 14
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 97
   PIP: 15 cmH2O
   Plateau: 14 cmH2O
   Compliance: 55.6 cmH2O/mL
   SpO2: 100%
   ABG:
   Ve: 10.6 L/min
   Physical Examination
   Gen: awake, alert, and interactive
   HEENT: NCAT. Pupils 4mm, equal and reactive bilaterally. Anicteric. EOM
   decreased in all directions b/l.
   CV: RRR, no m/r/g
   Lungs: course breath sounds b/l. no wheezing or rhonchi
   Abd: normoactive BS, soft, nontender, nondistended.
   Ext: warm, no edema
   Neuro: Opens eyes spontaneously, smiles and reacts appropriately to
   comments/questions.  Is able to point and express emotions w/hand
   signals. Moving UE and LE spontaneously and on command.  No more R
   sided SCM muscle twitching seen. 1+ patellar reflexes B/L LE and
   2+reflexes B/L UE. Able to squeeze with R hand>L hand. Patient relays
   decreased sensation to light touch LUE+LLE.
   Labs / Radiology
   309 K/uL
   8.9 g/dL
   90 mg/dL
   0.4 mg/dL
   27 mEq/L
   4.1 mEq/L
   14 mg/dL
   108 mEq/L
   140 mEq/L
   25.1 %
   4.5 K/uL
        [image002.jpg]
                            [**2122-1-5**]  02:44 AM
                            [**2122-1-6**]  03:45 AM
                            [**2122-1-7**]  03:00 AM
                            [**2122-1-8**]  02:53 AM
                            [**2122-1-9**]  03:18 AM
                            [**2122-1-10**]  04:16 AM
                            [**2122-1-11**]  02:35 AM
                             [**2122-1-12**]  03:08 AM
                             [**2122-1-13**]  03:31 AM
                             [**2122-1-14**]  04:09 AM
   WBC
   8.7
   10.0
   7.1
   5.9
   7.7
   8.0
   6.1
   4.3
   4.5
   4.5
   Hct
   26.3
   26.6
   27.9
   24.3
   26.8
   28.6
   25.8
   25.2
   25.5
   25.1
   Plt
   392
   375
   375
   353
   372
   381
   370
   323
   357
   309
   Cr
   0.5
   0.5
   0.5
   0.5
   0.6
   0.6
   0.5
   0.5
   0.5
   0.4
   Glucose
   113
   110
   115
   97
   119
   87
   83
   93
   88
   90
   Other labs:
   Ca++:8.0 mg/dL, Mg++:2.0 mg/dL, PO4:3.9 mg/dL
   Phenobarb level 49.9 (<1.2 reflected lab error)
   Spep normal w/sl elevated IgM but no oligoclonal bands reported
   Assessment and Plan
   [**Known firstname 1125**] [**Known lastname 3689**] is 41 yo F with no significant [**Hospital 3690**] transferred from OSH
   with seizure and LP c/w meningoencephalitis. Mental status appears to
   be slowly improving with improved seizure control. Workup has been
   negative so far other than MRI progression being suggestive of herpetic
   involvement vs. protracted seizures.  Several viral cultures/labs
   pending.
   .
   #1 Meningitis vs Encephalitis: She is slowly improving both in
   mentation and strength daily. She continues to have some episodes of
   agitation and some of somnolence but is better overall. Preliminary
   read for the repeat MRI shows some improvement from previous imaging,
   but final read is still pending. LP x 3 w/lymphocytosis, last with far
   fewer WBC. All studies negative so far, still waiting for HHV-6,
   adenovirus, WNV, EEE, LCMV, coxiella, VDRL.  Repeat HSV and VZV also
   added on to most recent CSF studies, and HSV is negative.  Also
   considering autoimmune phenomenon or paraneoplastic syndrome.  [**Doctor First Name **]
   positive but only 1:80.  ANCA, DSDNA, SPEP all negative as well.
   Paraneoplastic syndrome CSF studies are still pending: Purkinje
   Antibodies, RI autoantibodies, Neuronal nuclear (Anti [**Doctor Last Name **]) Antibody,
   [**Last Name (un) 4022**] antibody.
   ID studies:
          [**Location (un) **]: CSF: neg for HSV, VZV, enterovirus, cultures
   negative. Parvovirus test not complete due to miscommunication between
   state lab and [**Location (un) **].  Blood: Final BCx negative.
          [**Hospital1 19**]: CSF: neg CMV pcr, neg HSV pcr, neg toxo, neg
   cryptoccocal Ag, adenovirus, Lyme, neg final bacterial culture.  Fungal
   and viral prelim CSF cultures are negative. CSF AFB culture is
   pending.  Blood: Negative for Histo, Bartonella, Mycoplasma, toxo, CMV,
   Lyme, EBV, ehrlichia, RPR negative. Blood Cx negative for [**12-30**], [**12-31**],
   [**1-1**].
          [**Hospital1 19**] pending: CSF: HHV-6, EEE, WNV, VZV, parvovirus,
   arbovirus, VDRL. Blood pending: bartonella PCR, EEE, LCMV, parvovirus
   IgG IgM, parvo DNA, WNV.
   - continue doxycycline, acyclovir, and ampicillin.
   - continue supportive care including seizure treatment as below
   - follow-up final MRI read
   - If not improving, neuro might want to do brain bx. Hold off for now
   .
   #2 Seizures: Pt. on keppra, Phenobarbital and midazolam. Continues to
   have seizures but less frequently.  Phenobarb trough should be at 40-45
   per neuro, was 49.9 today, starting 300mg TID. Neuro aware of lab
   error, true phenobarb level. To re-check level before tomorrow am
   dose.  As per Neuro recs, Midazolam to be weaned slowly starting
   tomorrow as long as phenobarb therapeutic tomorrow am with following
   schedule: decrease by 1mg at 5am, 9am, 1pm, but no decreases after 1pm.
   Epilepsy fellow must see patient and review EEG in early afternoon
   before leaving to make sure that patient not seizing with tapering down
   of Midazolam.
   - f/u final MRI read
   -f/u neuro/EP recs
   .
   #3 Intubation: Had been on MMV/PSV since yesterday 10am w/out any
   periods of apnea. Has been intubated now for 2 weeks with concern for
   tracheomalacia. Will open up discussion with family whether trach is an
   option at this point, given that she is still under a good deal of
   sedation. However she is clearly improving slowly and may be able to
   wean off sedation by week
s end.
   - will wean midazolam starting tomorrow per neuro recommended schedule.
   - wean pressure support/PEEP as needed. Goal is [**9-16**] today.
   .
   # Transaminitis: resolved
   .
   # Tachycardia: resolved.
   .
   #FEN - Tube feeds.  Replete lytes PRN. Free water boluses decreased to
   125cc Q6h.
   .
   #PPX: Heparin sc, bowel regimen prn, pneumoboots, Zantac.
   .
   # Access: PICC
   .
   # Code: Full
   .
   # Dispo: ICU level of care.
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2122-1-13**] 11:56 PM 60 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2122-1-3**] 04:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2122-01-14 11:34:00 Physician Attending Progress Note
Chief Complaint: encephalitis
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   41 yo women with encephalitis presumable viral, status epilepticus.
   Increasing phenobarb to get better control of seizures
   24 Hour Events:
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Acyclovir - [**2122-1-14**] 06:01 AM
   Doxycycline - [**2122-1-14**] 08:00 AM
   Ampicillin - [**2122-1-14**] 08:02 AM
   Infusions:
   Midazolam (Versed) - 14 mg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2122-1-14**] 08:00 AM
   Other medications:
   keppra
   miconazole
   phenobarb
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2122-1-14**] 11:34 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.3
   Tcurrent: 36.1
C (97
   HR: 89 (78 - 104) bpm
   BP: 111/65(76) {88/52(62) - 130/86(126)} mmHg
   RR: 13 (11 - 32) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 66 Inch
             Total In:
                                                                  4,032 mL
                                                                  1,831 mL
   PO:
             TF:
                                                                  1,442 mL
                                                                    663 mL
   IVF:
                                                                  2,379 mL
                                                                  1,168 mL
   Blood products:
   Total out:
                                                                  2,810 mL
                                                                  2,350 mL
   Urine:
                                                                  2,810 mL
                                                                  2,350 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,222 mL
                                                                   -519 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 0 (0 - 500) mL
   Vt (Spontaneous): 545 (545 - 545) mL
   PS : 10 cmH2O
   RR (Set): 8
   RR (Spontaneous): 14
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 97
   PIP: 15 cmH2O
   SpO2: 99%
   ABG: ///27/
   Ve: 8.3 L/min
   Physical Examination
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Present), (Left DP pulse:
   Present)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): forgets where she is, Movement: Not assessed,
   Tone: Not assessed, moving all  4 extremities
   Labs / Radiology
   8.9 g/dL
   309 K/uL
   90 mg/dL
   0.4 mg/dL
   27 mEq/L
   4.1 mEq/L
   14 mg/dL
   108 mEq/L
   140 mEq/L
   25.1 %
   4.5 K/uL
        [image002.jpg]
                            [**2122-1-5**]  02:44 AM
                            [**2122-1-6**]  03:45 AM
                            [**2122-1-7**]  03:00 AM
                            [**2122-1-8**]  02:53 AM
                            [**2122-1-9**]  03:18 AM
                            [**2122-1-10**]  04:16 AM
                            [**2122-1-11**]  02:35 AM
                             [**2122-1-12**]  03:08 AM
                             [**2122-1-13**]  03:31 AM
                             [**2122-1-14**]  04:09 AM
   WBC
   8.7
   10.0
   7.1
   5.9
   7.7
   8.0
   6.1
   4.3
   4.5
   4.5
   Hct
   26.3
   26.6
   27.9
   24.3
   26.8
   28.6
   25.8
   25.2
   25.5
   25.1
   Plt
   392
   375
   375
   353
   372
   381
   370
   323
   357
   309
   Cr
   0.5
   0.5
   0.5
   0.5
   0.6
   0.6
   0.5
   0.5
   0.5
   0.4
   Glucose
   113
   110
   115
   97
   119
   87
   83
   93
   88
   90
   Other labs: PT / PTT / INR:14.0/31.0/1.2, CK / CKMB / Troponin-T:260//,
   ALT / AST:55/24, Alk Phos / T Bili:58/0.2, Differential-Neuts:78.1 %,
   Lymph:13.1 %, Mono:6.3 %, Eos:1.6 %, Fibrinogen:285 mg/dL, Lactic
   Acid:1.4 mmol/L, Albumin:3.1 g/dL, LDH:203 IU/L, Ca++:8.0 mg/dL,
   Mg++:2.0 mg/dL, PO4:3.9 mg/dL
   Assessment and Plan
   Viral encephalitis:  Studies thus far negative
   Status epilepticus:  better control of seizures with increased
   phenobarbital dose, but is more drowsy this morning.  Will cut back on
   versed as per neuro recs starting tomorrow.
   Respiratory failure:  Having no apnea on PSV, but will need to try SBT
   to determine weather she will be able to extubate.
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2122-1-13**] 11:56 PM 60 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2122-1-3**] 04:00 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 40 minutes
   Patient is critically ill

2122-01-15 05:30:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
          phenobarb level [**1-14**] am 49.9.
          seizure (neck twitching) x3 late afternoon
          At 8pm had episode of possible seizure with staring up with
   apnea requiring switching to CMV, although when EEG was reviewed by
   neurology they saw no evidence of seizure activity.
          Difficulty suctioning pt, as if suction cath getting stuck
          Tolerated PS 8/5 yesterday am but increased to [**1-16**] after
   deep suctioning
   Allergies:
   No Known Drug Allergies
   Antibiotics:
   Doxycycline
   Acyclovir
   Infusions:
   Midazolam (Versed) - 14 mg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2122-1-15**] 12:03 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Denies pain anywhere
   Flowsheet Data as of  [**2122-1-15**] 05:30 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.2
   Tcurrent: 36.8
C (98.2
   HR: 88 (86 - 102) bpm
   BP: 98/54(64) {91/51(60) - 123/79(87)} mmHg
   RR: 22 (8 - 31) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 66 Inch
             Total In:
                                                                  3,430 mL
                                                                  1,269 mL
   PO:
             TF:
                                                                  1,434 mL
                                                                    317 mL
   IVF:
                                                                  1,876 mL
                                                                    827 mL
   Blood products:
   Total out:
                                                                  3,940 mL
                                                                    660 mL
   Urine:
                                                                  3,940 mL
                                                                    660 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -510 mL
                                                                    609 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST
   Vt (Set): 400 (0 - 500) mL
   Vt (Spontaneous): 359 (359 - 359) mL
   PS : 8 cmH2O
   RR (Set): 14
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 81
   PIP: 18 cmH2O
   Plateau: 14 cmH2O
   Compliance: 44.4 cmH2O/mL
   SpO2: 98%
   ABG: ///26/
   Ve: 10 L/min
   Physical Examination
   Gen: awake, alert, and interactive
   HEENT: NCAT. Pupils 4mm, equal and reactive bilaterally. Anicteric. EOM
   decreased in all directions b/l.
   CV: RRR, no m/r/g
   Lungs: course breath sounds b/l. no wheezing or rhonchi
   Abd: normoactive BS, soft, nontender, nondistended.
   Ext: warm, no edema
   Neuro: Opens eyes spontaneously, smiles and reacts appropriately to
   comments/questions.  Is able to point and express emotions w/hand
   signals. Moving UE and LE spontaneously and on command.  No more R
   sided SCM muscle twitching seen. 1+ patellar reflexes B/L LE and
   2+reflexes B/L UE. Able to squeeze with R hand>L hand. Patient relays
   decreased sensation to light touch LUE+LLE.
   Labs / Radiology
   332 K/uL
   9.1 g/dL
   118 mg/dL
   0.5 mg/dL
   26 mEq/L
   4.2 mEq/L
   15 mg/dL
   108 mEq/L
   140 mEq/L
   25.6 %
   6.4 K/uL
        [image002.jpg]
                            [**2122-1-6**]  03:45 AM
                            [**2122-1-7**]  03:00 AM
                            [**2122-1-8**]  02:53 AM
                            [**2122-1-9**]  03:18 AM
                            [**2122-1-10**]  04:16 AM
                            [**2122-1-11**]  02:35 AM
                             [**2122-1-12**]  03:08 AM
                             [**2122-1-13**]  03:31 AM
                             [**2122-1-14**]  04:09 AM
                             [**2122-1-15**]  03:13 AM
   WBC
   10.0
   7.1
   5.9
   7.7
   8.0
   6.1
   4.3
   4.5
   4.5
   6.4
   Hct
   26.6
   27.9
   24.3
   26.8
   28.6
   25.8
   25.2
   25.5
   25.1
   25.6
   Plt
   375
   375
   353
   372
   381
   370
   [**Telephone/Fax (3) 4092**]
   332
   Cr
   0.5
   0.5
   0.5
   0.6
   0.6
   0.5
   0.5
   0.5
   0.4
   0.5
   Glucose
   110
   115
   97
   119
   87
   83
   93
   88
   90
   118
   Other labs: Ca++:8.2 mg/dL, Mg++:2.1 mg/dL, PO4:4.2 mg/dL
   3:13am phenobarb: 57.4 -> 54.4 at 8am (true trough)
   Ro/LA (SSA, SSB) Ab negative
   MRI head final read: 1. Improvement in appearance of several FLAIR
   hyperintense lesions. No mass effect or abnormal enhancement. No new
   lesions.  [**Month (only) 51**] be seizure-related changes but distribution is atypical.
   Could also correspond with improvement after appropriate treatment for
   underlying disorder. 2. mod to severe sinus disease
 fluid and mucosal
   thickening involving the R side of the sphenoid sinus and mastoid air
   cells b/l. Not sig changed.
   Assessment and Plan
   [**Known firstname 1125**] [**Known lastname 3689**] is 41 yo F with no significant [**Hospital 3690**] transferred from OSH
   with seizure and LP c/w meningoencephalitis. Mental status appears to
   be slowly improving with improved seizure control. Workup has been
   negative so far other than MRI progression being suggestive of herpetic
   involvement vs. protracted seizures.  Several viral cultures/labs
   pending.
   .
   #1 Meningitis vs Encephalitis: She is slowly improving both in
   mentation and strength daily. She continues to have some episodes of
   agitation with possible seizure activity and some of somnolence
   including short periods of apnea but is better overall. Repeat MRI
   showed some improvement from previous imaging, consistent with improved
   seizure control v treatment for encephalitis/meningitis. LP x 3
   w/lymphocytosis, last with far fewer WBC. All studies negative for
   active infection so far, although still awaiting several studies (see
   list below).  Repeat HSV and VZV also added on to most recent CSF
   studies and HSV is negative.  Also considering autoimmune phenomenon or
   paraneoplastic syndrome.  [**Doctor First Name **] positive but only 1:80.  ANCA, DSDNA,
   SPEP, Ro/[**Name Prefix (Prefixes) **] [**Last Name (Prefixes) **] negative as well.  Paraneoplastic syndrome CSF studies
   are still pending: Purkinje Antibodies, RI autoantibodies, Neuronal
   nuclear (Anti [**Doctor Last Name **]) Antibody, [**Last Name (un) 4022**] antibody. Doxycycline d/c b/c coxiella
   negative.
   ID studies:
          [**Location (un) **]: CSF: neg for HSV, VZV, enterovirus, cultures
   negative. Parvovirus test not complete due to miscommunication between
   state lab and [**Location (un) **].  Blood: Final BCx negative.
          [**Hospital1 19**]: CSF: neg CMV pcr, neg HSV pcr, neg toxo, neg
   cryptoccocal Ag, adenovirus, Lyme, neg final bacterial culture.  Fungal
   and viral prelim CSF cultures are negative. CSF AFB culture is
   pending.  Blood: Negative for Histo, Bartonella, Mycoplasma, toxo, CMV,
   Lyme, EBV, ehrlichia, RPR negative. Blood Cx negative for [**12-30**], [**12-31**],
   [**1-1**].
          [**Hospital1 19**] pending: CSF: HHV-6, EEE, WNV, VZV, parvovirus,
   arbovirus, VDRL. Blood pending: bartonella PCR, EEE, LCMV, parvovirus
   IgG IgM, parvo DNA, WNV.
   - continue acyclovir, and ampicillin.
   - d/w neuro length of treatment w/acyclovir
   - continue supportive care including seizure treatment as below
   .
   #2 Seizures: Pt. on keppra, Phenobarbital and midazolam. Continues to
   have seizures but less frequently.  Phenobarb trough should be at 40-45
   per neuro, was >50 today, continuing 300mg TID as per neuro.  As per
   Neuro recs, Midazolam to be weaned slowly starting today with following
   schedule: decrease by 1mg at 5am, 9am, 1pm, but no decreases after 1pm.
   Epilepsy fellow  and/or attending to see patient and review EEG in
   early afternoon before leaving to make sure that patient not seizing
   with tapering down of Midazolam.
   - taper midazolam tomorrow as per above schedule
   - f/u neuro/EP recs
   .
   #3 Intubation: Was on PSV yesterday and had 5 second period of apnea
   w/possible seizure(?). Has been intubated now for 2 weeks with concern
   for tracheomalacia. Has been discussing with family whether trach is an
   option at this point, given that she is still under a good deal of
   sedation. However she is clearly improving slowly and will hopefully be
   able to be weaned off sedation by week
s end.  Habituation to sedation
   effects of phenobarbitol will also help with patient
s mental status
   and may decrease the periods of apnea.
   - allow patient to stay on PSV as long as not apnic
   - will wean midazolam starting today per neuro recommended schedule.
   - wean pressure support/PEEP as needed. Goal is [**6-16**].
   .
   # Transaminitis: resolved
   .
   # Tachycardia: resolved.
   .
   #FEN - Tube feeds.  Replete lytes PRN. Free water boluses decreased to
   125cc Q6h.
   .
   #PPX: Heparin sc, bowel regimen prn, pneumoboots, Zantac.
   .
   # Access: PICC
   .
   # Code: Full
   .
   # Dispo: ICU level of care.
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2122-1-15**] 12:13 AM 60 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2122-1-3**] 04:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2122-01-15 10:35:00 Physician Attending Progress Note
Chief Complaint: encephalitis
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   41 yo women with viral encephalitis and status epilepticus.  Episode of
   apnea yesterday, but otherwise tolerated PSV 8/5.  Beginning to wean
   versed.
   24 Hour Events:
   episodes of apnea
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Doxycycline - [**2122-1-14**] 08:00 AM
   Acyclovir - [**2122-1-15**] 06:01 AM
   Ampicillin - [**2122-1-15**] 08:00 AM
   Infusions:
   Midazolam (Versed) - 14 mg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2122-1-15**] 12:03 AM
   Ranitidine (Prophylaxis) - [**2122-1-15**] 08:00 AM
   Other medications:
   SSI
   chlorhex
   zantac
   keppra
   miconazole
   phenobarb 300mg tid
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2122-1-15**] 10:35 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.5
   Tcurrent: 36.9
C (98.5
   HR: 90 (83 - 102) bpm
   BP: 102/60(70) {91/51(60) - 123/79(87)} mmHg
   RR: 12 (8 - 31) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 66 Inch
             Total In:
                                                                  3,430 mL
                                                                  1,976 mL
   PO:
             TF:
                                                                  1,434 mL
                                                                    615 mL
   IVF:
                                                                  1,876 mL
                                                                  1,146 mL
   Blood products:
   Total out:
                                                                  3,940 mL
                                                                  1,420 mL
   Urine:
                                                                  3,940 mL
                                                                  1,420 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -510 mL
                                                                    556 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 400 (400 - 500) mL
   Vt (Spontaneous): 619 (359 - 619) mL
   PS : 10 cmH2O
   RR (Set): 14
   RR (Spontaneous): 12
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 81
   PIP: 15 cmH2O
   Plateau: 14 cmH2O
   SpO2: 99%
   ABG: ///26/
   Ve: 7.4 L/min
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: 1+, Left: 1+
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Purposeful, Tone: Not assessed
   Labs / Radiology
   9.1 g/dL
   332 K/uL
   118 mg/dL
   0.5 mg/dL
   26 mEq/L
   4.2 mEq/L
   15 mg/dL
   108 mEq/L
   140 mEq/L
   25.6 %
   6.4 K/uL
        [image002.jpg]
                            [**2122-1-6**]  03:45 AM
                            [**2122-1-7**]  03:00 AM
                            [**2122-1-8**]  02:53 AM
                            [**2122-1-9**]  03:18 AM
                            [**2122-1-10**]  04:16 AM
                            [**2122-1-11**]  02:35 AM
                             [**2122-1-12**]  03:08 AM
                             [**2122-1-13**]  03:31 AM
                             [**2122-1-14**]  04:09 AM
                             [**2122-1-15**]  03:13 AM
   WBC
   10.0
   7.1
   5.9
   7.7
   8.0
   6.1
   4.3
   4.5
   4.5
   6.4
   Hct
   26.6
   27.9
   24.3
   26.8
   28.6
   25.8
   25.2
   25.5
   25.1
   25.6
   Plt
   375
   375
   353
   372
   381
   370
   [**Telephone/Fax (3) 4092**]
   332
   Cr
   0.5
   0.5
   0.5
   0.6
   0.6
   0.5
   0.5
   0.5
   0.4
   0.5
   Glucose
   110
   115
   97
   119
   87
   83
   93
   88
   90
   118
   Other labs: PT / PTT / INR:14.0/31.0/1.2, CK / CKMB / Troponin-T:260//,
   ALT / AST:55/24, Alk Phos / T Bili:58/0.2, Differential-Neuts:78.1 %,
   Lymph:13.1 %, Mono:6.3 %, Eos:1.6 %, Fibrinogen:285 mg/dL, Lactic
   Acid:1.4 mmol/L, Albumin:3.1 g/dL, LDH:203 IU/L, Ca++:8.2 mg/dL,
   Mg++:2.1 mg/dL, PO4:4.2 mg/dL
   Assessment and Plan
   viral encephalitis:  continue acyclovir, overall improvement.
   status epilepticus:  beginning to taper versed.  Watch for seizure
   activity.  Phenobarb level 54 this am, will discuss with neuro re:
   dosing
   respiratory failure:  will try and decrease to PSV of 5 and see if that
   improves apneas with decreased VT.
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2122-1-15**] 12:13 AM 60 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2122-1-3**] 04:00 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2122-01-16 05:17:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 BRONCHOSCOPY - At [**2122-1-15**] 06:30 PM
     * parvo B19 IgG and IgM positive (5.58 and 5.56; negative for both is
       <1.2), pcr still pending
     * midazolam weaned to 12 overnight (may be 11 by rounds)
     * bronchoscopy showed significant clogging of et tube by hardened
       secretions, et tube changed by anesthesia w/out problems
     * to consider calling IP in am for possible trach on Monday if
       patient unable to be weaned from vent
     * lft's re-checked, normal
   Allergies:
   No Known Drug Allergies
   Antibiotics:
   Doxycycline
   Acyclovir
   Ampicillin
   Infusions:
   Midazolam (Versed) - 11 mg/hour
   Other ICU medications:
   Ranitidine (Prophylaxis) - [**2122-1-15**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2122-1-16**] 05:14 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.2
   Tcurrent: 37.9
C (100.2
   HR: 97 (83 - 102) bpm
   BP: 119/73(83) {95/50(62) - 120/76(84)} mmHg
   RR: 20 (12 - 31) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 66 Inch
             Total In:
                                                                  3,513 mL
                                                                  1,128 mL
   PO:
             TF:
                                                                  1,446 mL
                                                                    313 mL
   IVF:
                                                                  1,853 mL
                                                                    815 mL
   Blood products:
   Total out:
                                                                  3,900 mL
                                                                  1,125 mL
   Urine:
                                                                  3,900 mL
                                                                  1,125 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -387 mL
                                                                      3 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST
   Vt (Spontaneous): 380 (344 - 619) mL
   PS : 10 cmH2O
   RR (Set): 14
   RR (Spontaneous): 26
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 85
   PIP: 17 cmH2O
   Plateau: 14 cmH2O
   SpO2: 100%
   ABG: ////
   Ve: 10.2 L/min
   Physical Examination
   Gen: awake, alert, and interactive
   HEENT: NCAT. Pupils 4mm, equal and reactive bilaterally. Anicteric. EOM
   decreased in all directions b/l.
   CV: RRR, no m/r/g
   Lungs: course breath sounds b/l. no wheezing or rhonchi
   Abd: normoactive BS, soft, nontender, nondistended.
   Ext: warm, no edema
   Neuro: Opens eyes spontaneously, smiles and reacts appropriately to
   comments/questions.  Is able to point and express emotions w/hand
   signals. Moving UE and LE spontaneously and on command.  No more R
   sided SCM muscle twitching seen. 1+ patellar reflexes B/L LE and
   2+reflexes B/L UE. Able to squeeze with R hand>L hand. Patient relays
   decreased sensation to light touch LUE+LLE.
   Labs / Radiology
   310 K/uL
   9.2 g/dL
   118 mg/dL
   0.5 mg/dL
   26 mEq/L
   4.2 mEq/L
   15 mg/dL
   108 mEq/L
   140 mEq/L
   25.6 %
   8.2 K/uL
        [image002.jpg]
                            [**2122-1-7**]  03:00 AM
                            [**2122-1-8**]  02:53 AM
                            [**2122-1-9**]  03:18 AM
                            [**2122-1-10**]  04:16 AM
                            [**2122-1-11**]  02:35 AM
                             [**2122-1-12**]  03:08 AM
                             [**2122-1-13**]  03:31 AM
                             [**2122-1-14**]  04:09 AM
                             [**2122-1-15**]  03:13 AM
                             [**2122-1-16**]  04:07 AM
   WBC
   7.1
   5.9
   7.7
   8.0
   6.1
   4.3
   4.5
   4.5
   6.4
   8.2
   Hct
   27.9
   24.3
   26.8
   28.6
   25.8
   25.2
   25.5
   25.1
   25.6
   25.6
   Plt
   375
   353
   372
   381
   370
   323
   357
   309
   332
   310
   Cr
   0.5
   0.5
   0.6
   0.6
   0.5
   0.5
   0.5
   0.4
   0.5
   Glucose
   115
   97
   119
   87
   83
   93
   88
   90
   118
   Other labs: PT / PTT / INR:14.0/31.0/1.2, CK / CKMB / Troponin-T:260//,
   ALT / AST:45/26, Alk Phos / T Bili:66/0.2, Differential-Neuts:78.1 %,
   Lymph:13.1 %, Mono:6.3 %, Eos:1.6 %, Fibrinogen:285 mg/dL, Lactic
   Acid:1.4 mmol/L, Albumin:3.1 g/dL, LDH:203 IU/L, Ca++:8.2 mg/dL,
   Mg++:2.1 mg/dL, PO4:4.2 mg/dL
   Assessment and Plan
   [**Known firstname 1125**] [**Known lastname 3689**] is 41 yo F with no significant [**Hospital 3690**] transferred from OSH
   with seizure and LP c/w meningoencephalitis. Mental status appears to
   be slowly improving with improved seizure control. Workup has been
   negative so far other than MRI progression being suggestive of herpetic
   involvement vs. protracted seizures.  Several viral cultures/labs
   pending.
   .
   #1 Meningitis vs Encephalitis: She is slowly improving both in
   mentation and strength daily. She continues to have some episodes of
   agitation with possible seizure activity and some of somnolence
   including short periods of apnea but is better overall. Repeat MRI
   showed some improvement from previous imaging, consistent with improved
   seizure control v treatment for encephalitis/meningitis. LP x 3
   w/lymphocytosis, last with far fewer WBC. All studies negative for
   active infection so far, although still awaiting several studies (see
   list below).  Repeat HSV and VZV also added on to most recent CSF
   studies and HSV is negative.  Also considering autoimmune phenomenon or
   paraneoplastic syndrome.  [**Doctor First Name **] positive but only 1:80.  ANCA, DSDNA,
   SPEP, Ro/[**Name Prefix (Prefixes) **] [**Last Name (Prefixes) **] negative as well.  Paraneoplastic syndrome CSF studies
   are still pending: Purkinje Antibodies, RI autoantibodies, Neuronal
   nuclear (Anti [**Doctor Last Name **]) Antibody, [**Last Name (un) 4022**] antibody. Doxycycline d/c b/c coxiella
   negative.
   ID studies:
          [**Location (un) **]: CSF: neg for HSV, VZV, enterovirus, cultures
   negative. Parvovirus test not complete due to miscommunication between
   state lab and [**Location (un) **].  Blood: Final BCx negative.
          [**Hospital1 19**]: CSF: neg CMV pcr, neg HSV pcr, neg toxo, neg
   cryptoccocal Ag, adenovirus, Lyme, neg final bacterial culture.  Fungal
   and viral prelim CSF cultures are negative. CSF AFB culture is
   pending.  Blood: Negative for Histo, Bartonella, Mycoplasma, toxo, CMV,
   Lyme, EBV, ehrlichia, RPR negative. Blood Cx negative for [**12-30**], [**12-31**],
   [**1-1**].
          [**Hospital1 19**] pending: CSF: HHV-6, EEE, WNV, VZV, parvovirus,
   arbovirus, VDRL. Blood pending: bartonella PCR, EEE, LCMV, parvovirus
   IgG IgM, parvo DNA, WNV.
   - continue acyclovir, and ampicillin.
   - d/w neuro length of treatment w/acyclovir
   - continue supportive care including seizure treatment as below
   .
   #2 Seizures: Pt. on keppra, Phenobarbital and midazolam. Continues to
   have seizures but less frequently.  Phenobarb trough should be at 40-45
   per neuro, was >50 today, continuing 300mg TID as per neuro.  As per
   Neuro recs, Midazolam to be weaned slowly starting today with following
   schedule: decrease by 1mg at 5am, 9am, 1pm, but no decreases after 1pm.
   Epilepsy fellow  and/or attending to see patient and review EEG in
   early afternoon before leaving to make sure that patient not seizing
   with tapering down of Midazolam.
   - taper midazolam tomorrow as per above schedule
   - f/u neuro/EP recs
   .
   #3 Intubation: Was on PSV yesterday and had 5 second period of apnea
   w/possible seizure(?). Has been intubated now for 2 weeks with concern
   for tracheomalacia. Has been discussing with family whether trach is an
   option at this point, given that she is still under a good deal of
   sedation. However she is clearly improving slowly and will hopefully be
   able to be weaned off sedation by week
s end.  Habituation to sedation
   effects of phenobarbitol will also help with patient
s mental status
   and may decrease the periods of apnea.
   - allow patient to stay on PSV as long as not apnic
   - will wean midazolam starting today per neuro recommended schedule.
   - wean pressure support/PEEP as needed. Goal is [**6-16**].
   .
   # Transaminitis: resolved
   .
   # Tachycardia: resolved.
   .
   #FEN - Tube feeds.  Replete lytes PRN. Free water boluses decreased to
   125cc Q6h.
   .
   #PPX: Heparin sc, bowel regimen prn, pneumoboots, Zantac.
   .
   # Access: PICC
   .
   # Code: Full
   .
   # Dispo: ICU level of care.
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2122-1-16**] 02:47 AM 60 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2122-1-3**] 04:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2122-01-16 10:04:00 Physician Attending Progress Note
Chief Complaint: Seizure
   Respiratory Failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 BRONCHOSCOPY - At [**2122-1-15**] 06:30 PM
   -ETT changed with obstructing secretions
   -Parvo-virus positive
   History obtained from [**Hospital 15**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Doxycycline - [**2122-1-14**] 08:00 AM
   Acyclovir - [**2122-1-15**] 02:00 PM
   Ampicillin - [**2122-1-16**] 04:13 AM
   Infusions:
   Midazolam (Versed) - 10 mg/hour
   Other ICU medications:
   Ranitidine (Prophylaxis) - [**2122-1-16**] 08:36 AM
   Heparin Sodium (Prophylaxis) - [**2122-1-16**] 08:51 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fever
   Flowsheet Data as of  [**2122-1-16**] 09:57 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.1
C (100.6
   Tcurrent: 38.1
C (100.6
   HR: 107 (85 - 107) bpm
   BP: 131/74(88) {95/50(62) - 131/76(88)} mmHg
   RR: 22 (12 - 31) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 66 Inch
             Total In:
                                                                  3,513 mL
                                                                  1,424 mL
   PO:
             TF:
                                                                  1,446 mL
                                                                    422 mL
   IVF:
                                                                  1,853 mL
                                                                    912 mL
   Blood products:
   Total out:
                                                                  3,900 mL
                                                                  2,275 mL
   Urine:
                                                                  3,900 mL
                                                                  2,275 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -387 mL
                                                                   -851 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 450 (344 - 450) mL
   PS : 8 cmH2O
   RR (Set): 14
   RR (Spontaneous): 26
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 85
   PIP: 17 cmH2O
   Plateau: 14 cmH2O
   SpO2: 100%
   ABG: ///27/
   Ve: 10.1 L/min
   Physical Examination
   General Appearance: Thin
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Diminished: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Trace, Left: Trace
   Skin:  Not assessed
   Neurologic: Follows simple commands, Responds to: Verbal stimuli,
   Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   9.2 g/dL
   310 K/uL
   100 mg/dL
   0.5 mg/dL
   27 mEq/L
   4.0 mEq/L
   10 mg/dL
   106 mEq/L
   139 mEq/L
   25.6 %
   8.2 K/uL
        [image002.jpg]
                            [**2122-1-7**]  03:00 AM
                            [**2122-1-8**]  02:53 AM
                            [**2122-1-9**]  03:18 AM
                            [**2122-1-10**]  04:16 AM
                            [**2122-1-11**]  02:35 AM
                             [**2122-1-12**]  03:08 AM
                             [**2122-1-13**]  03:31 AM
                             [**2122-1-14**]  04:09 AM
                             [**2122-1-15**]  03:13 AM
                             [**2122-1-16**]  04:07 AM
   WBC
   7.1
   5.9
   7.7
   8.0
   6.1
   4.3
   4.5
   4.5
   6.4
   8.2
   Hct
   27.9
   24.3
   26.8
   28.6
   25.8
   25.2
   25.5
   25.1
   25.6
   25.6
   Plt
   375
   353
   372
   381
   370
   323
   357
   309
   332
   310
   Cr
   0.5
   0.5
   0.6
   0.6
   0.5
   0.5
   0.5
   0.4
   0.5
   0.5
   Glucose
   115
   97
   119
   87
   83
   93
   88
   90
   118
   100
   Other labs: PT / PTT / INR:14.0/31.0/1.2, CK / CKMB / Troponin-T:260//,
   ALT / AST:45/26, Alk Phos / T Bili:66/0.2, Differential-Neuts:78.1 %,
   Lymph:13.1 %, Mono:6.3 %, Eos:1.6 %, Fibrinogen:285 mg/dL, Lactic
   Acid:1.4 mmol/L, Albumin:3.1 g/dL, LDH:203 IU/L, Ca++:8.3 mg/dL,
   Mg++:2.1 mg/dL, PO4:3.4 mg/dL
   Fluid analysis / Other labs: parvovirus positive with serum IgM and IgG
   Assessment and Plan
   40 yo female admit s/p seizure and now with persistent respiratory
   failure in the setting of ongoing Rx for seizures now with provocative
   findings of parvovirus positive by IgG and IgM.  She has had prolonged
   course of ventilatory support in the setting of ongoing management of
   intermittent seizures.
   1)Respiratory Failure-Continued support now delivered through ETT now
   changed.  She has minimal requirements for support with limited
   secretions noted on regular exam.  This is likely continued respiratory
   failure attributable in large part to persistent mental
   status/respiratory drive issues with caution needed in the setting of
   ongoing high doses of sedating medications.
   -RSBI each morning
   -SBT and extubation if mental status favorable as medications weaned
   down.
   -Trach discussed but will hold given overall clinical improvement
   2)Seizure-
   -Keppra
   -Versed 10mg/hr
wean down by 3mg/hr/day to wean to off
   -Phenobarbitol 300mg tid
   -Will continue with EEG monitoring as Versed weans down to track
   possible seizure activity
   3)Meningitis/Encephalitis-Has had empiric coverage and prolonged course
   D #17-Acyclovir
   Ampicilllin
   -Will need to consider course of meningitis completion with ID in light
   of new positive findings on serologies
 AIRWAY CLEARANCE, IMPAIRED
 AROUSAL, ATTENTION, AND COGNITION, IMPAIRED
 BALANCE, IMPAIRED
 KNOWLEDGE, IMPAIRED
 MUSCLE PERFORMACE, IMPAIRED
 TRANSFERS, IMPAIRED
 VENTILATION, IMPAIRED
 IMPAIRED PHYSICAL MOBILITY
 SEIZURE, WITHOUT STATUS EPILEPTICUS
 RASH
 ALTERED MENTAL STATUS (NOT DELIRIUM)
   ICU Care
   Nutrition: Tube Feeds
   Glycemic Control:
   Lines:
   PICC Line - [**2122-1-3**] 04:00 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes

2122-01-17 06:22:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Doxycycline - [**2122-1-14**] 08:00 AM
   Acyclovir - [**2122-1-16**] 10:00 PM
   Ampicillin - [**2122-1-16**] 11:55 PM
   Infusions:
   Midazolam (Versed) - 8 mg/hour
   Other ICU medications:
   Ranitidine (Prophylaxis) - [**2122-1-16**] 08:36 AM
   Heparin Sodium (Prophylaxis) - [**2122-1-16**] 05:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2122-1-17**] 06:22 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.1
C (100.6
   Tcurrent: 37
C (98.6
   HR: 86 (81 - 108) bpm
   BP: 104/57(68) {100/54(65) - 152/91(100)} mmHg
   RR: 17 (16 - 40) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 66 Inch
             Total In:
                                                                  3,754 mL
                                                                  1,117 mL
   PO:
             TF:
                                                                  1,040 mL
                                                                    372 mL
   IVF:
                                                                  2,284 mL
                                                                    620 mL
   Blood products:
   Total out:
                                                                  4,935 mL
                                                                    570 mL
   Urine:
                                                                  4,735 mL
                                                                    570 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,181 mL
                                                                    547 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 356 (349 - 450) mL
   PS : 10 cmH2O
   RR (Set): 14
   RR (Spontaneous): 14
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 85
   PIP: 15 cmH2O
   Plateau: 12 cmH2O
   SpO2: 100%
   ABG: ///28/
   Ve: 7.9 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   282 K/uL
   9.2 g/dL
   97 mg/dL
   0.4 mg/dL
   28 mEq/L
   3.9 mEq/L
   9 mg/dL
   105 mEq/L
   140 mEq/L
   25.3 %
   8.2 K/uL
        [image002.jpg]
                            [**2122-1-8**]  02:53 AM
                            [**2122-1-9**]  03:18 AM
                            [**2122-1-10**]  04:16 AM
                            [**2122-1-11**]  02:35 AM
                             [**2122-1-12**]  03:08 AM
                             [**2122-1-13**]  03:31 AM
                             [**2122-1-14**]  04:09 AM
                             [**2122-1-15**]  03:13 AM
                             [**2122-1-16**]  04:07 AM
                             [**2122-1-17**]  02:41 AM
   WBC
   5.9
   7.7
   8.0
   6.1
   4.3
   4.5
   4.5
   6.4
   8.2
   8.2
   Hct
   24.3
   26.8
   28.6
   25.8
   25.2
   25.5
   25.1
   25.6
   25.6
   25.3
   Plt
   353
   372
   381
   370
   [**Telephone/Fax (3) 4125**]
   282
   Cr
   0.5
   0.6
   0.6
   0.5
   0.5
   0.5
   0.4
   0.5
   0.5
   0.4
   Glucose
   97
   119
   87
   83
   93
   88
   90
   118
   100
   97
   Other labs: PT / PTT / INR:14.0/31.0/1.2, CK / CKMB / Troponin-T:260//,
   ALT / AST:45/26, Alk Phos / T Bili:66/0.2, Differential-Neuts:78.1 %,
   Lymph:13.1 %, Mono:6.3 %, Eos:1.6 %, Fibrinogen:285 mg/dL, Lactic
   Acid:1.4 mmol/L, Albumin:3.1 g/dL, LDH:203 IU/L, Ca++:8.2 mg/dL,
   Mg++:2.3 mg/dL, PO4:3.6 mg/dL
   Assessment and Plan
   [**Known firstname 1125**] [**Known lastname 3689**] is 41 yo F with no significant [**Hospital 3690**] transferred from OSH
   with seizure and LP c/w meningoencephalitis. Mental status appears to
   be slowly improving with improved seizure control. Workup has been
   negative so far other than MRI progression being suggestive of herpetic
   involvement vs. protracted seizures.  Several viral cultures/labs
   pending.
   .
   #1 Seizures: Parvo b19 positive on IgG and IgM which would explain her
   seizures as well as her transaminitis and malaise/flu-like symptoms
   prior to her decline. Per neuro will continue Phenobarbital tid with
   goal of 40-50, and slowly wean off midazolam. Per EEG has not had any
   seizure activity for 24hrs. She still has pending labs, incl blood
   cultures, that will need to be followed up (see below). Per ID, we will
   try to add on parvo abs and PCR to her samples from earlier in the
   admission to see if we can confirm parvo infection over the course of
   the illness.
   ID studies:
          [**Location (un) **]: CSF: neg for HSV, VZV, enterovirus, cultures
   negative. Parvovirus positive.  Blood: Final BCx negative.
          [**Hospital1 19**]: CSF: neg CMV pcr, neg HSV pcr, neg toxo, neg
   cryptoccocal Ag, adenovirus, Lyme, neg final bacterial culture.  Fungal
   and viral prelim CSF cultures are negative. CSF AFB culture is
   pending.  Blood: Negative for Histo, Bartonella, Mycoplasma, toxo, CMV,
   Lyme, EBV, ehrlichia, RPR negative. Blood Cx negative for [**12-30**], [**12-31**],
   [**1-1**].
          [**Hospital1 19**] pending: CSF: HHV-6, EEE, WNV, VZV, parvovirus,
   arbovirus, VDRL. Blood pending: bartonella PCR, EEE, LCMV, parvovirus
   IgG IgM, parvo DNA, WNV. Parvo antibody and PCR on blood sample and CSF
   from admission sample.
   - continue acyclovir, and ampicillin until all labs are back.
   - continue wean off versed and continue phenobarbatol
   - continue keppra
   -f/u neuro, EP recs
   .
   #2 Intubation: Has been able to tolerate [**11-16**] on PS well, but tires out
   after a while. She continues to have apneic episodes but the length is
   decreasing with improved mental status. The hope is to wean off
   midazolam over the next couple of days and move toward extubation.
   - allow patient to stay on PSV as long as not apneic
   - wean versed per neuro recs
   - wean pressure support/PEEP as needed. Goal is [**6-16**].
   -IP curbside in case we need to trach next week
   .
   # Transaminitis: resolved- likely related to parvo infection.
   .
   # Tachycardia: resolved.
   .
   #FEN - Tube feeds.  Replete lytes PRN. Free water boluses decreased to
   125cc Q6h.
   .
   #PPX: Heparin sc, bowel regimen prn, pneumoboots, Zantac.
   .
   # Access: PICC
   .
   # Code: Full
   .
   # Dispo: ICU level of care.
 AIRWAY CLEARANCE, IMPAIRED
 AROUSAL, ATTENTION, AND COGNITION, IMPAIRED
 BALANCE, IMPAIRED
 KNOWLEDGE, IMPAIRED
 MUSCLE PERFORMACE, IMPAIRED
 TRANSFERS, IMPAIRED
 VENTILATION, IMPAIRED
 IMPAIRED PHYSICAL MOBILITY
 SEIZURE, WITHOUT STATUS EPILEPTICUS
 RASH
 ALTERED MENTAL STATUS (NOT DELIRIUM)
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2122-1-16**] 10:33 PM 60 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2122-1-3**] 04:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2122-01-18 05:17:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   -trending phenobarb level with level prior to each dose: 56.3 to 52.3
   -[**1-10**] CSF culture negative, plan to d/c amp today
   -versed decreased to 6 mg/hr yesterday
   -seizure 1230 am with r neck and BL LE movement.
   .
   - this am pt tolerated SBT well, good cuff leak. Extubated. Significant
   stridor afterwards but seems to be stabilizing on BIPAP.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Acyclovir - [**2122-1-17**] 10:18 PM
   Ampicillin - [**2122-1-18**] 04:59 AM
   Infusions:
   Midazolam (Versed) - 5 mg/hour
   Other ICU medications:
   Other medications:
   Racepinephrine IH x 1
   Zofran
   Fluconazole
   Phenobarb
   Miconazole
   Versed
   Keppra
   Lorazepam
   Ranitidine
   Ibuprofen
   Chlorhexidine
   Fentanyl
   Acyclovir
   Heparin
   Senna
   Bisacodyl
   colace
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2122-1-18**] 05:17 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.9
   Tcurrent: 37
C (98.6
   HR: 80 (76 - 107) bpm
   BP: 114/72(82) {97/53(65) - 129/83(93)} mmHg
   RR: 13 (9 - 29) insp/min
   SpO2: 98% (98-100)
   Heart rhythm: SR (Sinus Rhythm)
   Height: 66 Inch
             Total In:
                                                                  3,533 mL
                                                                  1,096 mL
   PO:
             TF:
                                                                  1,196 mL
                                                                    313 mL
   IVF:
                                                                  2,212 mL
                                                                    783 mL
   Blood products:
   Total out:
                                                                  2,940 mL
                                                                    390 mL
   Urine:
                                                                  2,940 mL
                                                                    390 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    593 mL
                                                                    706 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 630 (446 - 630) mL
   PS : 10 cmH2O
   RR (Spontaneous): 10
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 85
   PIP: 15 cmH2O
   SpO2: 98%
   ABG: ///28/
   Ve: 6.3 L/min
   On 40% FiO2 PS 10/5 from 8am to 3pm, [**6-16**] from 4pm to 7pm, [**11-16**] from 9pm
   to am
   Physical Examination
   GEN: sleeping comfortably, wakes to voice, pleasant,  alert.
   HEENT:EEG leads in place, anicteric, MMM. Stridor on neck after
   extubation
   CV: RRR S1S2 no m/r/g
   PULM: coarse BS BL
   ABD: soft nontender nondistended +bs
   EXT: warm, well perfused, no edema or cyanosis,
   Genital: decreasing erythema from yeast infection.
   NEURO: alert , responding to commands and questions appropriately, [**6-16**]
   strengh, 2+ DTRs
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   283 K/uL
   8.6 g/dL
   103 mg/dL
   0.4 mg/dL
   28 mEq/L
   3.6 mEq/L
   8 mg/dL
   107 mEq/L
   142 mEq/L
   24.0 %
   6.0 K/uL
        [image002.jpg]
   HCT 25.3 to 24
   Phenobarb 56.3 to 52.2, to 52.2, to 54.9
   [**1-10**] CSF: cult NG final, no virus so far
   EEG [**1-16**] mild to mod encephalopathy, slowing in the temporal area
   resolved.
   .
   CXR: no evidence of infiltrate
                            [**2122-1-9**]  03:18 AM
                            [**2122-1-10**]  04:16 AM
                            [**2122-1-11**]  02:35 AM
                             [**2122-1-12**]  03:08 AM
                             [**2122-1-13**]  03:31 AM
                             [**2122-1-14**]  04:09 AM
                             [**2122-1-15**]  03:13 AM
                             [**2122-1-16**]  04:07 AM
                             [**2122-1-17**]  02:41 AM
                             [**2122-1-18**]  01:45 AM
   WBC
   7.7
   8.0
   6.1
   4.3
   4.5
   4.5
   6.4
   8.2
   8.2
   6.0
   Hct
   26.8
   28.6
   25.8
   25.2
   25.5
   25.1
   25.6
   25.6
   25.3
   24.0
   Plt
   372
   381
   370
   [**Telephone/Fax (3) 4092**]
   332
   310
   282
   283
   Cr
   0.6
   0.6
   0.5
   0.5
   0.5
   0.4
   0.5
   0.5
   0.4
   0.4
   Glucose
   119
   87
   83
   93
   88
   90
   118
   100
   97
   103
   Other labs: PT / PTT / INR:14.0/31.0/1.2, CK / CKMB / Troponin-T:260//,
   ALT / AST:45/26, Alk Phos / T Bili:66/0.2, Differential-Neuts:78.1 %,
   Lymph:13.1 %, Mono:6.3 %, Eos:1.6 %, Fibrinogen:285 mg/dL, Lactic
   Acid:1.4 mmol/L, Albumin:3.1 g/dL, LDH:203 IU/L, Ca++:8.3 mg/dL,
   Mg++:2.3 mg/dL, PO4:3.3 mg/dL
   Assessment and Plan
   [**Known firstname 1125**] [**Known lastname 3689**] is 41 yo F with no significant [**Hospital 3690**] transferred from OSH
   with seizure and LP c/w meningoencephalitis. Mental status appears to
   be slowly improving with improved seizure control. Workup has been
   negative so far other than MRI progression being suggestive of herpetic
   involvement vs. protracted seizures.
   .
   #1 Seizures: All tests negative so far except parvovirus B19 IgG, IgM.
   Parvo may be causing  meningioencephalitis given recent positive IgG
   and IgM which would explain her seizures as well as her transaminitis
   and malaise/flu-like symptoms prior to her decline. Repeat [**Last Name (un) 4150**] titers
   from [**12-31**] pending. Per neuro will continue Phenobarbital tid with goal
   of 40-50, and slowly wean off midazolam. Pending labs include blood
   culture, CSF studies.
   ID studies:
          [**Location (un) **]: CSF: neg for HSV, VZV, enterovirus, cultures
   negative. Parvovirus positive.  Blood: Final BCx negative.
          [**Hospital1 19**]: CSF: neg CMV pcr, neg HSV pcr, neg toxo, neg
   cryptoccocal Ag, adenovirus, Lyme, neg final bacterial culture.  Fungal
   and viral prelim CSF cultures are negative. CSF AFB culture is
   pending.  Blood: Negative for Histo, Bartonella, Mycoplasma, toxo, CMV,
   Lyme, EBV, ehrlichia, RPR negative. Blood Cx negative for [**12-30**], [**12-31**],
   [**1-1**].
          [**Hospital1 19**] pending: CSF: HHV-6, EEE, WNV, VZV, parvovirus,
   arbovirus, VDRL. Blood pending: bartonella PCR, EEE, LCMV, parvovirus
   IgG IgM, parvo DNA, WNV.
   - continue acyclovir for 3 weeks,
   - d/c ampicillin  since CSF cx from [**1-10**] returned final NG
   - continue wean off versed per neuro protocol. Continue to decrease by
   1, at 5am, 9am, 1pm. Will be at 3mg today, advance to completely off
   [**1-18**]. If presistant seizures during titration can bolus versed and go
   back up by 1mg.
   - continue keppra, phenobarb for level in 40s
   -given seizure last evening continue phenobarb at current dose (despite
   level at 54.9)  getting pre-dose levels. If reach 60 can miss 2 doses
   of phenobarb and decrease dose to 200mg TID
   -f/u neuro and ID recs
   .
   #2 Resp failure: Has been able to tolerate [**11-16**] on PS well,  apneic
   episodes decreasing. Episodes [**Month (only) 51**] be secondary to high levels of
   phenobarb and sedation. Since pt awake on low dose midazolam ,
   extubation done this am. Pt with stridor immediately after extubation,
   given racemic epi with improvement. Will continue to monitor, if
   stridor continues may have to re-intubate.
   - wean versed per neuro recs
   - monitor s/p extubation.
   .
   # Transaminitis: resolved- likely related to parvo infection.
   .
   #FEN
 Hold Tube feeds and free water given intubation.  Replete lytes
   PRN. D/ced insulin SS since she had not needed it in over 4 days.
   .
   #PPX: Heparin sc, bowel regimen prn, pneumoboots, Zantac.
   .
   # Access: PICC
   .
   # Code: Full
   .
   # Dispo: ICU level of care.
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2122-1-17**] 12:12 PM 60 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2122-1-3**] 04:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2122-01-19 04:55:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
     * Extubated, initially had significant stridor, but O2 saturation
       remained good.  Gave racemic epi nebulizer, was on bipap for short
       amount of time and then high-flow 02 on face tent.  Over next few
       hours O2 requirement decreased and stridor improved
     * S&S eval ordered (will likely happen today)
     * Ampicillin d/c
     * pm [** 4170**] level: 56.1, 56.7
     * VBG initially looked like ABG -> re-sent, was wnl
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ampicillin - [**2122-1-18**] 09:16 AM
   Acyclovir - [**2122-1-18**] 09:35 PM
   Infusions:
   Midazolam (Versed) - 2 mg/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2122-1-19**] 04:54 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.9
   Tcurrent: 36.2
C (97.2
   HR: 90 (79 - 105) bpm
   BP: 122/79(86) {100/61(70) - 136/79(89)} mmHg
   RR: 24 (9 - 30) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 66 Inch
             Total In:
                                                                  2,771 mL
                                                                    564 mL
   PO:
             TF:
                                                                    332 mL
   IVF:
                                                                  2,338 mL
                                                                    564 mL
   Blood products:
   Total out:
                                                                  3,330 mL
                                                                    165 mL
   Urine:
                                                                  3,330 mL
                                                                    165 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -559 mL
                                                                    399 mL
   Respiratory support
   O2 Delivery Device: None
   Ventilator mode: Standby
   Vt (Spontaneous): 406 (406 - 406) mL
   PS : 5 cmH2O
   RR (Spontaneous): 25
   PEEP: 0 cmH2O
   FiO2: 50%
   RSBI: 50
   PIP: 6 cmH2O
   SpO2: 100%
   ABG: ///26/
   Ve: 12.5 L/min
   Physical Examination
   GEN: alert,pleasant and interactive, speaking clearly but with soft
   voice
   HEENT:EEG leads in place, anicteric, dry mucous membranes. No stridor
   appreciated
   CV: RRR S1S2 no m/r/g
   PULM: clear bilaterally, tachypneic but not using accessory muscles
   ABD: soft nontender nondistended +bs
   EXT: warm, well perfused, no edema or cyanosis,
   Genital: perineal erythema resolving.
   NEURO: A&O , responding to questions appropriately, [**5-17**] strengh, 2+
   DTRs
   [**Name (NI) 582**] / Radiology
   311 K/uL
   9.7 g/dL
   98 mg/dL
   0.5 mg/dL
   26 mEq/L
   3.6 mEq/L
   7 mg/dL
   107 mEq/L
   142 mEq/L
   27.3 %
   5.5 K/uL
        [image002.jpg]
                            [**2122-1-10**]  04:16 AM
                            [**2122-1-11**]  02:35 AM
                             [**2122-1-12**]  03:08 AM
                             [**2122-1-13**]  03:31 AM
                             [**2122-1-14**]  04:09 AM
                             [**2122-1-15**]  03:13 AM
                             [**2122-1-16**]  04:07 AM
                             [**2122-1-17**]  02:41 AM
                             [**2122-1-18**]  01:45 AM
                             [**2122-1-19**]  01:10 AM
   WBC
   8.0
   6.1
   4.3
   4.5
   4.5
   6.4
   8.2
   8.2
   6.0
   5.5
   Hct
   28.6
   25.8
   25.2
   25.5
   25.1
   25.6
   25.6
   25.3
   24.0
   27.3
   Plt
   381
   370
   323
   357
   [**Telephone/Fax (3) 4159**]
   311
   Cr
   0.6
   0.5
   0.5
   0.5
   0.4
   0.5
   0.5
   0.4
   0.4
   0.5
   Glucose
   87
   83
   93
   88
   90
   118
   100
   97
   103
   98
   Other [**Telephone/Fax (3) **]: Ca++:8.8 mg/dL, Mg++:2.2 mg/dL, PO4:3.5 mg/dL, LFT WNL
   Assessment and Plan
   [**Known firstname 1125**] [**Known lastname 3689**] is 41 yo F with no significant [**Hospital 3690**] transferred from OSH
   with seizure and LP c/w meningoencephalitis. Now s/p extubation and
   improving daily. Thus far studies positive only for parvovirus b19,
   with several other [**Hospital **] pending.
   .
   #1 Seizures: Thought to be due to parvovirus B19, although several
   tests (including EEE, bartonella) still pending.  Since extubation she
   has not had any seizure activity on EEG although continues to have
   twitching in her R SCM at times. Per neuro service, will continue to
   dose Phenobarbital to 40-50, continue keppra. At this time she is only
   on acyclovir for microbial coverage, tomorrow being her last day of
   treatment. Ampicillin was stopped yesterday given negative CSF
   cultures. Her goal for today is to be off midazolam drip
   ID studies:
          [**Location (un) **]: CSF: neg for HSV, VZV, enterovirus, cultures
   negative. Parvovirus positive.  Blood: Final BCx negative.
          [**Hospital1 19**]: CSF: neg CMV pcr, neg HSV pcr, neg toxo, neg
   cryptoccocal Ag, adenovirus, Lyme, neg final bacterial culture.  Fungal
   and viral prelim CSF cultures are negative. CSF AFB culture is
   pending.  Blood: Negative for Histo, Bartonella, Mycoplasma, toxo, CMV,
   Lyme, EBV, ehrlichia, RPR negative. Blood Cx negative for [**12-30**], [**12-31**],
   [**1-1**].
          [**Hospital1 19**] pending: CSF: HHV-6, EEE, WNV, VZV, parvovirus,
   arbovirus, VDRL. Blood pending: bartonella PCR, EEE, LCMV, parvovirus
   IgG IgM, parvo DNA, WNV.
   - acyclovir d/c tomorrow
   - continue to wean off versed. If presistant seizures during titration
   can bolus versed and go back up by 1mg.
   - continue keppra, [**Hospital1 4170**] for level in 40s
   -continue [**Hospital1 4170**]. Given level over 60 will hold 2 doses of [**Hospital1 4170**]
   and decrease dose to 200mg TID
   -f/u neuro and ID recs
   -PT/OT today
   -FYI : patient is on fluconazole for perineal rash, which may affect
   her [**First Name9 (NamePattern2) 4170**] [**Last Name (un) **] and other meds cleared by liver.
   .
   #2 Resp failure: Doing well s/p extubation. Will continue to monitor
   her tachypnea (likely due to anxiety). She is maintaining good
   saturdation and no longer has any stridor. Currently on room air, will
   offer NC and bipap if she goes into distress. She refused to be
   reintubated yesterday after a brief period of distress post-extubation,
   which was relieved w/bipap and racemic epi.
   -cont to monitor
   -speech n swallow to clear
   .
   # Transaminitis: Resolved- likely related to parvo infection.
   .
   #FEN
 advance diet as tolerated.  Replete lytes PRN.
   .
   #PPX: Heparin sc, bowel regimen prn, pneumoboots, Zantac.
   .
   # Access: PICC
   .
   # Code: Full
   .
   # Dispo: Monitor respiration. If she does well today, per neuro they
   will take her to [**Hospital Ward Name **] 11 tomorrow.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2122-1-3**] 04:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:
   ------ Protected Section ------
   Critical Care
   Present for key portions of history and exam. Agree with Dr. [**Last Name (STitle) 1478**]
   assessment and plan as outlined.  Dr. [**Known lastname 3689**] continues her improvement.
   Stll easily confused and emotionally labile. Extremely weak and
   substantial muscle wasting. Monitoring [**Known lastname 4170**] levels per neuro.
   Will need substantial PT/OT. We are trying to maintain I&O at least
   even to negative.
   Time spent 40 min
   ------ Protected Section Addendum Entered By:[**Initials (NamePattern4) **] [**Last Name (NamePattern4) 56**] [**Last Name (NamePattern1) 37**], MD
   on:[**2122-1-19**] 17:24 ------

2122-01-20 06:10:00 Physician Resident Progress Note
Chief Complaint: Mild abdominal cramps now subsided after ibuprofen.
   Continued stiff neck on right. Complains of diplopia
   24 Hour Events:
 NASAL SWAB - At [**2122-1-20**] 03:34 AM
   -1am [**Year (4 digits) 4170**]= 53
   -stop acyclovir today
   -? seizure activity overnight in R SCM and R fingers. per neuro use
   0.5mg IV ativan q4.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ampicillin - [**2122-1-18**] 09:16 AM
   Acyclovir - [**2122-1-20**] 06:00 AM
   Infusions:
   Other ICU medications:
   Ranitidine (Prophylaxis) - [**2122-1-19**] 08:00 PM
   Heparin Sodium (Prophylaxis) - [**2122-1-20**] 12:00 AM
   Lorazepam (Ativan) - [**2122-1-20**] 06:00 AM
   Other medications:
   Ranitidine
   Phenobarbital
   Zofran
   Fluconazole
   Miconazole
   Keppra
   Ibuprofen
   Acyclovir
   Senna
   Bisacodyl
   colace
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2122-1-20**] 06:09 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.2
   Tcurrent: 36.1
C (96.9
   HR: 81 (81 - 109) bpm
   BP: 100/60(70) {100/60(69) - 136/86(95)} mmHg
   RR: 21 (11 - 28) insp/min
   SpO2: 99% (95-100)
   Heart rhythm: SR (Sinus Rhythm)
   Height: 66 Inch
             Total In:
                                                                  1,437 mL
                                                                    314 mL
   PO:
                                                                    450 mL
                                                                    150 mL
   TF:
   IVF:
                                                                    987 mL
                                                                    164 mL
   Blood products:
   Total out:
                                                                  2,440 mL
                                                                    235 mL
   Urine:
                                                                  2,440 mL
                                                                    235 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,003 mL
                                                                     79 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 99%
   ABG: ///26/
   Physical Examination
   GEN: alert,pleasant and interactive, speaking clearly but with soft
   voice
   HEENT:EEG leads in place, anicteric, dry mucous membranes. No stridor
   appreciated. Eyes are noncongruent. Pt unable to follow commands for
   EOM
   CV: RRR S1S2 no m/r/g
   PULM: clear bilaterally not using accessory muscles
   ABD: soft nontender nondistended +bs
   EXT: warm, well perfused, no edema or cyanosis,
   Genital: perineal erythema resolving.
   NEURO: A&Ox3 speech slightly slurred, responding to questions
   appropriately, [**5-17**] strengh, 2+ DTRs sensation intact
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   315 K/uL
   9.7 g/dL
   100 mg/dL
   0.5 mg/dL
   26 mEq/L
   3.9 mEq/L
   8 mg/dL
   108 mEq/L
   142 mEq/L
   27.8 %
   4.6 K/uL
        [image002.jpg]
   [**Month/Day (1) **]: 56.7 to 61.9 to 53.1 to 59.1
   Cxr: no acute process
   [**1-18**] EEG no epileptiform movements, mild to mod encephalopathy
   UA: 10 ketones, neg
   Parovirus [**12-31**] dna pending
                            [**2122-1-11**]  02:35 AM
                             [**2122-1-12**]  03:08 AM
                             [**2122-1-13**]  03:31 AM
                             [**2122-1-14**]  04:09 AM
                             [**2122-1-15**]  03:13 AM
                             [**2122-1-16**]  04:07 AM
                             [**2122-1-17**]  02:41 AM
                             [**2122-1-18**]  01:45 AM
                             [**2122-1-19**]  01:10 AM
                             [**2122-1-20**]  03:07 AM
   WBC
   6.1
   4.3
   4.5
   4.5
   6.4
   8.2
   8.2
   6.0
   5.5
   4.6
   Hct
   25.8
   25.2
   25.5
   25.1
   25.6
   25.6
   25.3
   24.0
   27.3
   27.8
   Plt
   370
   323
   357
   [**Telephone/Fax (3) **]
   282
   283
   311
   315
   Cr
   0.5
   0.5
   0.5
   0.4
   0.5
   0.5
   0.4
   0.4
   0.5
   0.5
   Glucose
   83
   93
   88
   90
   118
   100
   97
   103
   98
   100
   Other labs: PT / PTT / INR:14.0/31.0/1.2, CK / CKMB / Troponin-T:260//,
   ALT / AST:40/25, Alk Phos / T Bili:88/0.2, Differential-Neuts:78.1 %,
   Lymph:13.1 %, Mono:6.3 %, Eos:1.6 %, Fibrinogen:285 mg/dL, Lactic
   Acid:1.4 mmol/L, Albumin:3.1 g/dL, LDH:206 IU/L, Ca++:8.9 mg/dL,
   Mg++:2.2 mg/dL, PO4:3.7 mg/dL
   Assessment and Plan
   [**Known firstname 1125**] [**Known lastname 3689**] is 41 yo F with no significant [**Hospital 3690**] transferred from OSH
   with seizure and LP c/w meningoencephalitis. Now s/p extubation and
   improving daily. Thus far studies positive only for parvovirus b19,
   with several other labs pending.
   .
 SEIZURE, WITHOUT STATUS EPILEPTICUS
   Possibly  due to parvovirus B19, although several tests (including EEE,
   bartonella) still pending.  Since extubation she has not had any
   seizure activity on EEG although continues to have twitching in her R
   SCM at times. Per neuro service, will continue to dose Phenobarbital to
   40-50, continue keppra. At this time she is only on acyclovir for
   microbial coverage, today being her last day of treatment. Ampicillin
   was stopped given negative CSF cultures. Titrated off versed.
   Overnight had rigors without fever, appeared to be greatest in Lower
   ext, recorded on EEG. Gave Ativan. Subsided within 5 mins with removal
   of stimuli and Ativan.
   ID studies:
          [**Location (un) **]: CSF: neg for HSV, VZV, enterovirus, cultures
   negative. Parvovirus positive.  Blood: Final BCx negative.
          [**Hospital1 19**]: CSF: neg CMV pcr, neg HSV pcr, neg toxo, neg
   cryptoccocal Ag, adenovirus, Lyme, neg final bacterial culture.  Fungal
   and viral prelim CSF cultures are negative. CSF AFB culture is
   pending.  Blood: Negative for Histo, Bartonella, Mycoplasma, toxo, CMV,
   Lyme, EBV, ehrlichia, RPR negative. Blood Cx negative for [**12-30**], [**12-31**],
   [**1-1**]., neg VZV, neg VDRL
          [**Hospital1 19**] pending: CSF: HHV-6, EEE, WNV, parvovirus ([**12-31**]),
   arbovirus. Blood pending: bartonella PCR, EEE, LCMV, parvovirus IgG
   IgM, parvo DNA, WNV.
   - acyclovir d/c today after dose
   -versed off .
   - continue keppra, [**Month/Year (2) 4170**] for level in less than 60, continue 200mg
   TID
   -ativan q4h 0.5 for rigors (withdrawal vs seizure activity, vs
   agitation) Withdrawal less likely given VSS
   -f/u neuro and ID recs
   -PT/OT
   -FYI : patient is on fluconazole for perineal rash, which may affect
   her [**Month/Year (2) 4170**] level and other meds cleared by liver.
   - EMG and nerve conduction studies today
   #2 Resp failure: Doing well s/p extubation. Will continue to monitor
   her tachypnea (likely due to anxiety) was has slowly improved. She is
   maintaining good saturdation and no longer has any stridor. Currently
   on room air,
   -cont to monitor
   .
   # Transaminitis: Resolved- likely related to parvo infection.
   .
   #Neck pain: [**3-15**] to R neck seizure activity. Ibuprofen as needed.
   [**Month/Day (2) **]
   .
   #FEN
 advance diet as tolerated.  Replete lytes PRN.
   .
   #PPX: Heparin sc, bowel regimen prn, pneumoboots, Zantac.
   .
   # Access: PICC
   .
   # Code: Full
   .
   # Dispo: Transfer to [**Hospital Ward Name **] 11 today.
 SEIZURE, WITHOUT STATUS EPILEPTICUS
   Possibly  due to parvovirus B19, although several tests (including EEE,
   bartonella) still pending.  Since extubation she has not had any
   seizure activity on EEG although continues to have twitching in her R
   SCM at times. Per neuro service, will continue to dose Phenobarbital to
   40-50, continue keppra. At this time she is only on acyclovir for
   microbial coverage, today being her last day of treatment. Ampicillin
   was stopped given negative CSF cultures. Titrated off versed.
   Overnight had rigors without fever, appeared to be greatest in Lower
   ext, recorded on EEG. Gave Ativan. Subsided within 5 mins with removal
   of stimuli and Ativan.
   ID studies:
          [**Location (un) **]: CSF: neg for HSV, VZV, enterovirus, cultures
   negative. Parvovirus positive.  Blood: Final BCx negative.
          [**Hospital1 19**]: CSF: neg CMV pcr, neg HSV pcr, neg toxo, neg
   cryptoccocal Ag, adenovirus, Lyme, neg final bacterial culture.  Fungal
   and viral prelim CSF cultures are negative. CSF AFB culture is
   pending.  Blood: Negative for Histo, Bartonella, Mycoplasma, toxo, CMV,
   Lyme, EBV, ehrlichia, RPR negative. Blood Cx negative for [**12-30**], [**12-31**],
   [**1-1**]., neg VZV, neg VDRL
          [**Hospital1 19**] pending: CSF: HHV-6, EEE, WNV, parvovirus ([**12-31**]),
   arbovirus. Blood pending: bartonella PCR, EEE, LCMV, parvovirus IgG
   IgM, parvo DNA, WNV.
   - acyclovir d/c today after dose
   -versed off .
   - continue keppra, [**Month/Year (2) 4170**] for level in less than 60, continue 200mg
   TID
   -ativan q4h 0.5 for rigors (withdrawal vs seizure activity, vs
   agitation) Withdrawal less likely given VSS
   -f/u neuro and ID recs
   -PT/OT
   -FYI : patient is on fluconazole for perineal rash, which may affect
   her [**Month/Year (2) 4170**] level and other meds cleared by liver.
 AIRWAY CLEARANCE, IMPAIRED
 BALANCE, IMPAIRED
 KNOWLEDGE, IMPAIRED
 MUSCLE PERFORMACE, IMPAIRED
 TRANSFERS, IMPAIRED
 VENTILATION, IMPAIRED
 IMPAIRED PHYSICAL MOBILITY
 RASH
 ALTERED MENTAL STATUS (NOT DELIRIUM)
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2122-1-3**] 04:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2122-01-20 14:16:00 Physician Attending Progress Note
Chief Complaint: Occasional sz activ
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 NASAL SWAB - At [**2122-1-20**] 03:34 AM
 CALLED OUT
   History obtained from [**Hospital 15**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ampicillin - [**2122-1-18**] 09:16 AM
   Acyclovir - [**2122-1-20**] 06:00 AM
   Infusions:
   Other ICU medications:
   Ranitidine (Prophylaxis) - [**2122-1-20**] 09:00 AM
   Heparin Sodium (Prophylaxis) - [**2122-1-20**] 09:00 AM
   Lorazepam (Ativan) - [**2122-1-20**] 09:30 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Neurologic: diffuse weakness
   Psychiatric / Sleep: c/o anxiety, some confusion
   Pain: [**2-12**] Minimal
   Pain location: in neck
   Flowsheet Data as of  [**2122-1-20**] 02:15 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.2
C (100.8
   Tcurrent: 38.2
C (100.8
   HR: 94 (81 - 109) bpm
   BP: 106/66(75) {96/55(64) - 136/86(95)} mmHg
   RR: 26 (14 - 26) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 66 Inch
             Total In:
                                                                  1,437 mL
                                                                    645 mL
   PO:
                                                                    450 mL
                                                                    150 mL
   TF:
   IVF:
                                                                    987 mL
                                                                    495 mL
   Blood products:
   Total out:
                                                                  2,440 mL
                                                                    485 mL
   Urine:
                                                                  2,440 mL
                                                                    485 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,003 mL
                                                                    160 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 100%
   ABG: ///26/
   Physical Examination
   General Appearance: wasted
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Clear : ), shallow, still tachypneic
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent, No(t) Cyanosis, No(t)
   Clubbing
   Musculoskeletal: Muscle wasting, Unable to stand
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): x3, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   9.7 g/dL
   315 K/uL
   100 mg/dL
   0.5 mg/dL
   26 mEq/L
   3.9 mEq/L
   8 mg/dL
   108 mEq/L
   142 mEq/L
   27.8 %
   4.6 K/uL
        [image002.jpg]
                            [**2122-1-11**]  02:35 AM
                             [**2122-1-12**]  03:08 AM
                             [**2122-1-13**]  03:31 AM
                             [**2122-1-14**]  04:09 AM
                             [**2122-1-15**]  03:13 AM
                             [**2122-1-16**]  04:07 AM
                             [**2122-1-17**]  02:41 AM
                             [**2122-1-18**]  01:45 AM
                             [**2122-1-19**]  01:10 AM
                             [**2122-1-20**]  03:07 AM
   WBC
   6.1
   4.3
   4.5
   4.5
   6.4
   8.2
   8.2
   6.0
   5.5
   4.6
   Hct
   25.8
   25.2
   25.5
   25.1
   25.6
   25.6
   25.3
   24.0
   27.3
   27.8
   Plt
   370
   323
   357
   [**Telephone/Fax (3) **]
   282
   283
   311
   315
   Cr
   0.5
   0.5
   0.5
   0.4
   0.5
   0.5
   0.4
   0.4
   0.5
   0.5
   Glucose
   83
   93
   88
   90
   118
   100
   97
   103
   98
   100
   Other labs: PT / PTT / INR:14.0/31.0/1.2, CK / CKMB / Troponin-T:260//,
   ALT / AST:40/25, Alk Phos / T Bili:88/0.2, Differential-Neuts:78.1 %,
   Lymph:13.1 %, Mono:6.3 %, Eos:1.6 %, Fibrinogen:285 mg/dL, Lactic
   Acid:1.4 mmol/L, Albumin:3.1 g/dL, LDH:206 IU/L, Ca++:8.9 mg/dL,
   Mg++:2.2 mg/dL, PO4:3.7 mg/dL
   Assessment and Plan
 SEIZURE, WITHOUT STATUS EPILEPTICUS
 AIRWAY CLEARANCE, IMPAIRED
 BALANCE, IMPAIRED
 KNOWLEDGE, IMPAIRED
 MUSCLE PERFORMACE, IMPAIRED
 TRANSFERS, IMPAIRED
 VENTILATION, IMPAIRED
 IMPAIRED PHYSICAL MOBILITY
 RASH
 ALTERED MENTAL STATUS (NOT DELIRIUM)
   Continues improvement. Current [**Telephone/Fax (3) 4170**] regime has level in good
   range. Remains on Kepra still with intermit focal sz.  MS is slowly
   improving but continues to have signif deficit and anxiety remains an
   issue.  Swallow is adequate but she is not taking in much in the way of
   calories due to lack of appetite. Needs to begin PT while on NMed as
   she has considerable muscle wasting.
   ICU Care
   Nutrition:
   Comments: full diet
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2122-1-3**] 04:00 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 40 minutes